2161-05-04 07:22:00 Physician Resident Progress Note
Chief Complaint: Altered Mental Status, Bacteremia
   24 Hour Events:
 MULTI LUMEN - START [**2161-5-3**] 08:35 AM
   - 2 u rbc with cbc 24 to 34, never required any pressors, responded
   nice to IVF
   - TTE today, f/u induced sputum, MR L spine to assess source of
   bacteremia (? IE given murmur, epidural abscess, may be from decub
   ulcer)
   - trial PS not tolerated given body habitus, became tachypneic, will
   need rapid extubation in AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2161-5-3**] 06:09 AM
   Cefipime - [**2161-5-4**] 12:15 AM
   Nafcillin - [**2161-5-4**] 04:30 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2161-5-3**] 09:17 PM
   Ranitidine (Prophylaxis) - [**2161-5-3**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2161-5-3**] 10:00 PM
   Fentanyl - [**2161-5-4**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-4**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 92 (72 - 94) bpm
   BP: 108/67(83) {79/45(60) - 128/75(95)} mmHg
   RR: 21 (16 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 8 (8 - 15)mmHg
   Total In:
                                                                  5,588 mL
                                                                    381 mL
   PO:
   TF:
   IVF:
                                                                  4,623 mL
                                                                    381 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                  2,370 mL
                                                                    340 mL
   Urine:
                                                                  2,370 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,218 mL
                                                                     42 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 335 (0 - 335) mL
   PS : 14 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 117
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.49/36/82.[**Numeric Identifier 96**]/25/4
   Ve: 7.5 L/min
   PaO2 / FiO2: 207
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   145 K/uL
   11.6 g/dL
   96 mg/dL
   0.2 mg/dL
   25 mEq/L
   2.9 mEq/L
   10 mg/dL
   113 mEq/L
   145 mEq/L
   34.2 %
   2.2 K/uL
        [image002.jpg]
                             [**2161-5-3**]  12:00 AM
                             [**2161-5-3**]  12:27 AM
                             [**2161-5-3**]  05:43 AM
                             [**2161-5-3**]  06:00 AM
                             [**2161-5-3**]  06:38 AM
                             [**2161-5-3**]  02:06 PM
                             [**2161-5-3**]  06:15 PM
                             [**2161-5-3**]  06:22 PM
                             [**2161-5-4**]  04:50 AM
                             [**2161-5-4**]  05:04 AM
   WBC
   2.0
   1.3
   1.3
   2.1
   2.2
   Hct
   33.8
   24.6
   24.2
   34.4
   34.2
   Plt
   153
   118
   130
   111
   145
   Cr
   0.3
   0.2
   0.2
   TCO2
   29
   25
   25
   28
   Glucose
   123
   142
   105
   96
   Other labs: PT / PTT / INR:13.6/37.5/1.2, ALT / AST:62/55, Alk Phos / T
   Bili:268/0.8, Lactic Acid:0.9 mmol/L, Albumin:2.0 g/dL, LDH:272 IU/L,
   Ca++:7.3 mg/dL, Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   Fluid analysis / Other labs:
   7.49/36/83 on PEEP 5, 40% FiO2
   Imaging: CXR From today:
   CT Head: No hemorrhage, fluid levels c/w sinusitis, multiple lytic
   lesions c/w metastases
   Microbiology: BCx: [**4-30**] Staph Aureus Coag + MSSA
   UCx: [**4-30**] MSSA
   Assessment and Plan
   61 yo woman with metastic breast cancer to bone, admitted with
   displaced fracture of the clavicle, with Staph aureus in her blood and
   urine (MSSA) and resolving neutrapenia
   .
   # respiratory failure: multifactorial, with contributions from
   restrictive lung disease on the basis of kyphoscoliosis, recent
   increase in narcotic use, and likely sepsis; pt was in marked
   respiratory distress and fatiguing on arrival in the ICU, so intubated.
   Titrate narcotics back to home/minimal effective doses and wean vent as
   tolerates.
   - tolerating pressure support well, but with elevated RISBI this AM.
   Attempt to wean the vent as tolerated.
   .
   # delirium: possibly secondary to narcotics, infection; must also
   consider CNS metastases or infection, as pt has been on steroids. will
   check head CT to rule out ICH, but will need head MRI to fully rule out
   new mets
   - CT head -> w/o acute process but with mets to calvarium.
   - f/u MRI of brain done this AM.
   - Mental status improving, continue to follow.
   - consider LP, but pt has been on abx x >48 hrs
   .
   # bacteremia/septicemia - Staph aureus, sensitivities of blood cultures
   pending but urine culture of staph aureus was sensitive to oxacillin,
   so switched from vancomycin to nafcillin for bactericidal [**Doctor Last Name **].
   - needs MRI of L spine to eval for epidural abscess
   - stress dose steroids, as has been on slow decadron taper
   - will also need echo to eval for endocarditis
   .
   # neutropenia: Cycle 3 of doxil on [**4-14**]. ANC 1280 today but spiking
   fevers; continue neutropenic precautions and cefepime.
   - ANC rising
   .
   # Breast cancer: - further chemo per heme/onc, multiple mets as per
   head CT.
   .
   # pain control - fentanyl patch, gabapentin
   - sling, ortho following for fractures
   .
   #Low UOP: Bolus this AM, and then start maintenence fluids.
   .
   # precautions: pneumoboots, bowel regimen, sc heparin
   .
   #Access: Central Line
   # dispo - social work consult for coping at home, safety eval
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-5-3**] 01:45 AM
   22 Gauge - [**2161-5-3**] 01:45 AM
   Arterial Line - [**2161-5-3**] 05:00 AM
   Multi Lumen - [**2161-5-3**] 08:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-05-04 11:34:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo F w/ ER+ breast ca metastatic to bone and liver, most recently
   treated [**2161-4-14**] w/ 3rd cycle Doxil, on steroid taper after spine
   radiation, s/p fall at home last week, on iv antibiotics for GPC
   bacteremia (coag + staph in blood and urine [**4-30**])
admitted w/  right
   shoulder pain ([**4-30**] xray fracture in distal and mid-clavicle),
   generalized weakness, tachycardia (120s) and fevers
   Transferred ICU for hypotension, altered MS/somnolence.
   24 Hour Events:
 MULTI LUMEN - START [**2161-5-3**] 08:35 AM
   hypotension --> responded to IVF and transfused 2 unit prbcs
   MRI L-spine pending
   echo pending
   PS trial last night--> became tachypenic
   this am RSBI 117
                               History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2161-5-3**] 06:09 AM
   Cefipime - [**2161-5-4**] 12:15 AM
   Nafcillin - [**2161-5-4**] 04:30 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2161-5-3**] 09:17 PM
   Ranitidine (Prophylaxis) - [**2161-5-3**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2161-5-3**] 10:00 PM
   Fentanyl - [**2161-5-4**] 07:30 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-4**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 93 (75 - 97) bpm
   BP: 115/71(88) {83/45(60) - 128/76(96)} mmHg
   RR: 25 (17 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CVP: 9 (8 - 15)mmHg
   Total In:
                                                                  5,588 mL
                                                                    520 mL
   PO:
   TF:
   IVF:
                                                                  4,623 mL
                                                                    430 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                  2,370 mL
                                                                    405 mL
   Urine:
                                                                  2,370 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,218 mL
                                                                    115 mL
   Respiratory support
   Ventilator mode: Standby
   Vt (Set): 384 (384 - 400) mL
   Vt (Spontaneous): 343 (0 - 343) mL
   PS : 14 cmH2O
   RR (Set): 12
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 117
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   Compliance: 27.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.49/30/85.[**Numeric Identifier 128**]/25/0
   Ve: 8.7 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General Appearance: easily arousable, kyphotic
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   ant, Diminished: b/b)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   145 K/uL
   96 mg/dL
   0.2 mg/dL
   25 mEq/L
   2.9 mEq/L
   10 mg/dL
   113 mEq/L
   145 mEq/L
   34.2 %
   2.2 K/uL
        [image002.jpg]
                             [**2161-5-3**]  12:27 AM
                             [**2161-5-3**]  05:43 AM
                             [**2161-5-3**]  06:00 AM
                             [**2161-5-3**]  06:38 AM
                             [**2161-5-3**]  02:06 PM
                             [**2161-5-3**]  06:15 PM
                             [**2161-5-3**]  06:22 PM
                             [**2161-5-4**]  04:50 AM
                             [**2161-5-4**]  05:04 AM
                             [**2161-5-4**]  07:54 AM
   WBC
   2.0
   1.3
   1.3
   2.1
   2.2
   Hct
   33.8
   24.6
   24.2
   34.4
   34.2
   Plt
   153
   118
   130
   111
   145
   Cr
   0.3
   0.2
   0.2
   TCO2
   25
   25
   28
   23
   Glucose
   123
   142
   105
   96
   Other labs: PT / PTT / INR:13.6/37.5/1.2, ALT / AST:62/55, Alk Phos / T
   Bili:268/0.8, Lactic Acid:0.9 mmol/L, Albumin:2.0 g/dL, LDH:272 IU/L,
   Ca++:7.3 mg/dL, Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   Imaging: cxr--very rotated, et
   Microbiology: bl [**4-30**]--> [**3-20**] staph areus, mssa
   [**5-2**]--bl neg
    urine staph areus
   Assessment and Plan
   61 yo F w/ ER+ breast ca metastatic to bone and liver, most recently
   treated [**2161-4-14**] w/ 3rd cycle Doxil, on steroid taper after spine
   radiation, s/p fall at home last week, on iv antibiotics for GPC
   bacteremia (coag + staph in blood and urine [**4-30**])
admitted w/  right
   shoulder pain ([**4-30**] xray fracture in distal and mid-clavicle),
   generalized weakness, tachycardia (120s) and fevers
   Transferred ICU for hypotension, altered MS/somnolence--> likely sepsis
   w/  mssa bacteremia and possible contribution of narcotics on MS [**First Name (Titles) **] [**Last Name (Titles) **]
   # Hypotension
sepsis, medication effect
   CVP > 10, responsive to IVF, blood
   Stress dose steroids given chronic decadron, start taper to home dose
   Antbx
   # Fevers: af since admit to MICU
    --mssa bacteremia --evaluating for source
   (no evidence of pna, no picc line, skin w/ decubs, no murmur)
   TTE--today
   MRI spine and head to r/o epidural abscess--today
   f/u cxs, surveillance pending
   continue nafcillin, can d/c cefepime given no GN on cx
   --other potential infections:  check LFTs, ldh (dfa for PCP)
   # Somnolence/ AMS/delirium
likely [**1-17**] ? narc effect/infection on
   transfer
   head ct neg for acute change
   ? infection
consider LP but would need under fluoro, though improoving
   Narcotics likely contributing given response to narcan
   # Resp failure
   Oxygenating well
   Consider extubation pending PS trial and RSBI
   #pain
fentanyl patches + prn
   # onc
   no longer neutropenic
   can d/c cefepime,
   continue naf
   # clavicular fx-sling, pain control
   # goals of care/onc
d/w primary oncologist, family
   ICU Care
   Nutrition: npo, reassess for possible extubation, consider intiating
   TFs
   Comments: bowel reg
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-5-3**] 01:45 AM
   22 Gauge - [**2161-5-3**] 01:45 AM
   Arterial Line - [**2161-5-3**] 05:00 AM
   Multi Lumen - [**2161-5-3**] 08:35 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   Sputum DFA  + PCP
 began treatment with bactrim
   Data for steroids in non-HIV poor, will continue prior steroid reg,
   Additional 15  min critical care time reviewing data and discussing
   case

2161-05-05 07:41:00 Physician Resident Progress Note
Chief Complaint: 61F with PMH metastatic breast CA on steroids, s/p
   third cycle doxil [**4-14**], presented with septic shock and bacteremia
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2161-5-4**] 09:00 AM, prelim read
   negative for spinal osteomyelitis, epidural abscess, or brain mets.
 TRANSTHORACIC ECHO - At [**2161-5-4**] 03:10 PM, no vegetations, limited
   study, TEE ordered for AM
   - ONc:- Primary Oncologist will have goals of care discussion with
   patient/family, added tumor markers for Primary Onc team
   - Sputum returned PCP [**Name Initial (PRE) **] [**Name10 (NameIs) **] IV Bactrim, d/c'd cefepime
   - Restarted home steroids in PM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2161-5-3**] 06:09 AM
   Cefipime - [**2161-5-4**] 12:15 AM
   Bactrim (SMX/TMP) - [**2161-5-5**] 02:24 AM
   Nafcillin - [**2161-5-5**] 04:13 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Fentanyl - [**2161-5-4**] 02:49 PM
   Midazolam (Versed) - [**2161-5-4**] 02:53 PM
   Heparin Sodium (Prophylaxis) - [**2161-5-4**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-5**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 84 (61 - 107) bpm
   BP: 125/73(94) {96/52(67) - 167/87(117)} mmHg
   RR: 17 (14 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 16 (6 - 332)mmHg
   Total In:
                                                                  2,617 mL
                                                                    903 mL
   PO:
   TF:
   IVF:
                                                                  2,437 mL
                                                                    903 mL
   Blood products:
   Total out:
                                                                  1,760 mL
                                                                    385 mL
   Urine:
                                                                  1,760 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    857 mL
                                                                    518 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (384 - 400) mL
   Vt (Spontaneous): 447 (161 - 515) mL
   PS : 14 cmH2O
   RR (Set): 12
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 20 cmH2O
   Plateau: 12 cmH2O
   Compliance: 57.1 cmH2O/mL
   SpO2: 95%
   ABG: 7.42/40/87.[**Numeric Identifier 244**]/22/0
   Ve: 6.9 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General: Intubated, following commands in NAD
   HEENT: ET tube
   CARDIAC: regular rhythm, normal rate, no murmurs
   LUNGS: coarse, rhonchorous ventilated breath sounds.  Symmentric
   expansion.
   ABDOMEN: Distended, NTTP, NABS
   EXTREMITIES: 2+ pulses x4, warm/well perfused, [**12-17**]+ pitting edema
   Labs / Radiology
   119 K/uL
   10.7 g/dL
   144 mg/dL
   0.2 mg/dL
   22 mEq/L
   4.0 mEq/L
   7 mg/dL
   107 mEq/L
   138 mEq/L
   32.0 %
   1.8 K/uL
        [image002.jpg]
                             [**2161-5-3**]  06:15 PM
                             [**2161-5-3**]  06:22 PM
                             [**2161-5-4**]  04:50 AM
                             [**2161-5-4**]  05:04 AM
                             [**2161-5-4**]  07:54 AM
                             [**2161-5-4**]  02:20 PM
                             [**2161-5-4**]  08:31 PM
                             [**2161-5-5**]  03:38 AM
                             [**2161-5-5**]  03:55 AM
                             [**2161-5-5**]  04:16 AM
   WBC
   2.1
   2.2
   1.8
   Hct
   34.4
   34.2
   32.0
   Plt
   111
   145
   119
   Cr
   0.2
   0.2
   0.2
   TCO2
   25
   28
   23
   27
   27
   Glucose
   96
   74
   144
   Other labs: PT / PTT / INR:14.2/40.5/1.2, ALT / AST:62/55, Alk Phos / T
   Bili:268/0.8, Lactic Acid:0.9 mmol/L, Albumin:2.0 g/dL, LDH:272 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Imaging: MRI spine/brain: Prelim negative for osteo, abscess, brain
   mets
   Echo: Negative for vegetations
   Microbiology: [**3-20**] blood cultures positive for coag + staph
   Urine: negative
   Sputum: PCP
   Assessment and [**Name9 (PRE) 440**]
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS,  and bacteremia
   Hypotension: In the setting of MSSA bacteremia and narcotics.  CVPs at
   goal and not on pressors.
   -Continue nafcillin
   -IVF to keep CVP >12, pressors to keep MAP >60
   -Surveillance cultures until negative x2
   -Steroid taper
   MSSA bacteremia: TTE negative for vegetations, limited study.  MRI
   prelim negative for spinal osteomyelitis, or epidural abscess.
   -Continue nafcillin
   -TEE today
   -surveillance cultures
   -f/u micro
   -Final read MRI
   Altered mental status: Per report patient received multiple doses of
   dilaudid on the floor, in the setting of a fentanyl patch.  Had a
   robust response to narcan c/w narcotic OD.  MRI negative for any new
   brain mets.
   -Careful with narcotics
   -LP if she does not improve
   Repiratory failure: Required intubation for respiratory distress on
   admission to ICU.  Current settings PSV 14/5, pulling tidal volumes
   384-400 with RISBI of 57 this AM.  Most recent ABG 7.42/40/87.  SBT
   showed respiratory distress and pO2 62.
   -Continue ventilating during invasive studies and attempt to wean
   pressure support today
   PCP in sputum
   [**Name9 (PRE) **] bactrim
   Pain:
   -Fentanyl patch with prn fentanyl
   -Gabapentin
   Breast CA
   -Defer to onc team, will have goals of care discussion today
   Clavicular fracture:
   -sling, pain control
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Comments: Needs ISS on decadron
   Lines:
   22 Gauge - [**2161-5-3**] 01:45 AM
   Arterial Line - [**2161-5-3**] 05:00 AM
   Multi Lumen - [**2161-5-3**] 08:35 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2161-05-05 10:22:00 Physician Attending Progress Note
Chief Complaint: hypotension, fevers, altered ms
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  61 yo F w/ ER+ breast ca metastatic to bone and liver, most
   recently treated [**2161-4-14**] w/ 3rd cycle Doxil, on steroid taper after
   spine radiation, s/p fall at home last week, on iv antibiotics for GPC
   bacteremia (coag + staph in blood and urine [**4-30**])
admitted w/  right
   shoulder pain ([**4-30**] xray fracture in distal and mid-clavicle),
   generalized weakness, tachycardia (120s) and fevers
   Transferred ICU for hypotension, altered MS/somnolence.
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2161-5-4**] 09:00 AM--neg for epidural
   abscess/[**Last Name (LF) **], [**First Name3 (LF) **] mets, +  skull mets
   Patient back to floor at 1150
 TRANSTHORACIC ECHO - At [**2161-5-4**] 03:10 PM--neg veggies, limited
   study
   dfa + pcp
bactrim started, resumed prior dose of steroids
   History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2161-5-3**] 06:09 AM
   Cefipime - [**2161-5-4**] 12:15 AM
   Nafcillin - [**2161-5-5**] 08:00 AM
   Bactrim (SMX/TMP) - [**2161-5-5**] 09:45 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2161-5-4**] 02:49 PM
   Midazolam (Versed) - [**2161-5-4**] 02:53 PM
   Heparin Sodium (Prophylaxis) - [**2161-5-4**] 03:00 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-5**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.5
   HR: 104 (61 - 114) bpm
   BP: 97/64(75) {96/52(67) - 167/87(117)} mmHg
   RR: 17 (14 - 27) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
   CVP: 9--16 (6 - 332)mmHg
   Total In:
                                                                  2,617 mL
                                                                  1,676 mL
   PO:
   TF:
   IVF:
                                                                  2,437 mL
                                                                  1,586 mL
   Blood products:
   Total out:
                                                                  1,760 mL
                                                                    765 mL
   Urine:
                                                                  1,760 mL
                                                                    765 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    857 mL
                                                                    911 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 493 (161 - 515) mL
   PS : 14 cmH2O
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 14 cmH2O
   Plateau: 12 cmH2O
   Compliance: 57.1 cmH2O/mL
   SpO2: 95%
   ABG: 7.43/39/63/22/1--7.42/40/87
   Ve: 7.8 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: No acute distress, kyphotic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender: ,
   Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to:voice ,
   Movement: Purposeful, Sedated,
   Labs / Radiology
   10.7 g/dL
   119 K/uL
   144 mg/dL
   0.2 mg/dL
   22 mEq/L
   4.4 mEq/L
   7 mg/dL
   107 mEq/L
   138 mEq/L
   32.0 %
   1.8 K/uL
        [image002.jpg]
                             [**2161-5-3**]  06:22 PM
                             [**2161-5-4**]  04:50 AM
                             [**2161-5-4**]  05:04 AM
                             [**2161-5-4**]  07:54 AM
                             [**2161-5-4**]  02:20 PM
                             [**2161-5-4**]  08:31 PM
                             [**2161-5-5**]  03:38 AM
                             [**2161-5-5**]  03:55 AM
                             [**2161-5-5**]  04:16 AM
                             [**2161-5-5**]  08:29 AM
   WBC
   2.2
   1.8
   Hct
   34.2
   32.0
   Plt
   145
   119
   Cr
   0.2
   0.2
   0.2
   TCO2
   25
   28
   23
   27
   27
   27
   Glucose
   96
   74
   144
   Other labs: PT / PTT / INR:14.2/40.5/1.2, ALT / AST:62/55, Alk Phos / T
   Bili:268/0.8, Lactic Acid:0.9 mmol/L, Albumin:2.0 g/dL, LDH:272 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Fluid analysis / Other labs: gran ct 1380
   Imaging: mri spine, head--neg for epidural abscess, [**Year (4 digits) **], brain mets,
   bleed, + skull mets
   cxr
pending this am
   Microbiology: 5/1/5 urine, blood + mssa
   later blood 5/17, [**5-3**]--ngtd
   dfa + pcp sputum
   Assessment and Plan
   61 yo F w/ ER+ breast ca metastatic to bone and liver, most recently
   treated [**2161-4-14**] w/ 3rd cycle Doxil, on steroid taper after spine
   radiation, s/p fall at home last week, on iv antibiotics for GPC
   bacteremia (coag + staph in blood and urine [**4-30**])
admitted w/  right
   shoulder pain ([**4-30**] xray fracture in distal and mid-clavicle),
   generalized weakness, tachycardia (120s) and fevers
   Transferred ICU for hypotension, altered MS/somnolence  -->
   Initial presentation most likely [**1-17**] sepsis w/  mssa bacteremia/
   bacteruria with narcotic effect further contributing to hypotension and
   AMS.  Suspect that fevers despite antibx in part [**1-17**]  P jiroveci pna.
   Over all improving, with hemodynamic stability, never requiring pressor
   support.  Remains intubated with poor tolerance of SBT, likely [**1-17**] new
   pna (PJP), kyphoisis/restrictive ds, though oxygenating well.
   Main issues remain:
   # Fevers: af since admit to MICU, likely multifactorial
     ### mssa bacteremia
 cont evaluating for source, ? SBE
   TTE
w/o veggies, await TEE today
   Prlelim MRI spine and head r/o epidural abscess/[**Month/Day (2) **]
   surveillance cx
s pending
   continue nafcillin
    ### PJP
bactrim X 14 day course (day 1), poor lit support for high
   dose steroids in non-HIV pts with PCP
   # Somnolence/ AMS/delirium
likely [**1-17**] narc effect/infection on transfer
 now following commands, resolved
   # Resp failure
intubated for airway protection in setting of AMS and
   increased WOB, now confounded by
   PJP pna, Kyphosis, sedation  likely contributing to difficulty with SBT
   Oxygenating well
   Daily cxr while on vent -> risk for pnx
   PS wean
Consider extubation pending PS trial and RSBI after procedures
   today
   #pain
fentanyl patches + gtt fentanyl
   Versed
   Pending extubation will reassess, consider PCA
   # onc
   no longer neutropenic
   pain control as above
   goals of care discussion with onc and family
   resume steroid taper
   # clavicular fx
   sling, pain control
   ICU Care
   Nutrition:
   Comments: npo
 start TFs if not extubating today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2161-5-3**] 05:00 AM
   Multi Lumen - [**2161-5-3**] 08:35 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2161-05-06 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2161-5-5**] 01:10 PM
   Unable to pass scope. Attempted multiple times but met resistance. Will
   attempt at a late time with the GI scope that has a camera.
 BLOOD CULTURED - At [**2161-5-5**] 07:50 PM
   venipuncture x1
 BLOOD CULTURED - At [**2161-5-5**] 08:15 PM
   from arterial line x1
 SPUTUM CULTURE - At [**2161-5-5**] 08:15 PM
   ETT done by Rt
   .
   -Unable to pass probe for TEE, if this needs to be done, we need
   anesthesia
   -Spiked a temperature and increased her O2 requirement on the vent.
   CXR c/w with worsening airspace disease.  We broadened her abx coverage
   to cover for ventilator-associated PNA with vanc/zosyn
   -Became increasingly hypertensive and tachycardic (sinus), we increased
   her sedation
   -No family meeting with onc
   -No SBT as patient was developing a new O2 requirement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2161-5-4**] 12:15 AM
   Nafcillin - [**2161-5-5**] 01:00 PM
   Vancomycin - [**2161-5-5**] 08:20 PM
   Bactrim (SMX/TMP) - [**2161-5-5**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-5-6**] 01:38 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2161-5-5**] 09:12 PM
   Heparin Sodium (Prophylaxis) - [**2161-5-5**] 09:12 PM
   Midazolam (Versed) - [**2161-5-5**] 09:30 PM
   Fentanyl - [**2161-5-5**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-6**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37
C (98.6
   HR: 114 (84 - 139) bpm
   BP: 120/63(83) {97/57(72) - 168/97(124)} mmHg
   RR: 20 (12 - 29) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
    CVP: 12 (7 - 16)mmHg
   Total In:
                                                                  3,256 mL
                                                                    377 mL
   PO:
   TF:
                                                                     60 mL
   IVF:
                                                                  2,986 mL
                                                                    317 mL
   Blood products:
   Total out:
                                                                  1,685 mL
                                                                    790 mL
   Urine:
                                                                  1,685 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,571 mL
                                                                   -413 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 415 (381 - 493) mL
   PS : 14 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 83
   PIP: 12 cmH2O
   Plateau: 10 cmH2O
   SpO2: 93%
   ABG: 7.40/39/82.[**Numeric Identifier 96**]/26/0
   Ve: 7.3 L/min
   PaO2 / FiO2: 166
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly, Diminished: low lung volumes)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, denies pain
   Labs / Radiology
   170 K/uL
   12.2 g/dL
   80 mg/dL
   0.2 mg/dL
   26 mEq/L
   3.5 mEq/L
   5 mg/dL
   98 mEq/L
   132 mEq/L
   36.7 %
   3.7 K/uL
        [image002.jpg]
                             [**2161-5-4**]  02:20 PM
                             [**2161-5-4**]  08:31 PM
                             [**2161-5-5**]  03:38 AM
                             [**2161-5-5**]  03:55 AM
                             [**2161-5-5**]  04:16 AM
                             [**2161-5-5**]  08:29 AM
                             [**2161-5-5**]  03:54 PM
                             [**2161-5-5**]  04:56 PM
                             [**2161-5-5**]  07:55 PM
                             [**2161-5-6**]  04:36 AM
   WBC
   1.8
   3.7
   Hct
   32.0
   36.7
   Plt
   119
   170
   Cr
   0.2
   0.2
   0.3
   0.2
   TCO2
   27
   27
   27
   28
   25
   Glucose
   74
   144
   73
   80
   Other labs: PT / PTT / INR:13.4/38.4/1.1, ALT / AST:62/55, Alk Phos / T
   Bili:268/0.8, Lactic Acid:0.9 mmol/L, Albumin:2.0 g/dL, LDH:272 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR: [**5-5**] -> PCP PNA vs. hydrostatic edema.
   .
   Microbiology: No new growth.
   Staph Aurues - MSSA in blood Urine from [**4-30**]
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia
   .
   Repiratory failure: New Hypoxia.  Is likely worsening of PCP pneumonia
   in setting of treatment, but reasonable to cover for VAP in interim
   period.  Send sputum, blood cultures.  Gas/vent settings c/w ARDS given
   b/l infiltrates on CXR.
   - trial of pressure support today and wean as tolerated but no goal of
   extubation given ARDS and possible TEE in near term.
   - follow ABG [**Hospital1 **]
   - sputum culture
   - continue vanc/zosyn/bactrim
   - curbside ID regarding steroid dosing in PCP.
   .
   Hypotension: In the setting of MSSA bacteremia and narcotics.  CVPs at
   goal and not on pressors.
   -IVF to keep CVP >12, pressors to keep MAP >60
   -Surveillance cultures until negative x2
   -Steroid -> home dose
   .
   MSSA bacteremia: TTE negative for vegetations, limited study.  MRI
   prelim negative for spinal osteomyelitis, or epidural abscess.  Will
   need anesthesia for any TEE as unable to pass probe due to kyphosis.
   -TEE if possible for endocarditis
 may need flouroscopic guidance.
   -surveillance cultures
   -f/u micro
   -Final read MRI
   .
   Altered mental status: Per report patient received multiple doses of
   dilaudid on the floor, in the setting of a fentanyl patch.  Had a
   robust response to narcan c/w narcotic OD.  MRI negative for any new
   brain mets.
   - Careful with narcotics
   - Currently quite lucid.
   .
   PCP in sputum
   [**Name9 (PRE) **] IV bactrim
   .
   Pain: would prefer long acting [**Doctor Last Name **] such as methadone, but pain med
   requirements may change with d/c of ET tube so would continue short
   acting now with fentanyl patch
   -Fentanyl patch with prn fentanyl
   -Gabapentin
   - consult pain/palliative care.
   .
   Breast CA
   -Defer to onc team, will have goals of care discussion today
   .
   Clavicular fracture: Ortho rec's - sling, pain control
   -sling, pain control
   Nutrition: Tube feeds running, hold while awaiting TEE.
   .
   GI: No BM since Saturday when she had 3.  Abdomen soft but with
   diminished bowel sounds.  Likely [**1-17**] narcotics and poor PO intake. ->
   now w/ diarrhea s/p lactulose.  Check C. Diff, hold further lactulose.
   - Continue bowel regimen.  Change senna to standing given narcotics.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2161-5-6**] 12:45 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2161-5-3**] 05:00 AM
   Multi Lumen - [**2161-5-3**] 08:35 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2161-05-06 12:35:00 Physician Attending Progress Note
Chief Complaint:  hypotension, fevers, somnolence
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  61 yo F w/ ER+ breast ca metastatic to bone and liver, most
   recently treated [**2161-4-14**] w/ 3rd cycle Doxil, on steroid taper after
   spine radiation, s/p fall at home, on iv antibiotics for GPC bacteremia
   (coag + staph in blood and urine [**4-30**])
>admitted w/  right shoulder
   pain ([**4-30**] xray fracture in distal and mid-clavicle), generalized
   weakness, tachycardia (120s) and fevers
        Transferred ICU for hypotension, altered MS/somnolence.
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2161-5-5**] 01:10 PM
   Unable to pass scope. Attempted multiple times but met resistance
 BLOOD CULTURED - At [**2161-5-5**] 07:50 PM
   venipuncture x1
 BLOOD CULTURED - At [**2161-5-5**] 08:15 PM
   from arterial line x1
 SPUTUM CULTURE - At [**2161-5-5**] 08:15 PM
   ETT done by Rt
   tee attempted with difficulty passing scope
   febrile to 100.4 last pm
 cxr with worsening infiltrates --> broadened
   antibx coverage to  zosyn, vanco
   History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2161-5-4**] 12:15 AM
   Nafcillin - [**2161-5-5**] 01:00 PM
   Bactrim (SMX/TMP) - [**2161-5-6**] 06:45 AM
   Vancomycin - [**2161-5-6**] 08:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2161-5-6**] 09:30 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-5-5**] 09:12 PM
   Midazolam (Versed) - [**2161-5-5**] 09:30 PM
   Ranitidine (Prophylaxis) - [**2161-5-6**] 08:00 AM
   Fentanyl - [**2161-5-6**] 09:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-6**] 12:20 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.7
C (99.8
   HR: 105 (99 - 139) bpm
   BP: 89/55(68) {89/54(68) - 168/97(124)} mmHg
   RR: 16 (15 - 34) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75 kg (admission): 67 kg
   Height: 60 Inch
   CVP: 9 (3 - 13)mmHg
   Total In:
                                                                  3,256 mL
                                                                  1,817 mL
   PO:
   TF:
                                                                    152 mL
   IVF:
                                                                  2,986 mL
                                                                  1,440 mL
   Blood products:
   Total out:
                                                                  1,685 mL
                                                                  2,330 mL
   Urine:
                                                                  1,685 mL
                                                                  1,880 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                  1,571 mL
                                                                   -513 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 380 (380 - 400) mL
   Vt (Spontaneous): 476 (380 - 476) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 1%
   RSBI: 83
   PIP: 19 cmH2O
   Plateau: 10 cmH2O
   SpO2: 93%
   ABG: 7.37/44/74/26/0  (on PS [**9-23**])
   Ve: 7 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General Appearance: No acute distress, Thin, kyphotic
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, No(t) Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   12.2 g/dL
   170 K/uL
   80 mg/dL
   0.2 mg/dL
   26 mEq/L
   3.7 mEq/L
   5 mg/dL
   98 mEq/L
   132 mEq/L (138 --> 134)
   36.7 %
   3.7 K/uL
        [image002.jpg]
                             [**2161-5-5**]  03:38 AM
                             [**2161-5-5**]  03:55 AM
                             [**2161-5-5**]  04:16 AM
                             [**2161-5-5**]  08:29 AM
                             [**2161-5-5**]  03:54 PM
                             [**2161-5-5**]  04:56 PM
                             [**2161-5-5**]  07:55 PM
                             [**2161-5-6**]  04:36 AM
                             [**2161-5-6**]  09:09 AM
                             [**2161-5-6**]  11:25 AM
   WBC
   1.8
   3.7
   Hct
   32.0
   36.7
   Plt
   119
   170
   Cr
   0.2
   0.3
   0.2
   TCO2
   27
   27
   28
   25
   22
   26
   Glucose
   144
   73
   80
   Other labs: PT / PTT / INR:13.4/38.4/1.1, ALT / AST:62/55, Alk Phos / T
   Bili:268/0.8, Lactic Acid:0.9 mmol/L, Albumin:2.0 g/dL, LDH:272 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Imaging: cxr -- worsening diffuse b/l infiltrates
   Microbiology: bl [**4-30**]--> no new growth
   sputum pcp
   [**5-5**]--2  + gpr, gnr, gpc pairs and clusters
   Assessment and Plan
   61 yo F w/ ER+ breast ca metastatic to bone and liver, last treated
   [**4-14**] w/ 3rd cycle Doxil, on steroid taper after spine radiation, s/p
   fall at home, on iv antibiotics for GPC bacteremia (coag + staph in
   blood and urine [**4-30**])
> admitted w/  right shoulder pain [**1-17**]
   mid-clavicle fx, generalized weakness, tachycardia (120s) and fevers
   Transferred ICU for hypotension, altered MS/somnolence  -->
   Initial presentation most likely [**1-17**] sepsis w/  mssa bacteremia/
   bacteruria + narcotic effect further contributing to hypotension and
   AMS.  Suspect that fevers despite antibx in part [**1-17**] P jiroveci pna.
   Remains w/  hemodynamic stability, never requiring pressor support.
   Intubated with poor tolerance of SBT, likely [**1-17**] new pna (PJP),
   kyphoisis/restrictive ds, now with progressive b/l infiltrates.
   Main issues remain:
   # Fevers
     ### mssa bacteremia
   MRI spine and head r/o epidural abscess/osteo
   Unable to pass TEE scope, despite multiple attempts, will treat
   empirically for SBE given no other clear source
   Surveillance cx
s ngtd
    ### PJP
bactrim X 14 day course (day 1), poor lit support for high
   dose steroids in non-HIV pts with PCP
   ### progressive infiltrates on CXR
   Developing ards picture ? [**1-17**] PCP [**Last Name (NamePattern4) **] [**1-17**] bactrim with PCP immune
   response
   curb side ID regarding steroids in this non-HIV pt on prior steroid
   taper.
   Broadened coverage for HAP/VAP with zosyn, vanco
   Consider bronch
    ### diarrhea
holding bowel reg checking c diff
   # Resp failure
intubated initially for airway protection in setting of
   AMS and increased WOB, now confounded by
   PJP pna, Kyphosis, sedation  likely contributing to difficulty with
   SBT, worsening infiltrates, now with ARDS physiology by pa/Fi ratio
   Continue pressure support trials, not yet ready for extubation
   Daily cxr while on vent -> risk for pnx with PJP
   #pain
   # clavicular fx
   # chronic pain, from bone mets
   fentanyl patches + gtt fentanyl
   would transition to methadone
   palliative consult will be helpful to address chronic pain needs and
   goals of care
   # onc
   no longer neutropenic
   pain control as above
   goals of care discussion with onc and family
   # tachycardia
[**1-17**]  Pain, fevers,
   Improving
   # Somnolence/ AMS/delirium
likely [**1-17**] narc effect/infection on
   transfer-- resolved
   ICU Care
   Nutrition: holding TFs pending possible TEE
 then resume Tfs
   Glycemic Control:  SSI
   Lines:
   Arterial Line - [**2161-5-3**] 05:00 AM
   Multi Lumen - [**2161-5-3**] 08:35 AM
   Prophylaxis:
   DVT:  sq hep
   Stress ulcer:  H2 blocker while NPO
   VAP:  asp risks, hob up,
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Critically ill
   Total time spent:  45

2161-05-07 06:55:00 Physician Resident Progress Note
Chief Complaint: ARDS
   24 Hour Events:
   -  tx empirically IE, too high risk for TEE went all the way up to
   cardiac anesthesia
   - palliative- consider xrt for palliative, increased fentanyl boluses
   to q1h prn and gave higher range for gtt which we should adjust as her
   prn bolus requirements are tallyed, they are considering methadone
   - call neurorads in AM, neurorads left at 4pm, need for collar
   - do not increase steroids per ID given already on 6mg decadron = 40mg
   prednisone, no increased benefit of upping her steroids given the
   amount she is on now
   - switched to AC to rest her, she was getting tachy
   - hr 140s, suctioned her and had mucus plug, hr came back down
   afterwards, was agitated during this
   - increased PEEP from 8 to 10 to 12, performed recruitment maneuver
   given sats 90%, and increased FI02 to 60%, they inc 93-95% with this,
   suspect developing ARDS, ABG 7.4/53/71, may also need to discuss repeat
   PE imaging
   - CXR per my read shows ETT ok and worsening bilateral opacities c/w
   ARDS, o2/fio2 ratio 100
   - C.diff pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2161-5-5**] 01:00 PM
   Vancomycin - [**2161-5-6**] 07:20 PM
   Bactrim (SMX/TMP) - [**2161-5-6**] 09:21 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-5-7**] 01:31 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2161-5-6**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2161-5-6**] 09:00 PM
   Midazolam (Versed) - [**2161-5-6**] 11:30 PM
   Fentanyl - [**2161-5-6**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-7**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.7
C (99.9
   HR: 120 (103 - 140) bpm
   BP: 134/69(92) {83/51(63) - 146/80(100)} mmHg
   RR: 25 (16 - 34) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75 kg (admission): 67 kg
   Height: 60 Inch
    CVP: 8 (3 - 14)mmHg
   Total In:
                                                                  4,115 mL
                                                                    351 mL
   PO:
   TF:
                                                                    361 mL
                                                                    175 mL
   IVF:
                                                                  3,450 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  4,695 mL
                                                                  1,260 mL
   Urine:
                                                                  4,045 mL
                                                                  1,260 mL
   NG:
   Stool:
                                                                    650 mL
   Drains:
   Balance:
                                                                   -580 mL
                                                                   -909 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (380 - 400) mL
   Vt (Spontaneous): 350 (350 - 476) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 16 cmH2O
   SpO2: 93%
   ABG: 7.43/49/62/28/6
   Ve: 9.2 L/min
   PaO2 / FiO2: 103
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: coarse mechanical breath sounds
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   142 K/uL
   10.6 g/dL
   111 mg/dL
   0.2 mg/dL
   28 mEq/L
   3.2 mEq/L
   5 mg/dL
   93 mEq/L
   130 mEq/L
   31.7 %
   3.9 K/uL
        [image002.jpg]
                             [**2161-5-5**]  08:29 AM
                             [**2161-5-5**]  03:54 PM
                             [**2161-5-5**]  04:56 PM
                             [**2161-5-5**]  07:55 PM
                             [**2161-5-6**]  04:36 AM
                             [**2161-5-6**]  09:09 AM
                             [**2161-5-6**]  11:25 AM
                             [**2161-5-7**]  03:27 AM
                             [**2161-5-7**]  03:59 AM
                             [**2161-5-7**]  04:13 AM
   WBC
   3.7
   3.9
   Hct
   36.7
   31.7
   Plt
   170
   142
   Cr
   0.3
   0.2
   0.2
   TCO2
   27
   28
   25
   22
   26
   34
   34
   Glucose
   73
   80
   111
   Other labs: PT / PTT / INR:14.0/55.9/1.2, ALT / AST:62/55, Alk Phos / T
   Bili:268/0.8, Lactic Acid:0.9 mmol/L, Albumin:2.0 g/dL, LDH:272 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs:
   7.43/49/62
   Imaging: CXR: IMPRESSION: Allowing for differences in obliquity little
   overall change.
   Microbiology: No New Growth:
   [**5-2**] BCx: Staph Aureus Coag +
   [**5-2**] UCx: Staph Aureus Coag +
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia
   .
   Repiratory failure: New Hypoxia.  Is likely worsening of PCP pneumonia
   in setting of treatment, but reasonable to cover for VAP in interim
   period.  Send sputum, blood cultures.  Gas/vent settings c/w ARDS given
   b/l infiltrates on CXR.  Increasing difficulty ventilating last 24
   hours.  ?Fungal pneumonia, some bloody return on sputum today so
   bronchoscopy performed for ? DAH.
   - Increasing O2 requirement -> ARDS, ?fungal infection
 Bronch today,
   f/u results
   - follow ABG QID, repeat gas on new settings.
   - sputum culture
   - continue vanc/zosyn/bactrim -> consider fungal coverage if spikes
   again.
   - curbside ID regarding steroid dosing in PCP.
   [**Name Initial (NameIs) **] [**Name11 (NameIs) **] [**Name12 (NameIs) 2863**]/galactomannan given low grade temp's on
   immunosuppressants, and consider CT chest given possibility of
   underlying fungal infection given low grade temp's.
   - Gentle diuresis today to improve respiratory status.
   .
   Tachycardia: Sinus.  [**1-17**] agitation and inadequate pain control.
   Improved with suctioning.  Consider repeat CTA of chest for ? PE given
   persistent sinus tachycardia.  Would allow for evaluation of lung
   parenchyma as well.
   .
   Volume:  Previously on pressors In the setting of MSSA bacteremia and
   narcotics.  CVPs at goal and not on pressors and now hypertensive.
   -Would consider gentle diuresis today to improve respiratory status.
   Goal net out 0.5-1L.
 follow I/O.
   -Surveillance cultures until negative x2
   -Steroid -> home dose
   .
   MSSA bacteremia: TTE negative for vegetations, limited study.  MRI
   prelim negative for spinal osteomyelitis, or epidural abscess.  Will
   need anesthesia for any TEE as unable to pass probe due to kyphosis.
   -TEE if possible for endocarditis
 may need flouroscopic guidance.
   -surveillance cultures
   -f/u micro
   -Final read MRI
   .
   Altered mental status: Per report patient received multiple doses of
   dilaudid on the floor, in the setting of a fentanyl patch.  Had a
   robust response to narcan c/w narcotic OD.  MRI negative for any new
   brain mets.
   - Careful with narcotics
   - Currently quite lucid.
   - fentanyl as ordered.
   .
   PCP in sputum
   [**Name9 (PRE) **] IV bactrim
   .
   Pain: Palliative care agrees with titrating fentanyl gtt on basis of
   PRN fentanyl requirements.  Will consider methadone.
   -Fentanyl patch with prn fentanyl
   -Gabapentin
   -appreciate palliative care rec's.
   .
   Breast CA: Progressive and metastatic.
   -Defer to onc team, will have goals of care discussion today
   .
   Clavicular fracture: Ortho rec's - sling, pain control
   -sling, pain control
   .
   Nutrition: Okay to restart tube feeds - close eye on residuals to avoid
   aspiration of gastric contents.
   .
   GI: No BM since Saturday when she had 3.  Abdomen soft but with
   diminished bowel sounds.  Likely [**1-17**] narcotics and poor PO intake. ->
   now w/ diarrhea s/p lactulose.  Check C. Diff, hold further lactulose.
   - f/u C. Diff.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2161-5-3**] 05:00 AM
   Multi Lumen - [**2161-5-3**] 08:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-05-07 11:01:00 Physician Attending Progress Note
Chief Complaint: hypotension, altered MS/somnolence.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  61 yo F w/ breast ca metastatic to bone and liver, s/p chemo, on
   steroid taper after spine radiation ), treated at home for MSSA
   bacteremia, bacteruria
 admitted w/  right shoulder pain/clavicualr fx,  weakness,
   tachycardia and fevers
 transferred ICU for hypotension, altered MS/somnolence.
   24 Hour Events:
   palliative care c/s
   tee
 unable to advance scope
 treating empirically for SBE (MSSA
   bacteremia)
   increasing difficulty with oxygenation- ->  worsening infiltrates-->
   changed to ACV--> increased peep
   now with gross bloody secretions from et sx this am
   History obtained from HO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2161-5-5**] 01:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-5-7**] 01:31 AM
   Bactrim (SMX/TMP) - [**2161-5-7**] 06:25 AM
   Vancomycin - [**2161-5-7**] 09:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2161-5-6**] 11:30 PM
   Fentanyl - [**2161-5-6**] 11:30 PM
   Heparin Sodium (Prophylaxis) - [**2161-5-7**] 07:12 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-7**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.8
C (100
   HR: 104 (103 - 140) bpm
   BP: 92/56(69) {83/51(63) - 151/80(102)} mmHg
   RR: 20 (16 - 33) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75 kg (admission): 67 kg
   Height: 60 Inch
   CVP: 6 (5 - 14)mmHg
   Total In:
                                                                  4,115 mL
                                                                  1,394 mL
   PO:
   TF:
                                                                    361 mL
                                                                    275 mL
   IVF:
                                                                  3,450 mL
                                                                  1,019 mL
   Blood products:
   Total out:
                                                                  4,695 mL
                                                                  2,310 mL
   Urine:
                                                                  4,045 mL
                                                                  2,310 mL
   NG:
   Stool:
                                                                    650 mL
   Drains:
   Balance:
                                                                   -580 mL
                                                                   -916 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 350 (350 - 476) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 23 cmH2O
   SpO2: 93%
   ABG: 7.43/49/62/28/6 (ACV, peep 10, 50% 400/12 )
   Ve: 12.5 L/min
   PaO2 / FiO2: 103
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), no murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Diminished: b/b, Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, hypoactive,
   Distended, Obese, hypoactive
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to:verbal,
   Movement:purposeful, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   142 K/uL
   111 mg/dL
   0.2 mg/dL
   28 mEq/L
   3.2 mEq/L
   5 mg/dL
   93 mEq/L
   130 mEq/L
   31.7 %
   3.9 K/uL
        [image002.jpg]
                             [**2161-5-5**]  08:29 AM
                             [**2161-5-5**]  03:54 PM
                             [**2161-5-5**]  04:56 PM
                             [**2161-5-5**]  07:55 PM
                             [**2161-5-6**]  04:36 AM
                             [**2161-5-6**]  09:09 AM
                             [**2161-5-6**]  11:25 AM
                             [**2161-5-7**]  03:27 AM
                             [**2161-5-7**]  03:59 AM
                             [**2161-5-7**]  04:13 AM
   WBC
   3.7
   3.9
   Hct
   36.7
   31.7
   Plt
   170
   142
   Cr
   0.3
   0.2
   0.2
   TCO2
   27
   28
   25
   22
   26
   34
   34
   Glucose
   73
   80
   111
   Other labs: PT / PTT / INR:14.0/55.9/1.2, ALT / AST:62/55, Alk Phos / T
   Bili:268/0.8, Lactic Acid:0.9 mmol/L, Albumin:2.0 g/dL, LDH:272 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:3.0 mg/dL
   Imaging: cxr -- worsening b/l opacities, et ok, r ij
   Microbiology: c diff neg
   [**5-10**] bl mssa
   since [**5-2**]--neg to date
   Assessment and Plan
   61 yo F w/ breast ca metastatic to bone and liver, s/p chemo, on
   steroid taper after spine radiation ), treated at home for MSSA
   bacteremia, bacteruria
 admitted w/  right shoulder pain/clavicualr fx, weakness, tachycardia
   and fevers
 transferred to ICU for hypotension, altered MS/somnolence.
   Initial presentation to ICU  likely [**1-17**] sepsis (known mssa bacteremia/
   bacteruria)+ narcotic effect further contributing to hypotension and
   AMS. Subsequently dx
d with PJP pna from ET sx DFA and started on
   Bactrim + prior dose of steroids.  Despite empiric broadened HAP/VAP
   coverage now X 48 hrs + bactrim continues to mount fevers.  Has
   developed increasing b/l infiltrates, worsening pa/fi ratio with
   increasing o2/peep requirements and new bloody secretions from ET
   sx
concerning for progressive ards, possible alveolar hemorrhage, PCP
   [**Name Initial (PRE) **] , ? resistant bacterial inf vs ? fungal infection
   Remains w/  hemodynamic stability, never requiring pressor support.
   Active issues include:
   1.)  Fevers
now low grade, though despite 48 hrs with bactrim, HAP/VAP
   empiric coverage
   # Has known mssa bacteremia
> subseq bl cx ngtd
   No ev of epidural abscess/ spinal osteo
   rx
ing empirically for SBE given no other clear source of bacteremia
   #  PJP
bactrim X 14 day course (day 2), poor lit support for high dose
   steroids in non-HIV pts with PCP have continued decadron (equiv of 40
   pred)
   # progressive pulm infiltrates
bronch with pan cx
s, fungal cx
   sending GM and B d-glucan
   ID c/s
   Add anti-fungal coverage if change (caspo)
   2.)  Resp failure
worsening hypoxemia and b/l infiltrates
   # ARDS by pa/fi ratio though PIPS/plateaus ok->? Related to VAP,
   resistant bug, fungal inf, vs PCP
   # PJP pna
   #  w/ bloody secretions
   ? alveolar hem
   ? fungal infection given temps despite broad antibx coverage
   ? cardiogenic edema / leaky capillaries from ards
   -- continue empiric HAP/VAP with zosyn, vanco
   -- bronch  (eval for alveolar hem), obtain cx
s fungus and bacteria
   -- send GM and B D-glucan
   - - Repeat cta
   -- gentle diuresis with lasix after ct
   -- lung protective volumes on vent 6 cc /kg, increase peep and fio2 to
   maintain pao2 > 60, pressures (pips, plt ok)
   -- continue current steroids
   3.) diarrhea
> resolved, holding bowel reg,  c diff neg to date, r/o  X
   3
   4.) anemia
t and cross, repeat h/h
   5.) pain
   # clavicular fx
   # chronic pain, bone mets
   Cont fent patches + gtt
   transition to methadone
   palliative consult appreciated
   consider XRT for palliation of bone mets/path fx
   6.)  onc
   no longer neutropenic
   pain control as above
   goals of care discussion with onc and family
   7.) Somnolence/ AMS/delirium
likely [**1-17**] narc effect/infection on
   transfer
 resolved
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2161-5-7**] 08:00 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2161-5-3**] 05:00 AM
   Multi Lumen - [**2161-5-3**] 08:35 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill
   Bronchoscopy was attempted during rounds.  There was evidence of large
   clot adherent to ET in distal trachea and concern for foreign body (?
   Metal or tooth) though possibly clotted blood, with difficulty
   advancing the scope. IP was called for bronch and further assess. This
   area appeared c/w clot and no foreign body was visualized.  There was
   evidence of trauma to tracheal walls likely the cause of bleeding.  No
   evidence of active distal bleed to suggest alveolar hem.  BAL and cx
   sent.
   I met with patient
s husband and updated him to current status and
   bronch results.  He understands that we are treating for PCP and
   empirically for HAP/VAP as well as presumed MSSA SBE.  We discussed her
   worsening respiratory condition c/w ards, increasing o2 requirements on
   the vent, and ongoing low grade fevers concerning for resistant inf vs
   fungal inf.  At present her hemodynamics remain stable with no pressor
   requirements and her MS has improved.  Her resp status however remains
   very tenuous.  I began to address goals of care and encouraged him to
   think and speak with pts oncologist who will be back tomorrow.  We will
   keep family updated as to any changes.  At this time it is difficult to
   predict but her resp status is critical and tenuous and could
   decompensate.  We will continue with current aggressive vent support
   and have called for an ID consult.

2161-05-08 06:32:00 Physician Resident Progress Note
Chief Complaint: ARDS
   24 Hour Events:
 BRONCHOSCOPY - At [**2161-5-7**] 11:00 AM
 BRONCHOSCOPY - At [**2161-5-7**] 12:13 PM
   - CTA Chest: Diffuse ground glass opacities c/winfectious process, ET
   tube low (2cm), and balloon hyperinflated.  no PE, progression of
   disease since [**5-23**] imaging.
   - Gram stain on bronch negative.  Showed only erosion but no DAH.  ID
   recommending d/c of vanc/zosyn.  Treat with IV solumedrol for now in
   dose equivalent to prednisone 60mg daily.
   - Hyponatremia : Concern for SIADH.  Free water restricting - not
   taking PO's so will have to d/w pharmacy regarding administration of
   medications.  PM Na up to 133 from 130
   - ABG stable to improved during 24 hour period.
   - Autodiuresing.
   - fungal studies sent.
   - Repositioned ET tube overnight -> AM X-ray ET tube looks in
   reasonable positioning.
   - Gave solumedrol 20mg IV q8 starting overnight - for equivalent of 60
   PO prednisone
   - d/c
d vanc/zosy given negative cultures x48 hours and negative BAL
   restarted nafcillin.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2161-5-7**] 06:00 PM
   Vancomycin - [**2161-5-7**] 08:00 PM
   Bactrim (SMX/TMP) - [**2161-5-8**] 12:30 AM
   Nafcillin - [**2161-5-8**] 04:15 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 98.6 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-5-7**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-8**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 106 (90 - 125) bpm
   BP: 82/51(62) {80/50(60) - 151/80(103)} mmHg
   RR: 21 (16 - 28) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75 kg (admission): 67 kg
   Height: 60 Inch
    CVP: 12 (4 - 15)mmHg
   Total In:
                                                                  3,185 mL
                                                                  1,131 mL
   PO:
   TF:
                                                                    675 mL
                                                                    253 mL
   IVF:
                                                                  2,155 mL
                                                                    878 mL
   Blood products:
   Total out:
                                                                  4,320 mL
                                                                    835 mL
   Urine:
                                                                  4,320 mL
                                                                    835 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,135 mL
                                                                    296 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 18 cmH2O
   Plateau: 27 cmH2O
   SpO2: 91%
   ABG: 7.43/51/82.[**Numeric Identifier 96**]/30/7
   Ve: 8.7 L/min
   PaO2 / FiO2: 138
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: coarse mechanical breath sounds anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   158 K/uL
   10.6 g/dL
   127 mg/dL
   0.2 mg/dL
   30 mEq/L
   3.7 mEq/L
   5 mg/dL
   95 mEq/L
   133 mEq/L
   30.7 %
   3.9 K/uL
        [image002.jpg]
                             [**2161-5-6**]  04:36 AM
                             [**2161-5-6**]  09:09 AM
                             [**2161-5-6**]  11:25 AM
                             [**2161-5-7**]  03:27 AM
                             [**2161-5-7**]  03:59 AM
                             [**2161-5-7**]  04:13 AM
                             [**2161-5-7**]  11:21 AM
                             [**2161-5-7**]  04:14 PM
                             [**2161-5-7**]  10:04 PM
                             [**2161-5-7**]  10:18 PM
   WBC
   3.7
   3.9
   Hct
   36.7
   31.7
   30.2
   30.7
   Plt
   170
   142
   158
   Cr
   0.2
   0.2
   0.2
   TCO2
   22
   26
   34
   34
   33
   35
   Glucose
   80
   111
   127
   Other labs: PT / PTT / INR:14.0/55.9/1.2, ALT / AST:62/55, Alk Phos / T
   Bili:268/0.8, Lactic Acid:1.9 mmol/L, Albumin:2.0 g/dL, LDH:272 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Imaging: CTA:
   CONCLUSION:
   1. Diffuse patchy opacities as well as scattered ground-glass opacities
   suggestive of infective change in both lungs. There may be an element
   of
   superimposed pulmonary edema.
   2. The cuff of the ET tube is slightly over-inflated and the tip of the
   ET
   tube is 2 cm from the carina.
   3. Interval progression of the metastatic disease as suggested by
   bilateral
   rib fractures, fracture of the right clavicle and lytic sclerotic
   lesions in
   the axial and appendicular skeleton.
   Microbiology: BAL: Gram stain negative, cultures pending
   .
   BCX: NGTD from [**5-2**]
   .
   No other new growth
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia
   .
   Repiratory failure: ARDS [**1-17**] PCP pneumonia that has worsened w/
   treatment.  No e/o PE, DAH, fungal infections at this time.  Increased
   steroids yesterday to equivalent of 60 PO prednisone.  Patient
   oxygenating better overnight and did not have to increase PEEP from
   12.  Has likely reached nadir of disease course by ABG
s and
   ventilation demands and hopefully will turn the corner soon.  d/c
   vanc/zosyn yesterday.  CTA showing diffuse ground glass opacities.
   - f/u Bronch results
   - follow ABG TID, repeat gas on new settings.
   - sputum culture
   - continue bactrim -> consider fungal coverage if spikes again.
   - continue solumedrol.
   - f/u Beta-glucan/galactomannan given low grade temp's on
   immunosuppressants, and consider CT chest given possibility of
   underlying fungal infection given low grade temp's.
   - Gentle diuresis today to improve respiratory status.
   - f/u fungal studies -> no e/o fungal infection at this time
   .
   Tachycardia: Sinus.  [**1-17**] agitation and inadequate pain control.
   Improved with suctioning. Negative CTA for PE.
   .
   Volume:  Previously on pressors In the setting of MSSA bacteremia and
   narcotics.  CVPs at goal and not on pressors and has been hypertensive
   of late.
   -Would consider gentle diuresis today to improve respiratory status.
   Goal net out 0.5-1L.
 follow I/O.  Patient is autodiuresing.  Follow
   MAP with goal >60.
   .
   MSSA bacteremia: TTE negative for vegetations, limited study.  MRI
   prelim negative for spinal osteomyelitis, or epidural abscess.  Plan to
   treat empirically with course of nafcillin for endocarditis.  Clarify
   with ID length of course.
   -surveillance cultures
   -f/u micro
   -Final read MRI
   .
   Altered mental status: Per report patient received multiple doses of
   dilaudid on the floor, in the setting of a fentanyl patch.  Had a
   robust response to narcan c/w narcotic OD.  MRI negative for any new
   brain mets.
   - Careful with narcotics
   - Currently quite lucid.
   - fentanyl as ordered f/u palliative care rec
s regarding starting
   methadone.
   .
   Pain: Palliative care agrees with titrating fentanyl gtt on basis of
   PRN fentanyl requirements.  Will consider methadone.
   -Fentanyl patch with prn fentanyl
   -Gabapentin
   -appreciate palliative care rec's.
   .
   Breast CA: Progressive and metastatic.
   -Defer to onc team, will have goals of care discussion today with
   patient and husband
 has shown some response to therapy on basis of
   tumor markers.
   .
   Clavicular fracture: Ortho rec's - sling, pain control
   -sling, pain control
   .
   Nutrition: Tolerating tube feeds - close eye on residuals to avoid
   aspiration of gastric contents.
   .
   GI: No diarrhea now, C. Diff negative x1.  Likely [**1-17**] to lactulose.
   - Restart bowel meds today.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2161-5-8**] 12:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2161-5-3**] 05:00 AM
   Multi Lumen - [**2161-5-3**] 08:35 AM
   Prophylaxis:
   DVT: hep SQ
   Stress ulcer: H2 blocker
   VAP:  Chlorhexedine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-05-08 09:43:00 Physician Attending Progress Note
Chief Complaint: hypot, somnolence, ams
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2161-5-7**] 11:00 AM
 BRONCHOSCOPY - At [**2161-5-7**] 12:13 PM--small erosion in trachea,
   clot, no active alveolar bleeding, cx's sent gram stain neg
   cta--, interval dis progression c/t [**2159**]
             diffuse gg opacities, neg pe
   hyponatremic
   abgs -- improving oxygenation
   et pulled back 2 cm
   id c/s -- steroids increased --> pred increased to 60 --> solumedrol 20
   Q 8
   nvanco zosyn d/c'd and naf resatrted given otherwise neg cx data to
   date
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2161-5-7**] 06:00 PM
   Vancomycin - [**2161-5-7**] 08:00 PM
   Nafcillin - [**2161-5-8**] 08:00 AM
   Bactrim (SMX/TMP) - [**2161-5-8**] 08:30 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-5-8**] 06:00 AM
   Other medications:
   per [**Month (only) **] (refused)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-8**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.4
C (97.5
   HR: 99 (90 - 120) bpm
   BP: 91/56(69) {80/50(60) - 134/80(103)} mmHg
   RR: 22 (16 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 67 kg
   Height: 60 Inch
   CVP: 10 (4 - 15)mmHg
   Total In:
                                                                  3,185 mL
                                                                  2,080 mL
   PO:
   TF:
                                                                    675 mL
                                                                    371 mL
   IVF:
                                                                  2,155 mL
                                                                  1,484 mL
   Blood products:
   Total out:
                                                                  4,320 mL
                                                                    985 mL
   Urine:
                                                                  4,320 mL
                                                                    985 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,135 mL
                                                                  1,095 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 22 cmH2O
   Plateau: 24 cmH2O
   SpO2: 92%
   ABG: 7.44/48/70/31/6 <-- 7.43/51/83
   Ve: 9 L/min
   PaO2 / FiO2: 117
   Physical Examination
   General Appearance: No acute distress, awake comfortable
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: b/b, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, No(t) Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   9.7 g/dL
   147 K/uL
   138 mg/dL
   0.2 mg/dL
   31 mEq/L
   5.0 mEq/L
   6 mg/dL
   94 mEq/L
   130 mEq/L
   29.4 %
   3.6 K/uL
        [image002.jpg]
                             [**2161-5-6**]  11:25 AM
                             [**2161-5-7**]  03:27 AM
                             [**2161-5-7**]  03:59 AM
                             [**2161-5-7**]  04:13 AM
                             [**2161-5-7**]  11:21 AM
                             [**2161-5-7**]  04:14 PM
                             [**2161-5-7**]  10:04 PM
                             [**2161-5-7**]  10:18 PM
                             [**2161-5-8**]  06:14 AM
                             [**2161-5-8**]  06:30 AM
   WBC
   3.9
   3.6
   Hct
   31.7
   30.2
   30.7
   29.4
   Plt
   142
   158
   147
   Cr
   0.2
   0.2
   0.2
   TCO2
   26
   34
   34
   33
   35
   34
   Glucose
   111
   127
   138
   Other labs: PT / PTT / INR:12.3/47.9/1.0, ALT / AST:62/55, Alk Phos / T
   Bili:268/0.8, Lactic Acid:1.9 mmol/L, Albumin:2.0 g/dL, LDH:272 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.6 mg/dL
   Imaging: cxr-- et diff to eval--appears ok, r ij low, improved aeration
   of L lung, improved lung volumes,rotated
   ct chest--reviewed
   Microbiology: bal--gram st neg,
   cx's pending
   Assessment and Plan
   61 yo F w/ breast ca metastatic to bone and liver, s/p chemo, on
   steroid taper after spine radiation ), treated at home for MSSA
   bacteremia, bacteruria
   admitted w/  right shoulder pain/clavicualr fx, weakness, tachycardia
   and fevers
   transferred to ICU for hypotension, altered MS/somnolence.
   Initial presentation to ICU  likely [**1-17**] sepsis (known mssa bacteremia/
   bacteruria)+ narcotic effect further contributing to hypotension and
   AMS. Subsequently dx
d with PJP pna from ET sx DFA and started on
   Bactrim + prior dose of steroids.  With ARDS by pa/fi ratio most likely
   in setting of progresion of PJP, no new evidence to sugegst additonal
   HAP/VAP or new [**Location (un) **] infection such as fungau.  Steroids broasdened and
   oxygenation slightly improved
   Despite empiric broadened HAP/VAP coverage now X 48 hrs + bactrim
   continues to mount fevers.  Has developed increasing b/l infiltrates,
   worsening pa/fi ratio with increasing o2/peep requirements and new
   bloody secretions from ET sx
concerning for progressive ards, possible
   alveolar hemorrhage, PCP [**Name Initial (PRE) **] , ? resistant bacterial inf vs ?
   fungal infection
   Remains w/  hemodynamic stability, never requiring pressor support.
   Active issues include:
   1.)  Fevers
imporving--
   # Has known mssa bacteremia
> subseq bl cx ngtd
   No ev of epidural abscess/ spinal osteo
   rx
ing empirically for SBE given no other clear source of bacteremia
   #  PJP
bactrim X 14 day course (day 2), haafter eval for other [**Location (un) **]
   infections by bronch, have increased steroids dose for inflam response,
   also liekly with combination of [**Last Name (un) **] reconst with return of post chemo
   counts
   # progressive pulm infiltrates
bronch with pan cx
s, fungal cx
   sending GM and B d-glucan
   Apprec id input
   Bronch cx
s pending
   Have d/c
d empir broad coverage and resumed naf
   2.)  Resp failure, hypoexemia
   # ARDS by pa/fi ratio though PIPS/plateaus ok->? Related to VAP,
   resistant bug, fungal inf, vs PCP
   # PJP pna
   #  w/ bloody secretions
   ? alveolar hem
no ev on bronch and feel this is related to PJP
   ? fungal infection given temps despite broad antibx coverage
   leaky capillaries from ards
   -- GM and B D-glucan sent
   -- gentle diuresis with lasix after ct
   -- lung protective volumes on vent 6 cc /kg, increase peep and fio2 to
   maintain pao2 > 60, pressures (pips, plt ok)
   Steroids and antibx as above
   3.) diarrhea
> resolved, holding bowel reg,  c diff neg to date, ruling
   out by 3
   4.) anemia
t and cross, repeat h/h stable
   5.) pain
   # clavicular fx
   # chronic pain, bone mets
   Cont fent patches + gtt
   transition to methadone
   palliative consult appreciated
   6.)  onc
   no longer neutropenic
   pain control as above
   goals of care discussion with onc and family, at this time lung issue
   main concern, seems to be responing to chemo per tumor markers
   7.) hyponat
likely lung process, meds, follow, limit free h2o
   8.) hypotnsion
never required pressors, follow maps, cvp . 10 hold on
   gentle diurses per maps > 60
   7.) Somnolence/ AMS/delirium
likely [**1-17**] narc effect/infection on
   transfe-- resolved
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2161-5-8**] 12:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2161-5-3**] 05:00 AM
ieave for now, will need picc for
   sbe course
   Multi Lumen - [**2161-5-3**] 08:35 AM
   Prophylaxis:
   DVT:   sq hep
   Stress ulcer:  H2b
   VAP:  mouthcare
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45
   Critically ill

2161-05-09 07:11:00 Physician Resident Progress Note
Chief Complaint: PCP [**Name Initial (PRE) 2894**]
   24 Hour Events:
   -ABGs looked good, unchanged oxygenation/pH, and permissive hypercapnia
   in the setting of ARDS
   -No new ID or palliative care recs.
   -Dr. [**Last Name (STitle) 1827**] came by and met with the family.  No new goals of care
   changes, as her prognosis looks better for now, and tumor markers are
   actually decreasing.
   -ET tube pulled back, will re-assess on morning CXR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2161-5-7**] 06:00 PM
   Vancomycin - [**2161-5-7**] 08:00 PM
   Bactrim (SMX/TMP) - [**2161-5-9**] 12:35 AM
   Nafcillin - [**2161-5-9**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2161-5-8**] 08:00 PM
   Fentanyl - [**2161-5-9**] 02:30 AM
   Heparin Sodium (Prophylaxis) - [**2161-5-9**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-9**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 118 (90 - 118) bpm
   BP: 158/88(115) {78/44(57) - 158/88(115)} mmHg
   RR: 27 (16 - 32) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70 kg (admission): 67 kg
   Height: 60 Inch
    CVP: 11 (7 - 13)mmHg
   Total In:
                                                                  4,411 mL
                                                                  1,502 mL
   PO:
   TF:
                                                                    973 mL
                                                                    282 mL
   IVF:
                                                                  3,018 mL
                                                                    905 mL
   Blood products:
   Total out:
                                                                  2,750 mL
                                                                    570 mL
   Urine:
                                                                  2,750 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,661 mL
                                                                    932 mL
   [**Year (4 digits) **] support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   SpO2: 93%
   ABG: 7.44/50/72/29/7
   Ve: 9.8 L/min
   PaO2 / FiO2: 120
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   [**Year (4 digits) **] / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   164 K/uL
   10.2 g/dL
   96 mg/dL
   0.0 mg/dL
   29 mEq/L
   4.1 mEq/L
   6 mg/dL
   88 mEq/L
   125 mEq/L
   29.5 %
   4.8 K/uL
        [image002.jpg]
                             [**2161-5-7**]  11:21 AM
                             [**2161-5-7**]  04:14 PM
                             [**2161-5-7**]  10:04 PM
                             [**2161-5-7**]  10:18 PM
                             [**2161-5-8**]  06:14 AM
                             [**2161-5-8**]  06:30 AM
                             [**2161-5-8**]  03:31 PM
                             [**2161-5-8**]  03:40 PM
                             [**2161-5-9**]  04:47 AM
                             [**2161-5-9**]  04:55 AM
   WBC
   3.6
   4.8
   Hct
   30.2
   30.7
   29.4
   29.5
   Plt
   158
   147
   164
   Cr
   0.2
   0.2
   0.2
   0.0
   TCO2
   33
   35
   34
   36
   35
   Glucose
   127
   138
   129
   96
   Other labs: PT / PTT / INR:12.3/47.4/1.0, ALT / AST:62/55, Alk Phos / T
   Bili:268/0.8, Lactic Acid:1.9 mmol/L, Albumin:2.0 g/dL, LDH:272 IU/L,
   Ca++:1.8 mg/dL, Mg++:1.2 mg/dL, PO4:2.1 mg/dL
   Imaging: cxr
   Microbiology: ngtd
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia
   .
   Repiratory failure: ARDS [**1-17**] PCP pneumonia that has worsened w/
   treatment.  No e/o PE, DAH, fungal infections at this time.  Increased
   steroids yesterday to equivalent of 60 PO prednisone.  Patient
   oxygenating better overnight and did not have to increase PEEP from
   12.  Has likely reached nadir of disease course by ABG
s and
   ventilation demands and hopefully will turn the corner soon.  d/c
   vanc/zosyn.  CTA showing diffuse ground glass opacities.
   - f/u Bronch results ngtd
   - follow ABG TID, repeat gas on new settings.
   - sputum culture
   - continue bactrim -> consider fungal coverage if spikes again.
   - continue solumedrol.
   - f/u Beta-glucan/galactomannan given low grade temp's on
   immunosuppressants, and consider CT chest given possibility of
   underlying fungal infection given low grade temp's.
   - Gentle diuresis today to improve [**Month/Day (2) 2893**] status.
   - f/u fungal studies -> no e/o fungal infection at this time
   .
   Tachycardia: Sinus.  [**1-17**] agitation and inadequate pain control.
   Improved with suctioning. Negative CTA for PE.
   .
   Volume:  Previously on pressors In the setting of MSSA bacteremia and
   narcotics.  CVPs at goal and not on pressors and has been hypertensive
   of late.
   -Would consider gentle diuresis today to improve [**Month/Day (2) 2893**] status.
   Goal net out 0.5-1L.
 follow I/O.  Patient +2 liters yesterday.
   Follow MAP with goal >60.
   .
   MSSA bacteremia: TTE negative for vegetations, limited study.  MRI
   negative for spinal osteomyelitis, or epidural abscess.  Plan to treat
   empirically with course of nafcillin for endocarditis.  Clarify with ID
   length of course.
   -surveillance cultures
   -f/u micro
   .
   Altered mental status: Per report patient received multiple doses of
   dilaudid on the floor, in the setting of a fentanyl patch.  Had a
   robust response to narcan c/w narcotic OD.  MRI negative for any new
   brain mets.
   - Careful with narcotics
   - Currently quite lucid.
   - fentanyl as ordered f/u palliative care rec
s regarding starting
   methadone.
   .
   Pain: Palliative care agrees with titrating fentanyl gtt on basis of
   PRN fentanyl requirements.  Will consider methadone.
   -Fentanyl patch with prn fentanyl blous and increasing fentanyl gtt
   -Gabapentin
   -appreciate palliative care rec's.
   .
   Breast CA: Progressive and metastatic.
   -Defer to onc team, will have goals of care discussion today with
   patient and husband
 has shown some response to therapy on basis of
   tumor markers.
   .
   Clavicular fracture: Ortho rec's - sling, pain control
   -sling, pain control
   .
   Nutrition: Tolerating tube feeds - close eye on residuals to avoid
   aspiration of gastric contents.
   .
   GI: No diarrhea now, C. Diff negative x1, no need to rule out.  Likely
   [**1-17**] to lactulose.
   - Restart bowel meds today.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2161-5-9**] 12:35 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2161-5-3**] 05:00 AM
   Multi Lumen - [**2161-5-3**] 08:35 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-05-09 07:42:00 Physician Attending Progress Note
Chief Complaint: hypotension, somnolence, ams
   HPI:
   61 yo F w/ breast ca metastatic to bone and liver, s/p chemo, on
   steroid taper after spine radiation,  treated at home for MSSA
   bacteremia/bacteruria admitted w/  right shoulder pain/clavicular fx,
   weakness, tachycardia and fevers transferred to ICU for hypotension,
   altered MS/somnolence
   24 Hour Events:
   Stable on current vent. On ARDSnet, permissive hypercapnia.
   Family meeting with onc: no new goals of care. Tumor markers
   decreasing, continue current care.
   ETT pulled back to good position.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2161-5-9**] 12:35 AM
   Nafcillin - [**2161-5-9**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2161-5-8**] 08:00 PM
   Fentanyl - [**2161-5-9**] 02:30 AM
   Heparin Sodium (Prophylaxis) - [**2161-5-9**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-9**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 118 (90 - 118) bpm
   BP: 158/88(115) {78/44(57) - 158/88(115)} mmHg
   RR: 27 (16 - 32) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70 kg (admission): 67 kg
   Height: 60 Inch
   CVP: 11 (7 - 13)mmHg
   Total In:
                                                                  4,411 mL
                                                                  1,552 mL
   PO:
   TF:
                                                                    973 mL
                                                                    307 mL
   IVF:
                                                                  3,018 mL
                                                                    930 mL
   Blood products:
   Total out:
                                                                  2,750 mL
                                                                    570 mL
   Urine:
                                                                  2,750 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,661 mL
                                                                    982 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   SpO2: 93%
   ABG: 7.44/50/72/29/7
   Ve: 9.8 L/min
   PaO2 / FiO2: 120
   Physical Examination
   Gen: Agitated when in pain, otherwise calm
   RS: ronchorous, decreased at bases
   CVS: murmer at apex, S1S2
   PA: soft, NT, BS+
   Extr: trace edema
   Neuro: awake, alert
   Labs / Radiology
   10.2 g/dL
   164 K/uL
   96 mg/dL
   0.0 mg/dL
   29 mEq/L
   4.1 mEq/L
   6 mg/dL
   88 mEq/L
   125 mEq/L
   29.5 %
   4.8 K/uL
        [image002.jpg]
                             [**2161-5-7**]  11:21 AM
                             [**2161-5-7**]  04:14 PM
                             [**2161-5-7**]  10:04 PM
                             [**2161-5-7**]  10:18 PM
                             [**2161-5-8**]  06:14 AM
                             [**2161-5-8**]  06:30 AM
                             [**2161-5-8**]  03:31 PM
                             [**2161-5-8**]  03:40 PM
                             [**2161-5-9**]  04:47 AM
                             [**2161-5-9**]  04:55 AM
   WBC
   3.6
   4.8
   Hct
   30.2
   30.7
   29.4
   29.5
   Plt
   158
   147
   164
   Cr
   0.2
   0.2
   0.2
   0.0
   TCO2
   33
   35
   34
   36
   35
   Glucose
   127
   138
   129
   96
   Other labs: PT / PTT / INR:12.3/47.4/1.0, ALT / AST:62/55, Alk Phos / T
   Bili:268/0.8, Lactic Acid:1.9 mmol/L, Albumin:2.0 g/dL, LDH:272 IU/L,
   Ca++:1.8 mg/dL, Mg++:1.2 mg/dL, PO4:2.1 mg/dL
   CXR: stable diffuse infiltrates, mildly wet
   Assessment and Plan
   61 yo F w/ breast ca metastatic to bone and liver, s/p chemo, on
   steroid taper after spine radiation, treated at home for MSSA
   bacteremia/bacteruria
   # admitted w/  right shoulder pain/clavicular fx, weakness, tachycardia
   and fevers
   # transferred to ICU for hypotension, altered MS/somnolence
   # now with resp failure, ards, PJP pna
   Initial presentation to ICU likely [**1-17**] sepsis (known mssa bacteremia/
   bacteruria)+ narcotic effect further contributing to hypotension and
   AMS. Subsequently dx
d with PJP pna and started on Bactrim + prior dose
   of steroids.  Now w/ ARDS by pa/fi ratio most likely in setting of
   progresion of PJP, no new evidence to suggest additonal HAP/VAP or new
   [**Location (un) **] infection such as fungus.  Steroids broadened  after bronch/cxs
   sent with slight improvement in oxygenation.
   Remains w/ hemodynamic stability, never requiring pressor support with
   improved mental status
   Active issues include:
   1.)  Fevers
> now afebrile.
   # Has known mssa bacteremia
> subseq bl cx ngtd
   No epidural abscess/ spinal osteo
   rx
ing empirically for SBE given no other clear source and difficutly
   performing tee (nafcillin)
   #  PJP
bactrim X 14 day course, have increased steroids dose for inflam
   response
   # progressive pulm infiltrates
bronch with pan cx
s, fungal cx
   sending GM and B d-glucan
   Apprec id input
   Bronch cx
s ngtd, except for known PCP
   Have [**Name Initial (PRE) **]/c
d empir broad coverage and resumed naf
   2.)  Resp failure, hypoxemia, diffuse b/l infiltrates
   # ARDS by pa/fi ratio
   # PJP pna
   # bloody secretions
 bronch without ev of alveolar hem, tracheal
   erosion likely from sx trauma, improved
   -- suspect [**1-17**] pjp, inflam response, also , also likely with component
   of immune reconst after return of blood cts post-chemo
   -- GM and B D-glucan sent
   -- bronch cx
s ngtd except PCP
   [**Name9 (PRE) **] lung protective volumes on vent 6 cc /kg, peep and fio2 to maintain
   pao2 > 60, pressures (pips, plt ok)
   -- Diurese today to help improve O2 and peep requirement.
   -- Steroids and antibx as above
   3.) diarrhea
> resolved, holding bowel reg,  c diff neg
   4.) anemia
t and cross, repeat h/h stable
   5.) pain
   # clavicular fx
   # chronic pain, from bone mets
   Cont fent patches + gtt
   transition to methadone  prior to extubation
   palliative consult appreciated
   6.)  onc
   no longer neutropenic
   pain control as above
   goals of care discussion with onc and family, seems to be responding to
   chemo per tumor markers
   lung issue remains primary ICU related problem
   7.) hyponat
likely lung process, meds, follow, d/c free h2o, lasix
   today, [**Hospital1 **] electrolytes
   8) Somnolence/ AMS/delirium
likely [**1-17**] narc effect/infection on
   transfer
 resolved
   ICU Care
   Nutrition: tube feeds at goal
   ProBalance (Full) - [**2161-5-9**] 12:35 AM 40 mL/hour
   Glycemic Control:  good
   Lines:
   Arterial Line - [**2161-5-3**] 05:00 AM
   Multi Lumen - [**2161-5-3**] 08:35 AM
   Picc line next week
   Prophylaxis:
   DVT: sq hep + boots
   Stress ulcer: h2 blocker
   VAP: ppx
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:
   Addendum:
   Pt became very dysnchronpus on vent at 3PM. ABG essentially stable but
   make a mode change to PCV 30/14 and with this in addition to suction
   and sedation, she was able to oxygenate more effectively.
   Of note, she then spiked temperature at 3:15 to 101.3- will pan
   culture, check CXR and broaden ABX to add back Vanco and
   Meropenem.

2161-05-10 06:45:00 Physician Resident Progress Note
Chief Complaint: ARDS, PCP [**Name Initial (PRE) **]
   24 Hour Events:
 BLOOD CULTURED - At [**2161-5-9**] 04:30 PM
   from a-line
 URINE CULTURE - At [**2161-5-9**] 04:30 PM
 BLOOD CULTURED - At [**2161-5-9**] 05:00 PM
   left hand perihperal culture
 SPUTUM CULTURE - At [**2161-5-9**] 06:08 PM
 FEVER - 101.3
F - [**2161-5-9**] 04:00 PM
   Switched her to Pressure Control and upped her PEEP to 14 with
   excellent improvement in oxygenation. Sats are now 99-100%, repeat gas
   shows PaO2 89! Also continued with good suctioning and diuresis
   although she was not net negative due to all the fluids she receives.
   ID also agreed with adding VAP coverage with vanco and ceftaz, stopped
   nafcillin. This was done due to recurrent fevers. Added ipratropium
   standing MDI's. Stopped free water boluses in tube feeds [**1-17**]
   hyponatremia which is likely [**1-17**] pneumonia and bactrim.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2161-5-7**] 06:00 PM
   Nafcillin - [**2161-5-9**] 07:51 AM
   Vancomycin - [**2161-5-9**] 06:08 PM
   Bactrim (SMX/TMP) - [**2161-5-10**] 12:00 AM
   Ceftazidime - [**2161-5-10**] 04:05 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2161-5-9**] 03:00 PM
   Fentanyl - [**2161-5-9**] 03:22 PM
   Furosemide (Lasix) - [**2161-5-9**] 03:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-10**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38
C (100.4
   HR: 105 (89 - 131) bpm
   BP: 88/53(66) {84/52(65) - 165/95(120)} mmHg
   RR: 19 (14 - 32) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70 kg (admission): 67 kg
   Height: 60 Inch
    CVP: 13 (3 - 17)mmHg
   Total In:
                                                                  4,974 mL
                                                                  1,036 mL
   PO:
   TF:
                                                                  1,661 mL
                                                                    363 mL
   IVF:
                                                                  2,698 mL
                                                                    582 mL
   Blood products:
   Total out:
                                                                  4,365 mL
                                                                    433 mL
   Urine:
                                                                  4,365 mL
                                                                    433 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    609 mL
                                                                    603 mL
   Respiratory support
   Ventilator mode: PCV+
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 31 cmH2O
   Plateau: 8 cmH2O
   SpO2: 96%
   ABG: 7.47/45/99.[**Numeric Identifier 128**]/33/7
   Ve: 9.2 L/min
   PaO2 / FiO2: 165
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : mechanical breath sounds),
   no wheezing
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   151 K/uL
   9.1 g/dL
   101 mg/dL
   0.2 mg/dL
   33 mEq/L
   4.5 mEq/L
   8 mg/dL
   90 mEq/L
   128 mEq/L
   26.8 %
   4.3 K/uL
        [image002.jpg]
                             [**2161-5-9**]  04:47 AM
                             [**2161-5-9**]  04:55 AM
                             [**2161-5-9**]  07:02 AM
                             [**2161-5-9**]  02:41 PM
                             [**2161-5-9**]  02:52 PM
                             [**2161-5-9**]  06:02 PM
                             [**2161-5-9**]  10:33 PM
                             [**2161-5-10**]  02:48 AM
                             [**2161-5-10**]  03:06 AM
                             [**2161-5-10**]  04:23 AM
   WBC
   4.8
   4.3
   Hct
   29.5
   26.8
   Plt
   164
   151
   Cr
   0.0
   0.2
   0.3
   0.2
   TCO2
   35
   37
   38
   37
   38
   34
   Glucose
   96
   99
   113
   101
   Other labs: PT / PTT / INR:12.9/40.2/1.1, ALT / AST:24/53, Alk Phos / T
   Bili:214/0.3, Lactic Acid:1.9 mmol/L, Albumin:2.0 g/dL, LDH:488 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR: ET tube, NG tube, right supraclavicular catheter remain
   in place. Allowing the rotation of the patient, diffuse airspace
   opacities, worse in the right side, are unchanged.
   Microbiology: Repeat Cultures done on [**5-9**] including sputum, blood,
   for fevers.
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia
   .
   Repiratory failure: ARDS [**1-17**] PCP pneumonia that has worsened w/
   treatment.  No e/o PE, DAH, fungal infections at this time.  Increased
   steroids yesterday to equivalent of 60 PO prednisone.  Patient
   oxygenating now with PCV with PEEP of 14.  Attempt to decrease PEEP
   during day.  CTA showing diffuse ground glass opacities.  Restarted VAP
   coverage yesterday given fevers o/n.
   - f/u Bronch results ngtd, call for fungal studies.
   - follow ABG TID, repeat gas on new settings.
   - sputum culture
   - continue bactrim -> consider fungal coverage if spikes again.
   - continue solumedrol.
   - f/u Beta-glucan/galactomannan given low grade temp's on
   immunosuppressants, and consider CT chest given possibility of
   underlying fungal infection given low grade temp's.
   - Gentle diuresis today to improve respiratory status.
   - f/u fungal studies -> no e/o fungal infection at this time.
   .
   Tachycardia: Sinus.  [**1-17**] agitation and inadequate pain control.
   Improved with suctioning. Negative CTA for PE.
   .
   Volume:  Previously on pressors In the setting of MSSA bacteremia and
   narcotics.  CVPs at goal and not on pressors and has been hypertensive
   of late.
   -Would consider gentle diuresis today to improve respiratory status.
   Goal net out 0.5-1L.
 follow I/O.  Patient +2 liters yesterday.
   Follow MAP with goal >60. 20mg IV lasix and reassess in afternoon.
   .
   MSSA bacteremia: TTE negative for vegetations, limited study.  MRI
   negative for spinal osteomyelitis, or epidural abscess.  Plan to treat
   empirically with course of nafcillin for endocarditis.  Clarify with ID
   length of course.
   -surveillance cultures
   -f/u micro
   .
   Altered mental status: Per report patient received multiple doses of
   dilaudid on the floor, in the setting of a fentanyl patch.  Had a
   robust response to narcan c/w narcotic OD.  MRI negative for any new
   brain mets.
   - Careful with narcotics
   - Currently quite lucid.
   - fentanyl as ordered f/u palliative care rec
s regarding starting
   methadone.
   .
   Pain: Palliative care agrees with titrating fentanyl gtt on basis of
   PRN fentanyl requirements.  Will consider methadone.
   -Fentanyl patch with prn fentanyl blous and increasing fentanyl gtt
   -Gabapentin
   -appreciate palliative care rec's.
   .
   Breast CA: Progressive and metastatic.
   -Defer to onc team, will have goals of care discussion today with
   patient and husband
 has shown some response to therapy on basis of
   tumor markers and will likely get palliative chemotherapy.
   .
   Clavicular fracture: Ortho rec's - sling, pain control
   -sling, pain control
   .
   Nutrition: Tolerating tube feeds - close eye on residuals to avoid
   aspiration of gastric contents.
   .
   GI: No diarrhea now, C. Diff negative x1, no need to rule out.  Likely
   [**1-17**] to lactulose.
   - hold Bowel med
s and complete r/o.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2161-5-10**] 03:20 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2161-5-3**] 05:00 AM
   Multi Lumen - [**2161-5-3**] 08:35 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: Ranitidine
   VAP:  chlorhexadine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-05-10 07:42:00 Physician Attending Progress Note
Chief Complaint: hypotension, somnolence, ams
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo F w/ breast ca metastatic to bone and liver, s/p chemo, on
   steroid taper after spine radiation,  treated at home for MSSA
   bacteremia/bacteruria admitted w/  right shoulder pain/clavicular fx,
   weakness, tachycardia and fevers transferred to ICU for hypotension,
   altered MS/somnolence
   24 Hour Events:
 BLOOD CULTURED - At [**2161-5-9**] 04:30 PM
   from a-line
 URINE CULTURE - At [**2161-5-9**] 04:30 PM
 BLOOD CULTURED - At [**2161-5-9**] 05:00 PM
   left hand perihperal culture
 SPUTUM CULTURE - At [**2161-5-9**] 06:08 PM
 FEVER - 101.3
F - [**2161-5-9**] 04:00 PM
   Pt became very dysnchronpus on vent at 3PM. ABG essentially stable but
   make a mode change to PCV 30/14 and with this in addition to suction
   and sedation, she was able to oxygenate more effectively.
   Of note, she then spiked temperature at 3:15 to 101.3- will pan
   culture, check CXR and broaden ABX to add back Vanco and
   Meropenem.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2161-5-7**] 06:00 PM
   Nafcillin - [**2161-5-9**] 07:51 AM
   Vancomycin - [**2161-5-9**] 06:08 PM
   Bactrim (SMX/TMP) - [**2161-5-10**] 12:00 AM
   Ceftazidime - [**2161-5-10**] 04:05 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2161-5-9**] 03:00 PM
   Fentanyl - [**2161-5-9**] 03:22 PM
   Furosemide (Lasix) - [**2161-5-9**] 03:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-10**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38
C (100.4
   HR: 105 (89 - 131) bpm
   BP: 88/53(66) {84/52(65) - 165/95(120)} mmHg
   RR: 19 (14 - 32) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70 kg (admission): 67 kg
   Height: 60 Inch
   CVP: 13 (3 - 17)mmHg
   Total In:
                                                                  4,974 mL
                                                                  1,188 mL
   PO:
   TF:
                                                                  1,661 mL
                                                                    422 mL
   IVF:
                                                                  2,698 mL
                                                                    675 mL
   Blood products:
   Total out:
                                                                  4,365 mL
                                                                    433 mL
   Urine:
                                                                  4,365 mL
                                                                    433 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    609 mL
                                                                    755 mL
   Respiratory support
   Ventilator mode: PCV+
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 31 cmH2O
   Plateau: 8 cmH2O
   SpO2: 96%
   ABG: 7.47/45/99.[**Numeric Identifier 128**]/33/7
   Ve: 9.2 L/min
   PaO2 / FiO2: 165
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   151 K/uL
   101 mg/dL
   0.2 mg/dL
   33 mEq/L
   4.5 mEq/L
   8 mg/dL
   90 mEq/L
   128 mEq/L
   26.8 %
   4.3 K/uL
        [image002.jpg]
                             [**2161-5-9**]  04:47 AM
                             [**2161-5-9**]  04:55 AM
                             [**2161-5-9**]  07:02 AM
                             [**2161-5-9**]  02:41 PM
                             [**2161-5-9**]  02:52 PM
                             [**2161-5-9**]  06:02 PM
                             [**2161-5-9**]  10:33 PM
                             [**2161-5-10**]  02:48 AM
                             [**2161-5-10**]  03:06 AM
                             [**2161-5-10**]  04:23 AM
   WBC
   4.8
   4.3
   Hct
   29.5
   26.8
   Plt
   164
   151
   Cr
   0.0
   0.2
   0.3
   0.2
   TCO2
   35
   37
   38
   37
   38
   34
   Glucose
   96
   99
   113
   101
   Other labs: PT / PTT / INR:12.9/40.2/1.1, ALT / AST:24/53, Alk Phos / T
   Bili:214/0.3, Lactic Acid:1.9 mmol/L, Albumin:2.0 g/dL, LDH:488 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Physical Examination
   Gen: Agitated when in pain, otherwise calm
   RS: ronchorous, decreased at bases
   CVS: murmer at apex, S1S2
   PA: soft, NT, BS+
   Extr: trace edema
   Neuro: awake, alert
   Assessment and Plan
   61 yo F w/ breast ca metastatic to bone and liver, s/p chemo, on
   steroid taper after spine radiation, treated at home for MSSA
   bacteremia/bacteruria
   # admitted w/  right shoulder pain/clavicular fx, weakness, tachycardia
   and fevers
   # transferred to ICU for hypotension, altered MS/somnolence
   # now with resp failure, ards, PJP pna
   Initial presentation to ICU likely [**1-17**] sepsis (known mssa bacteremia/
   bacteruria)+ narcotic effect further contributing to hypotension and
   AMS. Subsequently dx
d with PJP pna and started on Bactrim + prior dose
   of steroids.  Now w/ ARDS by pa/fi ratio most likely in setting of
   progresion of PJP, no new evidence to suggest additonal HAP/VAP or new
   [**Location (un) **] infection such as fungus.  Steroids broadened  after bronch/cxs
   sent with slight improvement in oxygenation.
   Remains w/ hemodynamic stability, never requiring pressor support with
   improved mental status
   Active issues include:
   1.)  Fevers
> now afebrile.
   # Has known mssa bacteremia
> subseq bl cx ngtd
   No epidural abscess/ spinal osteo
   rx
ing empirically for SBE given no other clear source and difficutly
   performing tee (nafcillin)
   #  PJP
bactrim X 14 day course, have increased steroids dose for inflam
   response
   # progressive pulm infiltrates
bronch with pan cx
s, fungal cx
   sending GM and B d-glucan
   Apprec id input
   Bronch cx
s ngtd, except for known PCP
   Have [**Name Initial (PRE) **]/c
d empir broad coverage and resumed naf
   2.)  Resp failure, hypoxemia, diffuse b/l infiltrates
   # ARDS by pa/fi ratio
   # PJP pna
   # bloody secretions
 bronch without ev of alveolar hem, tracheal
   erosion likely from sx trauma, improved
   -- suspect [**1-17**] pjp, inflam response, also , also likely with component
   of immune reconst after return of blood cts post-chemo
   -- GM and B D-glucan sent
   -- bronch cx
s ngtd except PCP
   [**Name9 (PRE) **] lung protective volumes on vent 6 cc /kg, peep and fio2 to maintain
   pao2 > 60, pressures (pips, plt ok)
   -- Diurese today to help improve O2 and peep requirement.
   -- Steroids and antibx as above
   3.) diarrhea
> resolved, holding bowel reg,  c diff neg
   4.) anemia
t and cross, repeat h/h stable
   5.) pain
   # clavicular fx
   # chronic pain, from bone mets
   Cont fent patches + gtt
   transition to methadone  prior to extubation
   palliative consult appreciated
   6.)  onc
   no longer neutropenic
   pain control as above
   goals of care discussion with onc and family, seems to be responding to
   chemo per tumor markers
   lung issue remains primary ICU related problem
   7.) hyponat
likely lung process, meds, follow, d/c free h2o, lasix
   today, [**Hospital1 **] electrolytes
   8) Somnolence/ AMS/delirium
likely [**1-17**] narc effect/infection on
   transfer
 resolved
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2161-5-10**] 03:20 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2161-5-3**] 05:00 AM
   Multi Lumen - [**2161-5-3**] 08:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2161-05-10 19:51:00 Physician Resident Progress Note
ICU Procedure Note:
   Arterial Line
   Patient was preppred and draped in a sterile fasion.  1cc lidocaine
   injected as local anesthetic.  L-radial artery was then cannulated and
   wire was inserted.  Over this wire arterial line for BP measurement was
   then inserted.  Line was then sutured in place.  There were no
   complications.  EBL 0-5cc.

2161-05-11 06:56:00 Physician Resident Progress Note
Chief Complaint: ARDS
   24 Hour Events:
 ARTERIAL LINE - STOP [**2161-5-10**] 03:25 PM
 ARTERIAL LINE - START [**2161-5-10**] 03:27 PM
   - Replaced A-line
   - BAL returned positive for PCP -> d/w ID who felt not unusual early in
   course of therapy for PCP.
   [**Name Initial (NameIs) **] Repeat Hct stable, PM Sodium stable
   - d/w Pharmacy regarding Vancomycin -> can only bee in 200cc fluid but
   will put in NS instead of D5.
   - Given 40 IV lasix in AM and about net even by noon, but unable to
   diurese further as BP not tolerating
   - Decreased PEEP to 12
   - CXR: no change, ET tube against tracheal wall as noted on Bronch
   - Respiratory: ET tube was cut earlier this admit, and so ET suctioning
   was being advanced beyond tip of ET tube and likely contributing to
   irritation.
   - Plan for PICC today
   - Having visual hallucinations overnight started [**5-9**].
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2161-5-9**] 07:51 AM
   Vancomycin - [**2161-5-10**] 07:51 PM
   Bactrim (SMX/TMP) - [**2161-5-11**] 12:14 AM
   Ceftazidime - [**2161-5-11**] 04:08 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-11**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.7
   HR: 100 (89 - 121) bpm
   BP: 115/62(80) {78/50(61) - 128/72(91)} mmHg
   RR: 8 (0 - 29) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70 kg (admission): 67 kg
   Height: 60 Inch
    CVP: 7 (3 - 16)mmHg
   Total In:
                                                                  4,051 mL
                                                                    805 mL
   PO:
   TF:
                                                                  1,324 mL
                                                                    353 mL
   IVF:
                                                                  2,457 mL
                                                                    451 mL
   Blood products:
   Total out:
                                                                  3,893 mL
                                                                    750 mL
   Urine:
                                                                  3,893 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    158 mL
                                                                     55 mL
   Respiratory support
   Ventilator mode: PCV+
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   SpO2: 94%
   ABG: 7.47/52/77/34/11
   Ve: 8.6 L/min
   PaO2 / FiO2: 128
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   124 K/uL
   7.9 g/dL
   108 mg/dL
   0.2 mg/dL
   34 mEq/L
   4.5 mEq/L
   10 mg/dL
   89 mEq/L
   128 mEq/L
   23.3 %
   3.2 K/uL
        [image002.jpg]
                             [**2161-5-9**]  02:52 PM
                             [**2161-5-9**]  06:02 PM
                             [**2161-5-9**]  10:33 PM
                             [**2161-5-10**]  02:48 AM
                             [**2161-5-10**]  03:06 AM
                             [**2161-5-10**]  04:23 AM
                             [**2161-5-10**]  03:10 PM
                             [**2161-5-10**]  03:22 PM
                             [**2161-5-11**]  02:39 AM
                             [**2161-5-11**]  03:38 AM
   WBC
   4.3
   3.2
   Hct
   26.8
   26.2
   23.3
   Plt
   151
   124
   Cr
   0.2
   0.3
   0.2
   TCO2
   37
   38
   37
   38
   34
   39
   39
   Glucose
   101
   112
   108
   Other labs: PT / PTT / INR:12.9/40.2/1.1, ALT / AST:24/53, Alk Phos / T
   Bili:214/0.3, Lactic Acid:1.9 mmol/L, Albumin:2.0 g/dL, LDH:488 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR: Portable AP chest radiograph was compared to [**2161-5-9**]. The ET tube tip is
   impinging tracheal wall at the level of 2.5 cm above the carina. The NG
   tube
   tip is in the stomach. The right central venous line tip terminates in
   distal
   SVC.
   Wide bone involvement by the metastatic spread is again demonstrated,
   unchanged as well as there is no significant change in diffuse
   bilateral
   patchy opacities mostly severe in the right upper lobe.
   Microbiology: BAL: + PCP
   [**Name Initial (PRE) 2863**]: Pending
   Galactomannan: Pending
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia
   .
   Repiratory failure: ARDS [**1-17**] PCP pneumonia that has worsened w/
   treatment.  No e/o PE, DAH, fungal infections at this time.  On IV
   steroids.  Patient oxygenating now with PCV with PEEP of 12 and has
   been improving clinically by ABG and vent settings, but CXR worse this
   morning.  Attempt to decrease PEEP during day today though may be
   difficult given CXR findings.  CTA showing diffuse ground glass
   opacities.  Restarted VAP coverage yesterday given fevers o/n.
   - Vanc/Ceftaz: Day 1 [**5-9**] -> continue for 48 hours and consider d/c if
   cultures negative.  Did decompensate with d/c of abx earlier and may be
   reasonable to continue for full course.
   - Bactrim: Day 1 [**5-4**], - continue solumedrol.
   - Bronch growing PCP otherwise [**Name9 (PRE) 2908**], [**Name Initial (PRE) **]/w ID who feel not surprising to
   grow PCP on BAL in first few days of therapy.
   - follow ABG [**Hospital1 **], repeat gas on new settings and wean PEEP as
   tolerated.  Goal Oxygenation > 90%, paO2 > 60
   - sputum culture
   - continue bactrim -> consider fungal coverage if spikes again but
   would defer broadening for further 24 hours and see is she becomes
   afebrile.
   - f/u fungal studies
   - Attempt diuresis as tolerated, but BP limiting ability to take fluid
   off, wean PEEP with hope of improving hypotension.
   .
   MSSA bacteremia: TTE negative for vegetations, limited study.  MRI
   negative for spinal osteomyelitis, or epidural abscess.  Plan to treat
   empirically with course of nafcillin for endocarditis.  Clarify with ID
   length of course.
   - On vanco now for VAP but will need nafcillin restarted once vanco
   completed.
   -surveillance cultures
   -f/u micro
   .
   Volume:  Mildly hypervolemic on exam, would like to diurese, but now
   with ? of active bleeding and hypotension.  Would not actively diurese
   this AM, give blood for Hct < 21.
   - type and cross
   - Transfuse for Hct < 21
   - monitor airway secretions for blood, guaiac + stools will need
   outpatient colonoscopy.
   .
   Tachycardia: Sinus.  Baseline. [**Month (only) 60**] be in part [**1-17**] agitation and
   inadequate pain control. Improved with suctioning. Negative CTA for PE.
   .
   Altered mental status: Resolved for several days.  Likely [**1-17**] to
   opiates given on floor.
   - Careful with narcotics
   - Currently quite lucid.
   - fentanyl as ordered f/u palliative care rec
s regarding starting
   methadone.
   .
   Visual Hallcuinations: Multiple potential causes, fever, infection, ICU
   delerium, steroids.  Continue to monitor.  Avoid benzos and other
   altering agents when possible
 patient requesting benzos for sleep.
   - If HA, localizing symptoms develop would consider further work-up.
   .
   Pain: Palliative care agrees with titrating fentanyl gtt on basis of
   PRN fentanyl requirements.  Will consider methadone.
   -Fentanyl patch with prn fentanyl blous and increasing fentanyl gtt.
   -Gabapentin.
   -appreciate palliative care rec's.
   .
   Breast CA: Progressive and metastatic.
   -Defer to onc team, will have goals of care discussion today with
   patient and husband
 has shown some response to therapy on basis of
   tumor markers and will likely get palliative chemotherapy.
   .
   Clavicular fracture: Ortho rec's - sling, pain control
   -sling, pain control
   .
   Nutrition: Tolerating tube feeds - close eye on residuals to avoid
   aspiration of gastric contents.
   .
   GI: No diarrhea now, C. Diff negative x1, no need to rule out.  Likely
   [**1-17**] to lactulose.
   - hold Bowel med
s and complete r/o of C. Diff infection -> very low
   suspicion.
   .
   Access: Plan for PICC today, but may not place given low grade temp
   this AM, may need new line - could monitor fever curve for 24 hours and
   see if improves.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2161-5-10**] 09:27 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2161-5-3**] 08:35 AM
   Arterial Line - [**2161-5-10**] 03:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-05-11 07:34:00 Physician Attending Progress Note
Chief Complaint: hypotension, somnolence, ams
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo F w/ breast ca metastatic to bone and liver, s/p chemo, on
   steroid taper after spine radiation,  treated at home for MSSA
   bacteremia/bacteruria admitted w/  right shoulder pain/clavicular fx,
   weakness, tachycardia and fevers transferred to ICU for hypotension,
   altered MS/somnolence  due to opiates. Found thereafter to have PCP
   pneumonia and ARDS.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2161-5-10**] 03:25 PM
 ARTERIAL LINE - START [**2161-5-10**] 03:27 PM
   Temp curves improved with broadened abx, nothing on cxs yet. A line
   changed. Getting picc today, so we can d/c IJ today. Diuresed to net
   even due to lowish BPs. PEEP decreased. Visual hallucinations improved
   with benzos.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2161-5-9**] 07:51 AM
   Vancomycin - [**2161-5-10**] 07:51 PM
   Bactrim (SMX/TMP) - [**2161-5-11**] 12:14 AM
   Ceftazidime - [**2161-5-11**] 04:08 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-11**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.7
   HR: 110 (89 - 121) bpm
   BP: 131/73(95) {78/50(61) - 131/73(95)} mmHg
   RR: 24 (0 - 29) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70 kg (admission): 67 kg
   Height: 60 Inch
   CVP: 5 (3 - 16)mmHg
   Total In:
                                                                  4,051 mL
                                                                    874 mL
   PO:
   TF:
                                                                  1,324 mL
                                                                    414 mL
   IVF:
                                                                  2,457 mL
                                                                    460 mL
   Blood products:
   Total out:
                                                                  3,893 mL
                                                                    750 mL
   Urine:
                                                                  3,893 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    158 mL
                                                                    124 mL
   Respiratory support
   Ventilator mode: PCV+
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   SpO2: 92%
   ABG: 7.47/52/77/34/11
   Ve: 8.6 L/min
   PaO2 / FiO2: 128
   Physical Examination
   Gen: Agitated when in pain, otherwise calm
   RS: ronchorous, decreased at bases
   CVS: murmur at apex, S1S2
   PA: soft, NT, BS+
   Extr: trace edema
   Neuro: awake, alert
   Labs / Radiology
   7.9 g/dL
   124 K/uL
   108 mg/dL
   0.2 mg/dL
   34 mEq/L
   4.5 mEq/L
   10 mg/dL
   89 mEq/L
   128 mEq/L
   24.7 %
   3.2 K/uL
        [image002.jpg]
                             [**2161-5-9**]  06:02 PM
                             [**2161-5-9**]  10:33 PM
                             [**2161-5-10**]  02:48 AM
                             [**2161-5-10**]  03:06 AM
                             [**2161-5-10**]  04:23 AM
                             [**2161-5-10**]  03:10 PM
                             [**2161-5-10**]  03:22 PM
                             [**2161-5-11**]  02:39 AM
                             [**2161-5-11**]  03:38 AM
                             [**2161-5-11**]  06:35 AM
   WBC
   4.3
   3.2
   Hct
   26.8
   26.2
   23.3
   24.7
   Plt
   151
   124
   Cr
   0.2
   0.3
   0.2
   TCO2
   38
   37
   38
   34
   39
   39
   Glucose
   101
   112
   108
   Other labs: PT / PTT / INR:12.9/40.2/1.1, ALT / AST:24/53, Alk Phos / T
   Bili:214/0.3, Lactic Acid:1.9 mmol/L, Albumin:2.0 g/dL, LDH:488 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Vanc tr: 13
   Assessment and Plan
   61 yo F w/ breast ca metastatic to bone and liver, s/p chemo, on
   steroid taper after spine radiation, treated at home for MSSA
   bacteremia/bacteruria.
   # admitted w/  right shoulder pain/clavicular fx, weakness, tachycardia
   and fevers
   # transferred to ICU for hypotension, altered MS/somnolence
   # now with resp failure, ARDS, PJP pna
   # new fevers on [**5-9**]
   Active issues include:
   # Fever.
   -          Improved, on Vanc, Ceftaz, Bactrim, all micro neg so far
   except for PCP
   [**Name Initial (PRE) **]          [**Name Initial (PRE) **] line changed [**5-10**], getting picc today, then D/c central
   line, abx increased to VAP coverage, new infiltrate in R lung.
   -          Glucan, galactomannan pend, on steroids
   -          Needs endocarditis dose/duration for mssa bacteremia.
   #  PJP:
   -          bactrim X 14 day course, have increased steroids dose for
   inflam response
   # ARDS, vent, respiratory failure
   -          PCV, wean FiO2 and peep as tolerated
 currently at peep 12,
   FiO2 0.6
   -          Trach discussion next week
   # Bleeding from ETT:
   -  Improved, ASA stopped
   -          Watch coags and platelets
   - Hct dropped today, follow
   # Visual hallucinations:
   - prn benzos at night
   # I/O:
   -          Keep neg to even, follow Na
   # Tachy:
   -          sinus, pain control, neg CTA
   # pain:
   - fentanyl patch and iv, lido patch, palliative care following
   # onc:
   - tumor marker levels improved
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2161-5-11**] 06:30 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2161-5-3**] 08:35 AM
 d/c after picc
   Arterial Line - [**2161-5-10**] 03:27 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:

2161-05-12 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2161-5-11**] 09:51 AM
 MULTI LUMEN - STOP [**2161-5-11**] 12:06 PM
   -Placed PICC line and pulled out CVL
   -B glucan elevated this morning to over 500 and galactomannan pending
   -PO2 cam back low at 60, we increased her FiO2 from 60-70%, and repeat
   ABG with pO2 of 80
   -Had several runs of VT with position changes, which were asymptomatic
   and hemodynamically insignificant.  Likely secondary to PICC
   Currently, she denies pain, She feels her breathing is ok on the vent
   and does not feel she is fighting the vent.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2161-5-9**] 07:51 AM
   Vancomycin - [**2161-5-11**] 08:03 PM
   [**Year (4 digits) **] (SMX/TMP) - [**2161-5-12**] 12:04 AM
   Ceftazidime - [**2161-5-12**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-12**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.7
   HR: 97 (91 - 131) bpm
   BP: 130/72(95) {90/57(69) - 156/87(111)} mmHg
   RR: 21 (9 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 67 kg
   Height: 60 Inch
    CVP: 8 (8 - 12)mmHg
   Total In:
                                                                  3,500 mL
                                                                    882 mL
   PO:
   TF:
                                                                  1,328 mL
                                                                    390 mL
   IVF:
                                                                  2,113 mL
                                                                    492 mL
   Blood products:
   Total out:
                                                                  2,365 mL
                                                                  1,100 mL
   Urine:
                                                                  2,365 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,135 mL
                                                                   -218 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   SpO2: 97%
   ABG: 7.43/53/98.[**Numeric Identifier 248**]/30/8
   Ve: 8.7 L/min
   PaO2 / FiO2: 140
   Physical Examination
   General: NAD, intubated
   HEENT: dry lips, EOMI, PERRL
   CV: RRR, no m/r/g appreciated
   Lungs: Course breath sounds bilaterally with the vent. No crackles.
   Abdomen: +BS, soft, NTND
   Peripheral Vascular: DP 1+ symmetric. Radial pulses 2+ symmetric
   Skin:  edematous throughout
   Neurologic: responds appropriately, mouthing words and nodding. Moving
   all extremities.
   Labs / Radiology
   120 K/uL
   7.2 g/dL
   130 mg/dL
   0.2 mg/dL
   30 mEq/L
   4.4 mEq/L
   10 mg/dL
   95 mEq/L
   134 mEq/L
   21.1 %
   3.1 K/uL
        [image002.jpg]
   HCT was 24.7 yesterday   Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
                             [**2161-5-10**]  03:10 PM
                             [**2161-5-10**]  03:22 PM
                             [**2161-5-11**]  02:39 AM
                             [**2161-5-11**]  03:38 AM
                             [**2161-5-11**]  06:35 AM
                             [**2161-5-11**]  02:50 PM
                             [**2161-5-11**]  03:00 PM
                             [**2161-5-11**]  08:24 PM
                             [**2161-5-12**]  04:14 AM
                             [**2161-5-12**]  04:46 AM
   WBC
   3.2
   3.1
   Hct
   26.2
   23.3
   24.7
   21.1
   Plt
   124
   120
   Cr
   0.3
   0.2
   0.2
   0.2
   TCO2
   39
   39
   37
   35
   36
   Glucose
   112
   108
   114
   130
   Other labs: PT / PTT / INR:12.7/47.6/1.1, [**2161-5-10**]: ALT / AST:24/53, Alk
   Phos / T Bili:214/0.3, Lactic Acid:1.9 mmol/L, Albumin:2.0 g/dL,
   LDH:488 IU/L
   CXR: my read, worsening infiltrates bilaterally especially on right.
   Assessment and Plan
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia
   .
   #Repiratory failure: ARDS [**1-17**] PCP pneumonia that has worsened w/
   treatment.  No evidence of PE, diffuse aveolar hemorrhage or fungal
   infections at this time.  On IV steroids.  Patient oxygenating now with
   PCV with PEEP of 12 and has been improving clinically by ABG and vent
   settings, but CXR slightly worse.  Could attempt to change vent
   settings to AC so that we can decrease PEEP if tolerated.  CTA showing
   diffuse ground glass opacities.  Now also on VAP coverage.
   -For presumed VAP: Vanc/Ceftaz: Day 1 [**5-9**] --consider d/c if cultures
   negative today
   -For PCP: [**Name Initial (NameIs) **]: Day 1 [**5-4**], - continue solumedrol.
   - Bronch growing PCP otherwise [**Name9 (PRE) 2908**], [**Name Initial (PRE) **]/w ID who feel not surprising to
   grow PCP on BAL in first few days of therapy. Now new sputum culture
   pending to check for PCP [**Name Initial (PRE) 2924**]. Could consider second line PCP
   treatment if not yet cleared on [**Name Initial (PRE) 1369**].
   - follow ABG [**Hospital1 **], consider change to AC to wean PEEP as tolerated.
   Goal Oxygenation > 90%, paO2 > 60
   - f/u fungal studies and consider broadening to cover fungus if fever
   curve rises
   - Attempt diuresis as tolerated, but BP limiting ability to take fluid
   off, wean PEEP with hope of improving hypotension.
   .
   #MSSA bacteremia: TTE negative for vegetations and had difficulty
   obtaining TEE given pt anatomy so we are treating empirically for
   endocarditis.  MRI negative for spinal osteomyelitis, or epidural
   abscess.  Clarify with ID length of course.
   - On vanco now for VAP but will need nafcillin restarted once vanco
   completed.
   -follow up surveillance cultures
   -f/u micro
   .
   #Volume:  hypervolemic on exam (third spacing fluids), would like to
   diurese, but limited by hypotension.
   # anemia: HCT trending downwards slowly. Today 21.1.
   -repeat HCT
   - type and cross
   - Transfuse for Hct < 21
   - monitor airway secretions for blood, guaiac + stools will need
   outpatient colonoscopy.
   .
   #Tachycardia: Sinus.  Baseline seems to be around 100. Stable. CTA
   negative for PE.
   .
   # Altered mental status: Resolved last week.  Likely [**1-17**] to opiates
   given on floor.
   - Careful with narcotics
   - Currently quite lucid.
   - fentanyl as ordered f/u palliative care rec
s regarding starting
   methadone.
   .
   # Visual Hallcuinations: Multiple potential causes, fever, infection,
   ICU delerium, steroids.  Continue to monitor.  Avoid benzos and other
   altering agents when possible
 patient requesting benzos for sleep;
   consider another [**Doctor Last Name **] such as seroquel or zyprexa
   .
   # Pain: Palliative care agrees with titrating fentanyl gtt on basis of
   PRN fentanyl requirements.  Will consider methadone when ready to
   transition off vent.
   -Fentanyl patch with prn fentanyl blous and increasing fentanyl gtt.
   -continue Gabapentin and lidocaine patch
   -appreciate palliative care rec's.
   .
   #Breast CA: Progressive and metastatic.
   -Defer to onc team
 has shown some response to therapy on basis of
   tumor markers and will likely get palliative chemotherapy.
   .
   # Clavicular fracture: Ortho rec sling, pain control with fentanyl
   patch and gtt and lidocaine patch to clavicular area
   .
   # Nutrition: Tolerating tube feeds - close eye on residuals to avoid
   aspiration of gastric contents.
   .
   # GI: No diarrhea now, C. Diff negative x1, no need to rule out.
   Likely [**1-17**] to lactulose.
   - hold Bowel med
s and complete r/o of C. Diff infection -> very low
   suspicion.
   .
   # Access: PICC line and a line
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2161-5-12**] 12:34 AM 55 mL/hour
   Glycemic Control:  insulin SS
   Lines:
   Arterial Line - [**2161-5-10**] 03:27 PM
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: ranitidine
   VAP:  clorhexidine rinses
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2161-05-13 15:42:00 Physician Resident Progress Note
Chief Complaint: PCP [**Name Initial (PRE) 2894**] / ARDS
   24 Hour Events:
   switched bactrim to pentamidine and ceftaz / vanc to nafcillin
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2161-5-12**] 08:40 AM
   Vancomycin - [**2161-5-12**] 07:19 PM
   Ceftazidime - [**2161-5-12**] 08:32 PM
   Nafcillin - [**2161-5-13**] 12:00 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2161-5-12**] 08:00 PM
   Fentanyl - [**2161-5-13**] 08:35 AM
   Midazolam (Versed) - [**2161-5-13**] 12:10 PM
   Heparin Sodium (Prophylaxis) - [**2161-5-13**] 02:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2161-5-13**] 03:41 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 97 (92 - 133) bpm
   BP: 93/57(69) {81/51(61) - 162/87(113)} mmHg
   RR: 18 (18 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  3,116 mL
                                                                  2,567 mL
   PO:
             TF:
                                                                  1,323 mL
                                                                    883 mL
   IVF:
                                                                  1,613 mL
                                                                  1,624 mL
   Blood products:
   Total out:
                                                                  2,560 mL
                                                                  1,220 mL
   Urine:
                                                                  2,560 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    556 mL
                                                                  1,347 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   SpO2: 96%
   ABG: 7.49/50/68/38/12
   Ve: 9.4 L/min
   PaO2 / FiO2: 97
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   133 K/uL
   6.8 g/dL
   126 mg/dL
   0.2 mg/dL
   38 mEq/L
   4.0 mEq/L
   12 mg/dL
   94 mEq/L
   132 mEq/L
   20.3 %
   3.3 K/uL
        [image002.jpg]
                             [**2161-5-11**]  03:00 PM
                             [**2161-5-11**]  08:24 PM
                             [**2161-5-12**]  04:14 AM
                             [**2161-5-12**]  04:46 AM
                             [**2161-5-12**]  12:17 PM
                             [**2161-5-12**]  03:06 PM
                             [**2161-5-12**]  05:55 PM
                             [**2161-5-12**]  07:04 PM
                             [**2161-5-13**]  04:34 AM
                             [**2161-5-13**]  04:57 AM
   WBC
   3.1
   3.3
   Hct
   21.1
   23.7
   20.3
   Plt
   120
   133
   Cr
   0.2
   0.2
   0.2
   TCO2
   37
   35
   36
   36
   36
   36
   39
   Glucose
   130
   110
   126
   Other labs: PT / PTT / INR:12.7/47.6/1.1, ALT / AST:18/55, Alk Phos / T
   Bili:218/0.4, Amylase / Lipase:30/12, Lactic Acid:1.9 mmol/L,
   Albumin:2.0 g/dL, LDH:511 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
   .
   #Repiratory failure: PCP pneumonia complicated by ARDS.
   -continue on IV steroids
   -currently on pentamidine for PCP per ID the patient is a bactrim
   failure
   -patient tolerating current vent settings with PCV and PEEP of 12
   -d/c'd vanc/ceftaz for VAP per ID on [**5-12**], now on nafcillin for staph
   auerus bacteremia.
   - Goal Oxygenation > 90%, paO2 > 60
    - f/u fungal studies and consider broadening to cover fungus if fever
   curve rises
   - Attempt diuresis as tolerated, but BP limiting ability to take fluid
   off, wean PEEP with hope of improving hypotension.
   .
   #MSSA bacteremia: TTE negative, unable to perform TEE.
   -given high grade staph bactermemia will treat for empiric 6 week
   course
   -MRI negative for spinal osteomyelitis or epidural abscess
   -culture if spikes, follow up cultures that are currently pending
   .
   #Volume:  patient is third spacing fluids but given SBPs in the 80s to
   90s on occassion.
   -goal I/O even if possible
   # anemia: HCT fluctuating 20-23, if continues to decrease will
   transfuse.
   -repeat HCT this afternoon
   - type and cross
   .
   #Tachycardia: Sinus.  Baseline seems to be around 100. Stable. CTA
   negative for PE.
   .
   # Visual Hallcuinations: not currently an active issue, if returns
   avoid benzos for sleep.
   .
   # Pain: Palliative care agrees with titrating fentanyl gtt on basis of
   PRN fentanyl requirements.  Will consider methadone when ready to
   transition off vent.
    -continue Gabapentin and lidocaine patch
    .
   #Breast CA: Progressive and metastatic.
   -Defer to onc team
 has shown some response to therapy on basis of
   tumor markers and will likely get palliative chemotherapy.
   .
   # Clavicular fracture: Ortho rec sling, pain control with fentanyl
   patch and gtt and lidocaine patch to clavicular area
   .
   # Nutrition: Tolerating tube feeds
   .
   # GI: No diarrhea now, C. Diff negative x1..
    .
   # Access: PICC line and a line
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2161-5-13**] 12:24 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2161-5-10**] 03:27 PM
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2161-05-14 07:15:00 Physician Resident Progress Note
Chief Complaint: PCP [**Name Initial (PRE) 2894**] / ARDS
   24 Hour Events:
 EKG - At [**2161-5-13**] 11:15 AM
 BLOOD CULTURED - At [**2161-5-13**] 01:25 PM
 URINE CULTURE - At [**2161-5-13**] 01:25 PM
 FEVER - 101.7
F - [**2161-5-14**] 06:00 AM
   the patient was given 1 liter NS and 1 uPRBC for hypotension
   Cultured for T of 101.7 (urine / blood)
   Changed nafcillin to vancomycin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2161-5-12**] 08:40 AM
   Ceftazidime - [**2161-5-12**] 08:32 PM
   Nafcillin - [**2161-5-13**] 04:01 PM
   Vancomycin - [**2161-5-13**] 06:45 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 125 mcg/hour
   Other ICU medications:
   Fentanyl - [**2161-5-13**] 08:35 AM
   Midazolam (Versed) - [**2161-5-13**] 12:10 PM
   Heparin Sodium (Prophylaxis) - [**2161-5-13**] 02:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2161-5-14**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.7
C (101.7
   HR: 124 (96 - 129) bpm
   BP: 135/72(91) {81/51(61) - 162/87(113)} mmHg
   RR: 24 (18 - 36) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  4,590 mL
                                                                    591 mL
   PO:
             TF:
                                                                  1,359 mL
                                                                    346 mL
   IVF:
                                                                  2,736 mL
                                                                    155 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,230 mL
                                                                    370 mL
   Urine:
                                                                  2,230 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,360 mL
                                                                    221 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 31 cmH2O
   Plateau: 30 cmH2O
   SpO2: 93%
   ABG: 7.51/43/61/29/9
   Ve: 15.7 L/min
   PaO2 / FiO2: 87
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   130 K/uL
   8.7 g/dL
   132 mg/dL
   0.2 mg/dL
   29 mEq/L
   3.4 mEq/L
   11 mg/dL
   99 mEq/L
   136 mEq/L
   25.9 %
   5.1 K/uL
        [image002.jpg]
                             [**2161-5-12**]  03:06 PM
                             [**2161-5-12**]  05:55 PM
                             [**2161-5-12**]  07:04 PM
                             [**2161-5-13**]  04:34 AM
                             [**2161-5-13**]  04:57 AM
                             [**2161-5-13**]  02:35 PM
                             [**2161-5-13**]  04:58 PM
                             [**2161-5-14**]  03:19 AM
                             [**2161-5-14**]  03:35 AM
                             [**2161-5-14**]  04:36 AM
   WBC
   3.3
   5.1
   Hct
   23.7
   20.3
   20.1
   25.9
   Plt
   133
   130
   Cr
   0.2
   0.2
   0.2
   0.2
   TCO2
   36
   36
   39
   34
   36
   36
   Glucose
   110
   126
   81
   132
   Other labs: PT / PTT / INR:13.1/41.6/1.1, ALT / AST:24/75, Alk Phos / T
   Bili:301/0.5, Amylase / Lipase:30/12, Lactic Acid:1.9 mmol/L,
   Albumin:2.0 g/dL, LDH:511 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
   .
   #Repiratory failure: PCP pneumonia complicated by ARDS.
   -continue on IV steroids
   -currently on pentamidine for PCP per ID the patient is a bactrim
   failure
   -patient tolerating current vent settings with PCV and PEEP of 12
   -d/c'd vanc/ceftaz for VAP per ID on [**5-12**], now on nafcillin for staph
   auerus bacteremia.
   - Goal Oxygenation > 90%, paO2 > 60
    - f/u fungal studies and consider broadening to cover fungus if fever
   curve rises
   - Attempt diuresis as tolerated, but BP limiting ability to take fluid
   off, wean PEEP with hope of improving hypotension.
   .
   #MSSA bacteremia: TTE negative, unable to perform TEE.
   -given high grade staph bactermemia will treat for empiric 6 week
   course
   -MRI negative for spinal osteomyelitis or epidural abscess
   -culture if spikes, follow up cultures that are currently pending
   .
   #Volume:  patient is third spacing fluids but given SBPs in the 80s to
   90s on occassion.
   -goal I/O even if possible
   # anemia: HCT fluctuating 20-23, if continues to decrease will
   transfuse.
   -repeat HCT this afternoon
   - type and cross
   .
   #Tachycardia: Sinus.  Baseline seems to be around 100. Stable. CTA
   negative for PE.
   .
   # Visual Hallcuinations: not currently an active issue, if returns
   avoid benzos for sleep.
   .
   # Pain: Palliative care agrees with titrating fentanyl gtt on basis of
   PRN fentanyl requirements.  Will consider methadone when ready to
   transition off vent.
    -continue Gabapentin and lidocaine patch
    .
   #Breast CA: Progressive and metastatic.
   -Defer to onc team
 has shown some response to therapy on basis of
   tumor markers and will likely get palliative chemotherapy.
   .
   # Clavicular fracture: Ortho rec sling, pain control with fentanyl
   patch and gtt and lidocaine patch to clavicular area
   .
   # Nutrition: Tolerating tube feeds
   .
   # GI: No diarrhea now, C. Diff negative x1..
    .
   # Access: PICC line and a line
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2161-5-10**] 03:27 PM
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-05-15 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2161-5-14**] 08:30 AM
 URINE CULTURE - At [**2161-5-14**] 08:30 AM
 FEVER - 101.2
F - [**2161-5-14**] 01:00 PM
   ID recs: add caspofungin to pentamidine, case report data of
   effectiveness
   Palliative care recs: d/c versed and start standing ativan 1mg po q6hrs
   and prn ativan q4hrs
   steroids decreased to solumedrol 10mg IV tid from 20mg IV tid
   I/O 2 liters positive, 10mg IV lasix x 3 given throughout day to
   attempt to even I/O balance
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2161-5-12**] 08:40 AM
   Ceftazidime - [**2161-5-12**] 08:32 PM
   Nafcillin - [**2161-5-13**] 04:01 PM
   Caspofungin - [**2161-5-14**] 06:00 PM
   Vancomycin - [**2161-5-14**] 07:19 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2161-5-14**] 07:20 PM
   Furosemide (Lasix) - [**2161-5-15**] 12:35 AM
   Heparin Sodium (Prophylaxis) - [**2161-5-15**] 05:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: she slept well, reduction in anxiety from day prior
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2161-5-15**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.3
C (99.2
   HR: 100 (87 - 136) bpm
   BP: 122/67(86) {76/46(57) - 182/101(130)} mmHg
   RR: 27 (24 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  3,515 mL
                                                                    466 mL
   PO:
             TF:
                                                                  1,182 mL
                                                                    359 mL
   IVF:
                                                                  2,024 mL
                                                                    107 mL
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                    585 mL
   Urine:
                                                                  1,870 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,645 mL
                                                                   -119 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%
   PIP: 31 cmH2O
   SpO2: 98%
   ABG: 7.45/49/91.[**Numeric Identifier 96**]/29/8
   Ve: 11.9 L/min
   PaO2 / FiO2: 131
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly bilaterally symmetric, No(t) Crackles : , No(t) Wheezes : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   122 K/uL
   7.4 g/dL
   104 mg/dL
   0.1 mg/dL
   29 mEq/L
   3.4 mEq/L
   14 mg/dL
   101 mEq/L
   135 mEq/L
   22.1 %
   4.0 K/uL
        [image002.jpg]
                             [**2161-5-12**]  07:04 PM
                             [**2161-5-13**]  04:34 AM
                             [**2161-5-13**]  04:57 AM
                             [**2161-5-13**]  02:35 PM
                             [**2161-5-13**]  04:58 PM
                             [**2161-5-14**]  03:19 AM
                             [**2161-5-14**]  03:35 AM
                             [**2161-5-14**]  04:36 AM
                             [**2161-5-15**]  04:50 AM
                             [**2161-5-15**]  05:19 AM
   WBC
   3.3
   4.4
   4.0
   Hct
   20.3
   20.1
   25.9
   22.1
   Plt
   133
   130
   122
   Cr
   0.2
   0.2
   0.2
   0.1
   TCO2
   36
   39
   34
   36
   36
   35
   Glucose
   126
   81
   132
   104
   Other labs: PT / PTT / INR:13.2/33.5/1.1, Ca++:6.9 mg/dL, Mg++:1.9
   mg/dL, PO4:2.0 mg/dL
   Culture: Urinalysis [**5-13**] and [**5-14**] negative.  UCx [**5-13**] no growth.  UCx
   [**5-14**]: NGTD.  Blood Cx [**5-13**] and [**5-14**] NGTD.
   Stool C diff toxin [**5-14**]: negative.
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
   #Repiratory failure: PCP pneumonia complicated by ARDS.
   -patient currently on pentamidine and caspofungin for PCP- [**Name10 (NameIs) 2945**] on
   this regimen with slight decrease in FiO2 requirement, now 60% down
   from 70%, may be a slight variation of normal
   -continue IV solumedrol
   -continues to be febrile, culture if spikes and send sputum, blood,
   urine, and C diff, no + culture data recently.
   #MSSA bacteremia: TTE negative, unable to perform TEE.
   -plan for extended course for staph auerus bacteremia.  Continue vanc,
   patient continues to spike but hemodynamically stable and no new
   culture data, hold off on adding additional abx for now.
   #Volume:  patient is third spacing fluids- as above diurese slowly,
   goal I/O even for today.
   # anemia: s/p tx 1uPRBC on [**5-13**], hct drop 3 points over 24hrs, repeat
   HCT this afternoon, tx for hct < 21.
   # Pain: on fentanyl patch and IV fentanyl.  Pain well controlled.
   # Anxiety / depression: patient on standing ativan 1mg po q6hrs and prn
   in addition, anxiety seems to be better controlled on this regimen.
   Continue to uptitrate if necessary but seems stable now and sleeping
   has improved through the night.
   -start celexa 10mg po daily as well
   #Breast CA: Progressive and metastatic.
   -Defer to onc team
 has shown some response to therapy on basis of
   tumor markers and will likely get palliative chemotherapy pending
   improvement in PCP.
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
   # Nutrition: Tolerating tube feeds
   # GI: No diarrhea now, C. Diff negative x1, resend x 2.
   # Access: PICC line and a line
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2161-5-15**] 12:00 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2161-5-10**] 03:27 PM
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2161-05-16 07:12:00 Physician Resident Progress Note
Chief Complaint: PCP [**Name Initial (PRE) 1035**]
   24 Hour Events:
 FEVER - 101.6
F - [**2161-5-15**] 08:00 AM
 cultured
   -          C. Diff negative
    Vent settings stable overnight
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2161-5-13**] 04:01 PM
   Caspofungin - [**2161-5-15**] 06:26 PM
   Vancomycin - [**2161-5-15**] 08:00 PM
   Infusions:
   Fentanyl - 37 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2161-5-15**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2161-5-15**] 10:00 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-16**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.4
C (99.4
   HR: 85 (84 - 120) bpm
   BP: 98/52(68) {78/42(55) - 133/73(96)} mmHg
   RR: 19 (19 - 36) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  3,172 mL
                                                                    311 mL
   PO:
             TF:
                                                                    843 mL
                                                                    214 mL
   IVF:
                                                                  1,963 mL
                                                                     97 mL
   Blood products:
   Total out:
                                                                  1,434 mL
                                                                    206 mL
   Urine:
                                                                  1,434 mL
                                                                    206 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,738 mL
                                                                    105 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 29 cmH2O
   Plateau: 27 cmH2O
   SpO2: 96%
   ABG: 7.46/45/72/28/6
   Ve: 10.5 L/min
   PaO2 / FiO2: 120
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   103 K/uL
   7.0 g/dL
   113 mg/dL
   0.0 mg/dL
   28 mEq/L
   3.4 mEq/L
   14 mg/dL
   102 mEq/L
   135 mEq/L
   21.6 %
   3.9 K/uL
        [image002.jpg]
                             [**2161-5-14**]  03:35 AM
                             [**2161-5-14**]  04:36 AM
                             [**2161-5-15**]  04:50 AM
                             [**2161-5-15**]  05:19 AM
                             [**2161-5-15**]  08:54 AM
                             [**2161-5-15**]  01:59 PM
                             [**2161-5-15**]  02:22 PM
                             [**2161-5-15**]  04:09 PM
                             [**2161-5-16**]  04:25 AM
                             [**2161-5-16**]  04:42 AM
   WBC
   4.0
   3.9
   Hct
   22.1
   22.9
   21.6
   Plt
   122
   103
   Cr
   0.1
   0.2
   0.0
   TCO2
   36
   36
   35
   31
   34
   33
   33
   Glucose
   104
   113
   Other labs: PT / PTT / INR:13.2/33.5/1.1, ALT / AST:26/65, Alk Phos / T
   Bili:208/0.4, Amylase / Lipase:29/16, Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.0 g/dL, LDH:593 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
    .
   #Repiratory failure: PCP pneumonia complicated by ARDS.
   -patient currently on pentamidine and caspofungin for PCP- [**Name10 (NameIs) 2945**] on
   this regimen with slight decrease in FiO2 requirement
   -continue IV solumedrol
   -continues to be febrile, culture if spikes and send sputum, blood,
   urine, and C diff, no + culture data recently.
 sputum cx sent this
   am.
    .
   #MSSA bacteremia: TTE negative, unable to perform TEE.
   -plan for extended course for staph auerus bacteremia.  Continue vanc,
   patient continues to spike but hemodynamically stable and no new
   culture data, hold off on adding additional abx for now.
    .
   #Volume:  patient is third spacing fluids- as above diurese slowly,
   goal I/O even for today
 will start lasix gtt
    .
   # Anemia: s/p tx 1uPRBC on [**5-13**], hct drop 3 points over 24hrs, repeat
   HCT this afternoon, tx for hct < 21 or low BP
   .
   # Pain: on fentanyl patch and IV fentanyl.  Pain well controlled.
   .
   # Anxiety / depression: patient on standing ativan 1mg po q6hrs and prn
   in addition, anxiety seems to be better controlled on this regimen.
   Continue to uptitrate if necessary but has stabilized.
   - Continue celexa 10mg po daily
   .
   #Breast CA: Progressive and metastatic.
   -Defer to onc team
 has shown some response to therapy on basis of
   tumor markers and will likely get palliative chemotherapy pending
   improvement in PCP.
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
    .
   # Nutrition: Tolerating tube feeds
   .
   # GI: No diarrhea now, C. Diff negative x2, resend x 1.
   .
   # Access: PICC line and a line
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2161-5-16**] 03:07 AM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2161-5-10**] 03:27 PM
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2161-05-17 07:28:00 Physician Resident Progress Note
Chief Complaint: s/p colectomy on POD #6
   24 Hour Events:
   Metabolic alkalosis without respiratory compensation therefore
   decreased rate on vent. ABG improved to 7.47/46/104.
   Increased lasix gtt
   MAP in high 70s
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2161-5-16**] 07:30 PM
   Vancomycin - [**2161-5-16**] 08:30 PM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2161-5-16**] 08:00 PM
   Fentanyl - [**2161-5-17**] 12:30 AM
   Heparin Sodium (Prophylaxis) - [**2161-5-17**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: No(t) Abdominal pain
   Neurologic: + anxiety, mild, improved, + insomnia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2161-5-17**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.7
   HR: 85 (84 - 111) bpm
   BP: 103/59(76) {84/49(62) - 140/77(102)} mmHg
   RR: 24 (21 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  2,993 mL
                                                                    129 mL
   PO:
             TF:
                                                                    594 mL
   IVF:
                                                                  1,764 mL
                                                                    129 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,466 mL
                                                                  2,025 mL
   Urine:
                                                                  2,466 mL
                                                                  2,025 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    527 mL
                                                                 -1,896 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 29 cmH2O
   SpO2: 97%
   ABG: 7.47/46/104/33/8
   Ve: 11.2 L/min
   PaO2 / FiO2: 173
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   120 K/uL
   8.4 g/dL
   119 mg/dL
   0.1 mg/dL
   33 mEq/L
   3.5 mEq/L
   14 mg/dL
   102 mEq/L
   141 mEq/L
   25.1 %
   4.3 K/uL
        [image002.jpg]
                             [**2161-5-15**]  08:54 AM
                             [**2161-5-15**]  01:59 PM
                             [**2161-5-15**]  02:22 PM
                             [**2161-5-15**]  04:09 PM
                             [**2161-5-16**]  04:25 AM
                             [**2161-5-16**]  04:42 AM
                             [**2161-5-16**]  04:01 PM
                             [**2161-5-16**]  06:14 PM
                             [**2161-5-16**]  09:09 PM
                             [**2161-5-17**]  04:00 AM
   WBC
   3.9
   4.3
   Hct
   22.9
   21.6
   25.1
   Plt
   103
   120
   Cr
   0.2
   0.0
   0.1
   0.1
   TCO2
   31
   34
   33
   33
   33
   34
   Glucose
   113
   119
   Other labs: PT / PTT / INR:13.2/33.5/1.1, ALT / AST:26/65, Alk Phos / T
   Bili:208/0.4, Amylase / Lipase:29/16, Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.0 g/dL, LDH:593 IU/L, Ca++:7.1 mg/dL, Mg++:1.6 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
    .
   #Repiratory failure: PCP pneumonia complicated by ARDS.
   -patient currently on pentamidine and caspofungin for PCP- [**Name10 (NameIs) 2945**] on
   this regimen with slight decrease in FiO2 requirement
   -continue IV solumedrol
   -continues to be febrile, culture if spikes and send sputum, blood,
   urine, and C diff, no + culture data recently.
 sputum cx sent this
   am.
    .
   #MSSA bacteremia: TTE negative, unable to perform TEE.
   -plan for extended course for staph auerus bacteremia.  Continue vanc,
   patient continues to spike but hemodynamically stable and no new
   culture data, hold off on adding additional abx for now.
    .
   #Volume:  patient is third spacing fluids- as above diurese slowly,
   goal I/O even for today
 will start lasix gtt
    .
   # Anemia: s/p tx 1uPRBC on [**5-13**], hct drop 3 points over 24hrs, repeat
   HCT this afternoon, tx for hct < 21 or low BP
   .
   # Pain: on fentanyl patch and IV fentanyl.  Pain well controlled.
   .
   # Anxiety / depression: patient on standing ativan 1mg po q6hrs and prn
   in addition, anxiety seems to be better controlled on this regimen.
   Continue to uptitrate if necessary but has stabilized.
   - Continue celexa 10mg po daily
   .
   #Breast CA: Progressive and metastatic.
   -Defer to onc team
 has shown some response to therapy on basis of
   tumor markers and will likely get palliative chemotherapy pending
   improvement in PCP.
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
    .
   # Nutrition: Tolerating tube feeds
   .
   # GI: No diarrhea now, C. Diff negative x2, resend x 1.
   .
   # Access: PICC line and a line
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2161-5-10**] 03:27 PM
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2161-05-17 11:24:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Requests increase of evening ativan; reports that anxiety is well
   controlled during the day. Denies pain.
   24 Hour Events:
   Lasix gtt added
   No further fevers
   History obtained from Patient, ICU team
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2161-5-16**] 07:30 PM
   Vancomycin - [**2161-5-16**] 08:30 PM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2161-5-16**] 08:00 PM
   Fentanyl - [**2161-5-17**] 12:30 AM
   Heparin Sodium (Prophylaxis) - [**2161-5-17**] 05:00 AM
   Other medications:
   H2B, duragesic, CHG, SQI, neurontin, MDIs, lidoderm, vanco, SQH,
   methylpred, caspo, celexa, ativan, pentamidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-17**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 82 (82 - 111) bpm
   BP: 86/49(64) {84/49(63) - 140/77(102)} mmHg
   RR: 24 (21 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  2,993 mL
                                                                    203 mL
   PO:
             TF:
                                                                    594 mL
   IVF:
                                                                  1,764 mL
                                                                    143 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,466 mL
                                                                  2,705 mL
   Urine:
                                                                  2,466 mL
                                                                  2,705 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    527 mL
                                                                 -2,502 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 29 cmH2O
   SpO2: 96%
   ABG: 7.47/46/104/33/8
   Ve: 10 L/min
   PaO2 / FiO2: 173
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : )
   Abdominal: Soft
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.4 g/dL
   120 K/uL
   119 mg/dL
   0.1 mg/dL
   33 mEq/L
   3.5 mEq/L
   14 mg/dL
   102 mEq/L
   141 mEq/L
   25.1 %
   4.3 K/uL
        [image002.jpg]
                             [**2161-5-15**]  08:54 AM
                             [**2161-5-15**]  01:59 PM
                             [**2161-5-15**]  02:22 PM
                             [**2161-5-15**]  04:09 PM
                             [**2161-5-16**]  04:25 AM
                             [**2161-5-16**]  04:42 AM
                             [**2161-5-16**]  04:01 PM
                             [**2161-5-16**]  06:14 PM
                             [**2161-5-16**]  09:09 PM
                             [**2161-5-17**]  04:00 AM
   WBC
   3.9
   4.3
   Hct
   22.9
   21.6
   25.1
   Plt
   103
   120
   Cr
   0.2
   0.0
   0.1
   0.1
   TCO2
   31
   34
   33
   33
   33
   34
   Glucose
   113
   119
   Other labs: PT / PTT / INR:13.2/33.5/1.1, ALT / AST:26/65, Alk Phos / T
   Bili:208/0.4, Amylase / Lipase:29/16, Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.0 g/dL, LDH:593 IU/L, Ca++:7.1 mg/dL, Mg++:1.6 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   61-year-old woman with metastatic breast cancer now with respiratory
   failure (secondary to PCP and ARDS) and MSSA bacteremia.
   Respiratory failure
   -          Pneumocystis pneumonia, felt to be a case of Bactrim-failure
         On pentamidine and caspofungin per ID
   -          Awaiting other sputum cultures and gram stain; low threshold
   to add broad-spectrum coverage but holding off for now, given multiple
   prior episodes, as discussed with ID
   -          Goal (-) 1000
 1500 today.  Seems to have some response
   with diuresis
   -          Wean FiO2 to 0.5; if tolerates, to 0.4 and then begin PEEP
   wean
   Anemia
   - Follow hct
   MSSA Bacteremia
   Unable to complete TEE due to technical issues
   Therefore, will treat as if for endocarditis with prolonged course
   Breast cancer with metastases
   Defer management to oncology team
   Other issues as per Dr. [**Last Name (STitle) 2951**]
s note above.
   Critical Care Time: 40 minutes
   ICU Care
   Nutrition: receiving tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2161-5-10**] 03:27 PM
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   discussed with husband
   [**Name (NI) 66**] status: Full code
   Disposition : ICU
   Total time spent: 40 min
   Patient is critically ill

2161-05-18 07:13:00 Physician Resident Progress Note
Chief Complaint: PCP [**Name Initial (PRE) 1035**]
   24 Hour Events:
   Pt with metabolic alkalosis. Lasix gtt discontinued overnight. Pt did
   not tolerate wean in FiO2, PEEP decreased from 8 to 10
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2161-5-17**] 06:00 PM
   Vancomycin - [**2161-5-17**] 08:00 PM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2161-5-17**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2161-5-17**] 10:00 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-18**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.3
   HR: 85 (78 - 98) bpm
   BP: 92/53(69) {78/46(59) - 138/79(103)} mmHg
   RR: 22 (18 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  2,908 mL
                                                                    389 mL
   PO:
             TF:
                                                                    724 mL
                                                                    217 mL
   IVF:
                                                                  1,714 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  3,970 mL
                                                                    435 mL
   Urine:
                                                                  3,970 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,062 mL
                                                                    -46 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 27 cmH2O
   SpO2: 96%
   ABG: 7.46/50/95.[**Numeric Identifier 96**]/32/9
   Ve: 11.9 L/min
   PaO2 / FiO2: 160
   Physical Examination
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: present), (Left DP pulse: present)
   Skin:  warm
   Neurologic: Responds to: verbal stimuli,
   CV: RRR no MRG
   Resp: coarse BS throughout
   Abd: soft, NT/ND NABS
   Ext: trace LE edema
   Labs / Radiology
   110 K/uL
   8.8 g/dL
   121 mg/dL
   0.3 mg/dL
   32 mEq/L
   4.7 mEq/L
   14 mg/dL
   99 mEq/L
   136 mEq/L
   25.7 %
   3.5 K/uL
        [image002.jpg]
                             [**2161-5-16**]  04:42 AM
                             [**2161-5-16**]  04:01 PM
                             [**2161-5-16**]  06:14 PM
                             [**2161-5-16**]  09:09 PM
                             [**2161-5-17**]  04:00 AM
                             [**2161-5-17**]  04:05 PM
                             [**2161-5-17**]  04:30 PM
                             [**2161-5-17**]  07:58 PM
                             [**2161-5-17**]  10:42 PM
                             [**2161-5-18**]  04:38 AM
   WBC
   4.3
   3.5
   Hct
   25.1
   25.7
   Plt
   120
   110
   Cr
   0.1
   0.1
   0.1
   0.2
   0.3
   TCO2
   33
   33
   34
   37
   37
   Glucose
   119
   93
   124
   121
   Other labs: PT / PTT / INR:13.2/33.5/1.1, ALT / AST:26/65, Alk Phos / T
   Bili:208/0.4, Amylase / Lipase:29/16, Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.0 g/dL, LDH:593 IU/L, Ca++:8.0 mg/dL, Mg++:2.5 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
    .
   #Repiratory failure: PCP pneumonia complicated by ARDS.
   -patient currently on pentamidine and caspofungin for PCP- [**Name10 (NameIs) 2945**] on
   this regimen with slight decrease in FiO2 requirement
   -continue IV solumedrol at curremt dpse
   -LDH slight decrease and B glucan repeat pending
   -FiO2 decreased to 50% this a.m. as ABG w/ PaO2 > 100, continue to wean
   if possible keeping PaO2 > 60
   -repeat LFTs in a.m. while on pentamidine
   .
   #MSSA bacteremia: TTE negative, unable to perform TEE.
   -plan for extended course for staph auerus bacteremia.  Continue vanc
   -afebrile.
   .
   # Met
   .
   #Volume:  continue to diurese with goal I/O negative 1 to 2 litersWill
   hold lasix gtt as pt with worsening alkalosis. Goal even today.
    .
   # Anemia: hct stable, qdaily hct.
   .
   # Pain: on fentanyl patch and IV fentanyl.  Pain well controlled.
   .
   # Anxiety / depression: increase qhs ativan to 2mg.  standing and prn
   ativan.
   - Continue celexa 10mg po daily
   .
    #Breast CA: Progressive and metastatic.
   -Defer to onc team
 has shown some response to therapy on basis of
   tumor markers and will likely get palliative chemotherapy pending
   improvement in PCP.
   .
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
   # Nutrition: Tolerating tube feeds
   # GI:  c diff negative x 3, no diarrhea.
   # Access: PICC line and a line
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2161-5-18**] 04:41 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2161-5-10**] 03:27 PM
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-05-19 07:12:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   Denies pain
   24 Hour Events:
   Per ID - plan to complete 21 day course of pentamidine
   Pt with improved PaO2 yesterday AM -> FiO2 from 60% to 50% then repeat
   ABG showed PaO2 of 62 so PEEP increased from 8 to 10.  Respiratory rate
   has slowly increased.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2161-5-18**] 06:00 PM
   Vancomycin - [**2161-5-18**] 07:48 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2161-5-18**] 11:17 AM
   Heparin Sodium (Prophylaxis) - [**2161-5-18**] 02:00 PM
   Furosemide (Lasix) - [**2161-5-18**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-19**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 89 (80 - 100) bpm
   BP: 108/59(78) {82/45(59) - 148/86(112)} mmHg
   RR: 30 (19 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.5 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  2,532 mL
                                                                    281 mL
   PO:
             TF:
                                                                    722 mL
                                                                    211 mL
   IVF:
                                                                  1,390 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  2,940 mL
                                                                    600 mL
   Urine:
                                                                  2,940 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -408 mL
                                                                   -319 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Spontaneous): 311 (311 - 311) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 107
   PIP: 27 cmH2O
   Plateau: 26 cmH2O
   SpO2: 97%
   ABG: 7.45/52/62/31/9
   Ve: 9.7 L/min
   PaO2 / FiO2: 124
   Physical Examination
   General Appearance: No acute distress, intubated
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: coarse intubated BS bilaterally
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   125 K/uL
   8.5 g/dL
   103 mg/dL
   0.1 mg/dL
   31 mEq/L
   3.6 mEq/L
   12 mg/dL
   95 mEq/L
   133 mEq/L
   25.4 %
   2.7 K/uL
        [image002.jpg]
                             [**2161-5-16**]  09:09 PM
                             [**2161-5-17**]  04:00 AM
                             [**2161-5-17**]  04:05 PM
                             [**2161-5-17**]  04:30 PM
                             [**2161-5-17**]  07:58 PM
                             [**2161-5-17**]  10:42 PM
                             [**2161-5-18**]  04:38 AM
                             [**2161-5-18**]  12:08 PM
                             [**2161-5-19**]  04:38 AM
                             [**2161-5-19**]  05:01 AM
   WBC
   4.3
   3.5
   2.7
   Hct
   25.1
   25.7
   25.4
   Plt
   120
   110
   125
   Cr
   0.1
   0.1
   0.2
   0.3
   0.1
   TCO2
   34
   37
   37
   34
   37
   Glucose
   119
   93
   124
   121
   103
   Other labs: PT / PTT / INR:13.2/33.5/1.1, ALT / AST:52/79, Alk Phos / T
   Bili:208/0.4, Amylase / Lipase:29/16, Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.0 g/dL, LDH:593 IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.4
   mg/dL
   Micro: glucan pending from [**5-14**], CMV VL pending from [**5-17**]
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
   #Repiratory failure: PCP pneumonia complicated by ARDS.
   -patient currently on pentamidine and caspofungin for PCP- [**Name10 (NameIs) 2945**] on
   this regimen
   -continue IV solumedrol at curremt dpse
   -LDH slight decrease at last check ([**5-16**]) and B glucan repeat pending
   from [**5-14**]
   -respiratory rate has trended up overnight unclear why.  Increased PEEP
   does not seemed to have improved it and repeat ABG shows that her
   chronic respiratory acidosis has resolved leaving her with residual
   metabolic alkalosis.
   -will attempt to switch her to pressure support with goal to match same
   pressures and volumes she is getting on pressure control.  We will let
   her autoregulate and recheck ABG.
   #MSSA bacteremia: TTE negative, unable to perform TEE.
   -plan for extended course for staph auerus bacteremia.  Continue vanc
   as per ID ?drug fevers with nafcillin (spiked temps whenever switched,
   not thought to be nafcillin failure)
   -afebrile.
   #Volume:  Goal even today.
   # Anemia: hct stable, qdaily hct.
   # Pain: on fentanyl patch and IV fentanyl.  Pain well controlled.
   # Anxiety / depression: increase qhs ativan to 2mg.  standing and prn
   ativan.
   -          Continue celexa 10mg po daily
   -          Can increase ativan if needed to improve anxiety - ? if
   anxiety driving incresed resp rate, but it seems that when she is calm
   she is still breathing rapidly so doubt that this is the case
   #Breast CA: Progressive and metastatic.
   -Defer to onc team
 has shown some response to therapy on basis of
   tumor markers and will likely get palliative chemotherapy pending
   improvement in PCP.
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
   # Nutrition: Tolerating tube feeds
   # GI:  c diff negative x 3, no diarrhea.
   # Access: PICC line and a line
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2161-5-18**] 09:17 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2161-5-10**] 03:27 PM
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-05-20 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2161-5-19**] 04:57 PM
   x1 off a-line as per Dr [**First Name (STitle) 116**]
 FEVER - 101.6
F - [**2161-5-19**] 04:00 PM
   CMV positive, started ganciclovir, ophtho c/s needs to be called
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2161-5-19**] 07:21 PM
   Vancomycin - [**2161-5-19**] 08:15 PM
   Gancyclovir - [**2161-5-19**] 09:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Neurologic: + anxiety
   Flowsheet Data as of  [**2161-5-20**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.8
C (100
   HR: 101 (84 - 113) bpm
   BP: 136/76(99) {79/45(57) - 162/90(120)} mmHg
   RR: 26 (17 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75.5 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  2,405 mL
                                                                    267 mL
   PO:
             TF:
                                                                    720 mL
                                                                    194 mL
   IVF:
                                                                  1,390 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  2,640 mL
                                                                    810 mL
   Urine:
                                                                  2,640 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -235 mL
                                                                   -543 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 448 (383 - 561) mL
   PS : 22 cmH2O
   RR (Set): 0
   RR (Spontaneous): 30
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 37 cmH2O
   SpO2: 96%
   ABG: 7.56/38/71/31/10
   Ve: 16.7 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   134 K/uL
   8.1 g/dL
   127 mg/dL
   0.1 mg/dL
   31 mEq/L
   3.1 mEq/L
   12 mg/dL
   98 mEq/L
   139 mEq/L
   24.1 %
   2.6 K/uL
        [image002.jpg]
                             [**2161-5-17**]  07:58 PM
                             [**2161-5-17**]  10:42 PM
                             [**2161-5-18**]  04:38 AM
                             [**2161-5-18**]  12:08 PM
                             [**2161-5-19**]  04:38 AM
                             [**2161-5-19**]  05:01 AM
                             [**2161-5-19**]  10:52 AM
                             [**2161-5-19**]  03:35 PM
                             [**2161-5-20**]  04:30 AM
                             [**2161-5-20**]  04:58 AM
   WBC
   3.5
   2.7
   2.6
   Hct
   25.7
   25.4
   24.1
   Plt
   110
   125
   134
   Cr
   0.2
   0.3
   0.1
   0.1
   TCO2
   37
   34
   37
   36
   36
   35
   Glucose
   124
   121
   103
   127
   Other labs: PT / PTT / INR:12.9/30.6/1.1, ALT / AST:52/79, Alk Phos / T
   Bili:208/0.4, Amylase / Lipase:29/16, Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.0 g/dL, LDH:619 IU/L, Ca++:7.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
   #Repiratory failure: PCP pneumonia complicated by ARDS.
   -patient currently on pentamidine and caspofungin for PCP- [**Name10 (NameIs) 2945**] on
   this regimen
   -continue IV solumedrol at curremt dose
   -LDH stable
   -respiratory rate has trended up overnight unclear why.  Increased PEEP
   does not seemed to have improved it and repeat ABG shows that her
   chronic respiratory acidosis has resolved leaving her with residual
   metabolic alkalosis.
   -not very tolerant of Pressure support in that she is not sleeping well
   and may have increased WOB, plan to switch back to PCV
   # CMV: VL  greater than 100,000.  Started Gancyclovir.
   -follow CMV viral load
   -ophtho consult to r/o CMV retiniti
   #MSSA bacteremia: TTE negative, unable to perform TEE.
   -plan for extended course for staph auerus bacteremia.  Continue vanc
   as per ID ?drug fevers with nafcillin (spiked temps whenever switched,
   not thought to be nafcillin failure)
   -almost daily fevers, send vanc level to r/o undertreatment of
   endocarditis.
   #Volume:  Goal even today.
   # Anemia: hct stable, qdaily hct.
   # Pain: on fentanyl patch and IV fentanyl.  Pain well controlled.
   # Anxiety / depression: increase qhs ativan to 3mg.  standing and prn
   ativan.
   -          Continue celexa 10mg po daily
   #Breast CA: Progressive and metastatic.
   -Defer to onc team
 has shown some response to therapy on basis of
   tumor markers and will likely get palliative chemotherapy pending
   improvement in PCP.
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
   # Nutrition: Tolerating tube feeds
   # GI:  c diff negative x 3
   -having diarrhea which is most likely related to CMV however previous C
   diff  was sent in setting of fever w/o diarrhea, new diarrhea, will r/o
   c diff with 3 x c diff.
   # Access: PICC line and a line
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2161-5-10**] 03:27 PM
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: Boots, Lovenox
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2161-05-21 06:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2161-5-20**] 08:00 AM
 URINE CULTURE - At [**2161-5-20**] 08:00 AM
 BLOOD CULTURED - At [**2161-5-20**] 08:32 AM
 FEVER - 101.9
F - [**2161-5-20**] 08:00 AM
   Tolerating pressure control ventilation
   Ophtho evaluated for CMV retinitis- NO evidence of CMV retinits
   States she had a good night sleep, anxiety is well controlled with
   current regimen.  Feels subjectively as though her breathing has
   improved.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2161-5-20**] 06:09 PM
   Vancomycin - [**2161-5-20**] 08:00 PM
   Gancyclovir - [**2161-5-20**] 08:00 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2161-5-20**] 07:26 AM
   Enoxaparin (Lovenox) - [**2161-5-20**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-21**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37
C (98.6
   HR: 71 (71 - 103) bpm
   BP: 84/50(63) {81/48(60) - 128/70(91)} mmHg
   RR: 19 (14 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.5 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  2,860 mL
                                                                    261 mL
   PO:
             TF:
                                                                    720 mL
                                                                    197 mL
   IVF:
                                                                  1,840 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  3,125 mL
                                                                    400 mL
   Urine:
                                                                  3,125 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -265 mL
                                                                   -139 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   Vt (Spontaneous): 0 (0 - 531) mL
   PS : 25 cmH2O
   RR (Set): 12
   RR (Spontaneous): 8
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 27 cmH2O
   SpO2: 100%
   ABG: 7.45/48/141/33/8
   Ve: 9.9 L/min
   PaO2 / FiO2: 282
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   119 K/uL
   6.9 g/dL
   135 mg/dL
   0.1 mg/dL
   33 mEq/L
   3.9 mEq/L
   15 mg/dL
   99 mEq/L
   134 mEq/L
   21.1 %
   2.0 K/uL
        [image002.jpg]
                             [**2161-5-18**]  12:08 PM
                             [**2161-5-19**]  04:38 AM
                             [**2161-5-19**]  05:01 AM
                             [**2161-5-19**]  10:52 AM
                             [**2161-5-19**]  03:35 PM
                             [**2161-5-20**]  04:30 AM
                             [**2161-5-20**]  04:58 AM
                             [**2161-5-20**]  05:10 PM
                             [**2161-5-21**]  05:03 AM
                             [**2161-5-21**]  05:20 AM
   WBC
   2.7
   2.6
   2.0
   Hct
   25.4
   24.1
   21.1
   Plt
   125
   134
   119
   Cr
   0.1
   0.1
   0.1
   TCO2
   34
   37
   36
   36
   35
   36
   34
   Glucose
   103
   127
   105
   135
   Other labs: PT / PTT / INR:12.9/30.6/1.1, ALT / AST:37/43, Alk Phos / T
   Bili:181/0.3, Amylase / Lipase:29/16, Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.0 g/dL, LDH:482 IU/L, Ca++:7.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.8
   mg/dL
   Microbiology: [**5-20**] C diff negative
   [**5-20**] blood cultures and mycolitic cx pending
   [**5-20**] urine cx pending
   [**5-19**] blood cx pending
   [**5-17**] mycolitic / AFB blood pre lim negative
   [**5-17**] CMV VL > 100,000
   Vanc level 15.4
   IgG 400 (low)
   LDH 482 down from 619
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
   #Repiratory failure: PCP pneumonia complicated by ARDS.
   -patient currently on pentamidine and caspofungin for PCP- [**Name10 (NameIs) 2945**] on
   this regimen
   -continue IV solumedrol at current dose
   -LDH improving, continue to trend
   -repeat glucan still pending, will be helpful in trending
   -back on PCV but now tolerating FiO2 of 50% and minute ventilation is
   about 10 L/min
   -PaO2 141 on FiO2 of 50%, decrease to 40% and repeat ABG to see if
   patient tolerates a lower setting
   # CMV: VL  greater than 100,000.  Started Gancyclovir.
   -follow CMV viral load q week, + initially on [**5-16**], repeat on [**5-22**]
   -ophtho consult - NO evidence of CMV retinitis
   -still treat for prolonged course given diarrhea, possibly related to
   CMV and would qualify for end organ damage
   -Immunoglobulin quantification added on: IgM and IgA are wnl but IgG is
   low, add on sub classification of IgG
   -discuss with ID role of IVIG
   -diarrhea improving
   #MSSA bacteremia: TTE negative, unable to perform TEE.
   -check vanc level
   -on 1g q12hrs of vancomycin for possible endocarditis, surveillance
   cultures negative
   #Volume:  Goal even today again, do not replete fluid if negative but
   may diurese if negative, patient is currently volume overloaded.
   # Anemia: hct dropped 3 points.
   -given CMV and diarrhea- guiac stool
   -p.m. hct and T&S, transfuse for HCT < 21
   # Leukopenia: most recent chemo was remote [**4-14**].
   -add on granulocyte count
   -may be related to marrow suppression from gancyclovir, within a
   fluctuating range throughout hospital course, continue to trend
   # Pain: on fentanyl patch and IV fentanyl.  Pain well controlled.
   # Anxiety / depression: qhs ativan 3mg.  standing and prn ativan.
   - Continue celexa 10mg po daily
   #Breast CA: Progressive and metastatic.
   -Defer to onc team
 has shown some response to therapy on basis of
   tumor markers and will likely get palliative chemotherapy pending
   improvement in PCP.
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
   -per radiology read of cxr [**5-18**] "Right clavicular fracture with apparent
   increased distraction of the fracture fragments; however, may be
   projectional. Clinical correlation
   advised."  f/u repeat CXR read from [**5-20**].
   # Nutrition: Tolerating tube feeds
   # GI:  c diff negative x 3
   -having diarrhea which is most likely related to CMV however previous C
   diff  was sent in setting of fever w/o diarrhea, new diarrhea, will r/o
   c diff with 3 x c diff.
   -send toxin B if + diarrhea today
   # Access: PICC line and a line
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2161-5-20**] 10:44 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2161-5-10**] 03:27 PM
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2161-05-22 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2161-5-21**] 06:00 PM
   RUE
   weaning the vent... possible trach this am PCV FIO2 50 and PEEP 7
   tolerating well. She got IVIG for CMV, received 1U PRBC for HCT 21.
   Received 10mg IV lasix X2 during day, additional 20mg IV following
   blood products
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2161-5-21**] 08:00 PM
   Gancyclovir - [**2161-5-21**] 09:00 PM
   Vancomycin - [**2161-5-22**] 07:09 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2161-5-21**] 10:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Psychiatric / Sleep: slept moderately well, anxiety well controlled
   Flowsheet Data as of  [**2161-5-22**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 81 (75 - 101) bpm
   BP: 111/60(80) {85/48(63) - 133/77(100)} mmHg
   RR: 27 (19 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.5 kg (admission): 67 kg
   Height: 60 Inch
           Total In:
                                                                  3,461 mL
                                                                  1,081 mL
   PO:
           TF:
                                                                    720 mL
                                                                    223 mL
   IVF:
                                                                  1,740 mL
                                                                    274 mL
   Blood products:
                                                                    791 mL
                                                                    584 mL
   Total out:
                                                                  2,275 mL
                                                                    840 mL
   Urine:
                                                                  2,275 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,186 mL
                                                                    241 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 50%
   RSBI: 151
   PIP: 27 cmH2O
   SpO2: 100%
   ABG: 7.47/46/91/34/8
   NIF: -28 cmH2O
   Ve: 11.1 L/min
   PaO2 / FiO2: 182
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   137 K/uL
   8.4 g/dL
   101 mg/dL
   0.2 mg/dL
   34 mEq/L
   3.6 mEq/L
   16 mg/dL
   98 mEq/L
   136 mEq/L
   24.8 %
   1.3 K/uL
        [image002.jpg]
                             [**2161-5-20**]  05:10 PM
                             [**2161-5-21**]  05:03 AM
                             [**2161-5-21**]  05:20 AM
                             [**2161-5-21**]  08:53 AM
                             [**2161-5-21**]  12:15 PM
                             [**2161-5-21**]  01:49 PM
                             [**2161-5-21**]  09:26 PM
                             [**2161-5-21**]  09:36 PM
                             [**2161-5-22**]  04:31 AM
                             [**2161-5-22**]  04:40 AM
   WBC
   2.0
   1.3
   Hct
   21.1
   25.4
   24.8
   Plt
   119
   137
   Cr
   0.1
   0.2
   TCO2
   36
   34
   32
   31
   31
   34
   34
   Glucose
   105
   135
   101
   Other labs: PT / PTT / INR:12.5/29.3/1.1, ALT / AST:37/43, Alk Phos / T
   Bili:181/0.3, Amylase / Lipase:28/25, Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.0 g/dL, LDH:482 IU/L, Ca++:7.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
   #Repiratory failure: PCP pneumonia complicated by ARDS.
   -patient currently on pentamidine and caspofungin for PCP- [**Name10 (NameIs) 2945**] on
   this regimen
   -continue IV solumedrol at current dose
   -LDH improving, continue to trend
   -repeat glucan still pending, will be helpful in trending
   -back on PCV but now tolerating FiO2 of 50% and minute ventilation is
   about 10 L/min
   -PaO2 141 on FiO2 of 50%, decrease to 40% and repeat ABG to see if
   patient tolerates a lower setting
   # CMV: VL  greater than 100,000.  Started Gancyclovir.
   -follow CMV viral load q week, + initially on [**5-16**], repeat on [**5-22**]
   -ophtho consult - NO evidence of CMV retinitis
   -still treat for prolonged course given diarrhea, possibly related to
   CMV and would qualify for end organ damage
   -Immunoglobulin quantification added on: IgM and IgA are wnl but IgG is
   low, add on sub classification of IgG
   -discuss with ID role of IVIG
   -diarrhea improving
   #MSSA bacteremia: TTE negative, unable to perform TEE.
   -check vanc level
   -on 1g q12hrs of vancomycin for possible endocarditis, surveillance
   cultures negative
   #Volume:  Goal even today again, do not replete fluid if negative but
   may diurese if negative, patient is currently volume overloaded.
   # Anemia: hct dropped 3 points.
   -given CMV and diarrhea- guiac stool
   -p.m. hct and T&S, transfuse for HCT < 21
   # Leukopenia: most recent chemo was remote [**4-14**].
   -add on granulocyte count
   -may be related to marrow suppression from gancyclovir, within a
   fluctuating range throughout hospital course, continue to trend
   # Pain: on fentanyl patch and IV fentanyl.  Pain well controlled.
   # Anxiety / depression: qhs ativan 3mg.  standing and prn ativan.
   - Continue celexa 10mg po daily
   #Breast CA: Progressive and metastatic.
   -Defer to onc team
 has shown some response to therapy on basis of
   tumor markers and will likely get palliative chemotherapy pending
   improvement in PCP.
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
   -per radiology read of cxr [**5-18**] "Right clavicular fracture with apparent
   increased distraction of the fracture fragments; however, may be
   projectional. Clinical correlation
   advised."  f/u repeat CXR read from [**5-20**].
   # Nutrition: Tolerating tube feeds
   # GI:  c diff negative x 3
   -having diarrhea which is most likely related to CMV however previous C
   diff  was sent in setting of fever w/o diarrhea, new diarrhea, will r/o
   c diff with 3 x c diff.
   -send toxin B if + diarrhea today
   # Access: PICC line and a line
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2161-5-21**] 03:19 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2161-5-10**] 03:27 PM
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2161-05-23 08:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Bumped from schedule so no trach done. ID recs to check BAL to rule out
   CMV pneumonitis. If tissue involvement, can treat with cytogan ( cmv
   "specific" IVIG).  ANC less than 1000. Started on GCSF.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2161-5-22**] 06:00 PM
   Vancomycin - [**2161-5-22**] 08:00 PM
   Gancyclovir - [**2161-5-22**] 08:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2161-5-22**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, Diarrhea
   Flowsheet Data as of  [**2161-5-23**] 08:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 96 (76 - 100) bpm
   BP: 128/69(94) {81/47(60) - 143/83(107)} mmHg
   RR: 28 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.5 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  2,884 mL
                                                                    327 mL
   PO:
             TF:
                                                                    360 mL
                                                                    246 mL
   IVF:
                                                                  1,890 mL
                                                                     82 mL
   Blood products:
                                                                    584 mL
   Total out:
                                                                  4,125 mL
                                                                    500 mL
   Urine:
                                                                  4,125 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,242 mL
                                                                   -173 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 27 cmH2O
   SpO2: 100%
   ABG: 7.48/44/95.[**Numeric Identifier 607**]/34/8
   Ve: 11.5 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   142 K/uL
   8.4 g/dL
   92 mg/dL
   0.2 mg/dL
   34 mEq/L
   4.1 mEq/L
   12 mg/dL
   97 mEq/L
   135 mEq/L
   25.3 %
   1.8 K/uL
        [image002.jpg]
                             [**2161-5-21**]  08:53 AM
                             [**2161-5-21**]  12:15 PM
                             [**2161-5-21**]  01:49 PM
                             [**2161-5-21**]  09:26 PM
                             [**2161-5-21**]  09:36 PM
                             [**2161-5-22**]  04:31 AM
                             [**2161-5-22**]  04:40 AM
                             [**2161-5-22**]  01:47 PM
                             [**2161-5-23**]  03:28 AM
                             [**2161-5-23**]  03:48 AM
   WBC
   1.3
   1.4
   1.8
   Hct
   25.4
   24.8
   25.3
   Plt
   137
   142
   Cr
   0.2
   0.2
   TCO2
   32
   31
   31
   34
   34
   34
   Glucose
   101
   92
   Other labs: PT / PTT / INR:12.5/29.3/1.1, ALT / AST:37/43, Alk Phos / T
   Bili:181/0.3, Amylase / Lipase:28/25, Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.0 g/dL, LDH:482 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
   #Repiratory failure: PCP pneumonia complicated by ARDS.
   -per ID would be useful to BAL to r/o CMV pneumonitis
   -Able to wean down on vent settings to 50% FiO2 and PEEP 7, continue to
   wean as tolerated
   -plan for IP to place trach today mainly for patent comfort
   -continue to treat PCP with [**Name9 (PRE) **] / pentamidine and IV steroids
   -LDH improving, continue to trend, f/u repeat glucan
   -diurese- goal I/O negative 500cc to 1 liter, give 1 dose 20mg IV x 1
   today and then prn to meet goal
   # CMV: VL  greater than 100,000.  Started Gancyclovir.
   -resend CMV Viral load
   -per ID send q5 days
   -BAL to r/o CMV pneumonitis, if + can use CMV specific IgG for
   treatment
   -f/u IgG levels are normal
   -diarrhea somewhat improving however does persist and no direct
   evidence of CMV yet obtained, not bloody diarrhea.  Send C diff x 2
   (only 1 negative during time of diarrhea) and send C diff toxin B
   -GCSF to keep ANC > 1000, currently 1400
   #MSSA bacteremia: TTE negative, unable to perform TEE.
   -vanc level 15
   -on 1g q12hrs of vancomycin for possible endocarditis, surveillance
   cultures negative
   #Volume:  negative 1.2 liters yesterday, continue diuresis goal 500cc
   to 1 liter negative
   # Anemia: continue to trend daily
   -given CMV and diarrhea- guiac stool
   # Leukopenia: most recent chemo was remote [**4-14**].
   -add on granulocyte count when WBC low, likely related to marrow
   suppression due to gancyclovir.
   -GCSF prn
   # Pain: on fentanyl patch and IV fentanyl.  Pain well controlled.
   # Anxiety / depression: qhs ativan 3mg.  standing and prn ativan.
   - Continue celexa 10mg po daily
   #Breast CA: Progressive and metastatic.
   -Defer to onc team
 has shown some response to therapy on basis of
   tumor markers and will likely get palliative chemotherapy pending
   improvement in PCP.
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
   -per radiology read of cxr [**5-18**] "Right clavicular fracture with apparent
   increased distraction of the fracture fragments; however, may be
   projectional. Clinical correlation
   advised."  f/u repeat CXR read from [**5-20**].
   # Nutrition: Tolerating tube feeds , hold prior to trach, d/w IP timing
   of trach
   # Access: PICC line and a line
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2161-5-22**] 08:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2161-5-10**] 03:27 PM
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2161-05-24 07:28:00 Physician Resident Progress Note
Chief Complaint: PCP PNA, CMV
   24 Hour Events: Pt receiving GCSF
 started 6/7 per ID/Onc recs. BAL
   performed on [**5-23**] to evaluate for evidence of CMV pneumonitis. Plan for
   tracheostomy tomorrow if pt fails SBT.
 STOOL CULTURE - At [**2161-5-23**] 08:51 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2161-5-23**] 06:14 PM
   Vancomycin - [**2161-5-23**] 07:57 PM
   Gancyclovir - [**2161-5-23**] 07:57 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2161-5-23**] 08:37 AM
   Ranitidine (Prophylaxis) - [**2161-5-23**] 08:37 AM
   Furosemide (Lasix) - [**2161-5-23**] 11:20 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-24**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 82 (70 - 96) bpm
   BP: 102/54(73) {78/44(56) - 128/72(95)} mmHg
   RR: 19 (13 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.5 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  2,370 mL
                                                                    233 mL
   PO:
             TF:
                                                                    720 mL
                                                                    160 mL
   IVF:
                                                                  1,590 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  3,550 mL
                                                                    590 mL
   Urine:
                                                                  3,350 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,180 mL
                                                                   -357 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 452 (334 - 496) mL
   PS : 16 cmH2O
   RR (Set): 12
   RR (Spontaneous): 12
   PEEP: 7 cmH2O
   FiO2: 50%
   RSBI: 60
   PIP: 24 cmH2O
   SpO2: 99%
   ABG: 7.43/56/149/35/11
   Ve: 5.5 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   128 K/uL
   7.9 g/dL
   146 mg/dL
   0.2 mg/dL
   35 mEq/L
   3.5 mEq/L
   14 mg/dL
   98 mEq/L
   137 mEq/L
   23.6 %
   0.8 K/uL
        [image002.jpg]
                             [**2161-5-21**]  01:49 PM
                             [**2161-5-21**]  09:26 PM
                             [**2161-5-21**]  09:36 PM
                             [**2161-5-22**]  04:31 AM
                             [**2161-5-22**]  04:40 AM
                             [**2161-5-22**]  01:47 PM
                             [**2161-5-23**]  03:28 AM
                             [**2161-5-23**]  03:48 AM
                             [**2161-5-24**]  04:26 AM
                             [**2161-5-24**]  05:36 AM
   WBC
   1.3
   1.4
   1.8
   0.8
   Hct
   25.4
   24.8
   25.3
   23.6
   Plt
   137
   142
   128
   Cr
   0.2
   0.2
   0.2
   TCO2
   31
   34
   34
   34
   38
   Glucose
   101
   92
   146
   Other labs: PT / PTT / INR:12.5/29.3/1.1, ALT / AST:37/43, Alk Phos / T
   Bili:181/0.3, Amylase / Lipase:28/25, Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.0 g/dL, LDH:482 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.9
   mg/dL
   Fluid analysis / Other labs: BAL Fluid - WBC RBC Polys Bands Lymphs
   Monos Mesothe Macro Other
   [**2161-5-23**] 11:31AM    01 02 56*   21* 0   23*
   BRONCHIAL LAVAGE FLUID
   1 CELL COUNT NOT PERFORMED
   2 CELL COUNT NOT PERFORMED
   Microbiology: BAL [**5-23**] [**2161-5-23**] 11:31 am BRONCHOALVEOLAR LAVAGE
   BRONCHIAL LAVAGE FLUID.
      GRAM STAIN (Final [**2161-5-23**]):
         3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
      Immunoflourescent test for Pneumocystis jirovecii (carinii)
         (Preliminary):
      FUNGAL CULTURE (Preliminary):
      VIRAL CULTURE (Preliminary):
      VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary):
   .
   [**2161-5-23**] CMV VL - PND
   .
   [**2161-5-20**] Blood Culture - NGTD
   .
   C. Diff Toxin B - PND
   .
   Glucan and Galactomannan - PND
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
   .
   #Repiratory failure: PCP pneumonia complicated by ARDS.
   -BAL performed on [**5-23**] to r/o CMV pneumonitis
 cultures pending
   -Able to wean down on vent settings to PSV, continue to wean as
   tolerated
 tolerated SBT for 3hrs this am
   -plan for IP to place trach [**5-24**] mainly for patent comfort if fails SBT
   -continue to treat PCP with [**Name9 (PRE) **] / pentamidine and IV steroids
   -LDH improving, continue to trend, f/u repeat glucan
   -diurese- goal I/O negative 500cc to 1 liter, give 1 dose 20mg IV x 1
   today and then prn to meet goal
   .
   # CMV: VL  greater than 100,000.  Started Gancyclovir.
   -resend CMV Viral load - pending
   -per ID send q5 days
   -BAL to r/o CMV pneumonitis, if + can use CMV specific IgG for
   treatment
 results pending
   -f/u IgG levels are normal
   -diarrhea somewhat improving however does persist and no direct
   evidence of CMV yet obtained, not bloody diarrhea.  Send C diff x 2
   (only 1 negative during time of diarrhea) and send C diff toxin B
   -GCSF to keep ANC > 1000
   .
   #MSSA bacteremia: TTE negative, unable to perform TEE.
   -on 1g q12hrs of vancomycin for possible endocarditis, surveillance
   cultures negative
   .
   #Volume:  negative 1L yest, continue diuresis goal 500cc to 1 liter
   negative
   .
   # Anemia: continue to trend daily
   -stable
   .
   # Leukopenia: most recent chemo was remote [**4-14**].
   -add on granulocyte count when WBC low, likely related to marrow
   suppression due to gancyclovir.
   -GCSF prn
 currently day [**1-18**]
 ANC decreased to 500 this am, will
   repeat
   .
   # Pain: on fentanyl patch and IV fentanyl.  Pain well controlled.
   .
   # Anxiety / depression: qhs ativan 3mg.  standing and prn ativan.
   - Continue celexa 10mg po daily
   .
   #Breast CA: Progressive and metastatic.
   -Defer to onc team
 has shown some response to therapy on basis of
   tumor markers and will likely get palliative chemotherapy pending
   improvement in PCP.
   .
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
   -per radiology read of cxr [**5-18**] "Right clavicular fracture with apparent
   increased distraction of the fracture fragments; however, may be
   projectional. Clinical correlation
   advised."  f/u repeat CXR read from [**5-20**].
   .
   # Nutrition: Tolerating tube feeds , hold prior to trach, d/w IP timing
   of trach
   .
   # Access: PICC line and a line
   ICU Care
   Nutrition:  Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2161-5-10**] 03:27 PM
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2161-05-25 06:50:00 Physician Resident Progress Note
Chief Complaint: PCP PNA, CMV
   24 Hour Events:
   Tolerated SBP for approx 3 hours yesterday. Pt self DC'd A line
   overnight. BP stable. ANC declining despite G-CSF.  Holding TF for
   possible tracheostomy this am.
 ARTERIAL LINE - STOP [**2161-5-24**] 11:50 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2161-5-24**] 05:53 PM
   Vancomycin - [**2161-5-24**] 07:40 PM
   Gancyclovir - [**2161-5-24**] 08:09 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2161-5-24**] 08:00 AM
   Fentanyl - [**2161-5-24**] 11:50 AM
   Furosemide (Lasix) - [**2161-5-24**] 10:00 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-25**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 81 (81 - 128) bpm
   BP: 97/62(71) {92/62(71) - 145/78(89)} mmHg
   RR: 22 (17 - 41) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.5 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  2,660 mL
                                                                     68 mL
   PO:
             TF:
                                                                    720 mL
                                                                      1 mL
   IVF:
                                                                  1,690 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  3,095 mL
                                                                  1,600 mL
   Urine:
                                                                  3,095 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -435 mL
                                                                 -1,532 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 290 (225 - 419) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 100
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.45/51/69/34/9
   Ve: 9.2 L/min
   PaO2 / FiO2: 138
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : diffuse)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   138 K/uL
   8.7 g/dL
   83 mg/dL
   0.2 mg/dL
   34 mEq/L
   3.6 mEq/L
   14 mg/dL
   97 mEq/L
   140 mEq/L
   25.7 %
   0.5 K/uL
        [image002.jpg]
                             [**2161-5-22**]  04:40 AM
                             [**2161-5-22**]  01:47 PM
                             [**2161-5-23**]  03:28 AM
                             [**2161-5-23**]  03:48 AM
                             [**2161-5-24**]  04:26 AM
                             [**2161-5-24**]  05:36 AM
                             [**2161-5-24**]  12:00 PM
                             [**2161-5-24**]  01:29 PM
                             [**2161-5-24**]  10:00 PM
                             [**2161-5-25**]  05:26 AM
   WBC
   1.4
   1.8
   0.8
   0.5
   Hct
   25.3
   23.6
   25.7
   Plt
   142
   128
   138
   Cr
   0.2
   0.2
   0.2
   0.2
   TCO2
   34
   34
   38
   37
   Glucose
   92
   146
   116
   161
   83
   Other labs: PT / PTT / INR:12.5/29.3/1.1, ALT / AST:37/43, Alk Phos / T
   Bili:181/0.3, Amylase / Lipase:28/25, Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.0 g/dL, LDH:482 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
   .
   #Repiratory failure: PCP pneumonia complicated by ARDS.
   -BAL performed on [**5-23**] to r/o CMV pneumonitis
 cultures pending
   -Able to wean down on vent settings to PSV, continue to wean as
   tolerated, continues to be too volume overloaded for safe extuation
   -plan for IP to place trach [**5-25**] as pt likely to need longer term
   diuresis
   -continue to treat PCP with [**Name9 (PRE) **] / pentamidine and IV steroids
   -LDH improving, continue to trend, f/u repeat glucan
   -diurese- goal I/O negative 1 liter, give 1 dose 20mg IV
 check I/O Q6
   .
   # CMV: VL  greater than 100,000.  Started Gancyclovir.
   -resend CMV Viral load - pending
   -per ID send q5 days
   -BAL to r/o CMV pneumonitis, if + can use CMV specific IgG for
   treatment
 results pending
   -f/u IgG levels are normal following IVIG
   -diarrhea somewhat improving however does persist and no direct
   evidence of CMV yet obtained, not bloody diarrhea.  Send C diff x 2
   negative to date
   -GCSF to keep ANC > 1000
 continues to decline despite GCSF
 given
   declining counts will change treatment to foscarnet
   .
   #MSSA bacteremia: TTE negative, unable to perform TEE.
   -on 1g q12hrs of vancomycin for possible endocarditis, surveillance
   cultures negative
   .
   #Volume:  negative 2L yest with lasix 20mg IV X2
   .
   # Leukopenia: most recent chemo was remote [**4-14**].
   -add on granulocyte count when WBC low, likely related to marrow
   suppression due to gancyclovir
 plan to change to foscarnet today
   - continue GCSF
 currently day 3
 ANC decreased to less than 200 this
   am despite G-CSF
   .
   #. Anemia: continue to trend daily
   -stable
   # Pain: on fentanyl patch and IV fentanyl.  Pain well controlled.
   .
   # Anxiety / depression: qhs ativan 3mg.  standing and prn ativan.
   -          Continue celexa 10mg po daily
   -          Will trial seroquel prn at night
   .
   #Breast CA: Progressive and metastatic.
   -Defer to onc team
 has shown some response to therapy on basis of
   tumor markers and will likely get palliative chemotherapy pending
   improvement in PCP.
   .
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
   - CXR [**5-18**] "Right clavicular fracture with apparent increased
   distraction of the fracture fragments; however, may be projectional.
   .
   # Nutrition: Tolerating tube feeds , hold prior to trach, d/w IP timing
   of trach
   .
   # Access: PICC line
   A line - Pt [**Name (NI) 3062**] [**5-24**]
   ICU Care
   Nutrition:  Tube Feeds
   Glycemic Control:  BS well controlled
   Lines:
   PICC Line - [**2161-5-11**] 09:51 AM
   A line
d [**5-24**]
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  HOB elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2161-05-26 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Difficult trach anatomy therefore needs to go to OR for trach. Plan to
   go today
   Negative 2L at midnight
   Switched gancyclovir to  foscarnet as progressively neutropenic
   Cked LFTs, LDH trending down
   Tapered down steroids (completed 21 d course)
   Per ID: sigmoidoscopy may be helpful to get tissue diagnosis of CMV-
   need to talk to GI today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gancyclovir - [**2161-5-25**] 11:06 AM
   Caspofungin - [**2161-5-25**] 06:48 PM
   Vancomycin - [**2161-5-25**] 08:18 PM
   Foscarnet - [**2161-5-25**] 10:12 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2161-5-25**] 05:28 PM
   Lorazepam (Ativan) - [**2161-5-25**] 08:10 PM
   Fentanyl - [**2161-5-26**] 05:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-26**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.5
   HR: 93 (78 - 114) bpm
   BP: 94/67(73) {90/59(66) - 141/98(107)} mmHg
   RR: 25 (14 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.7 kg (admission): 67 kg
   Height: 60 Inch
    CVP: 12 (12 - 12)mmHg
   Total In:
                                                                  1,741 mL
                                                                    211 mL
   PO:
   TF:
                                                                      1 mL
   IVF:
                                                                  1,530 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                  3,715 mL
                                                                    760 mL
   Urine:
                                                                  3,715 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,974 mL
                                                                   -550 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 342 (278 - 350) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 269
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ///36/
   Ve: 9.9 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: bilateral scattered
   ronchi)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   143 K/uL
   9.8 g/dL
   54 mg/dL
   0.1 mg/dL
   36 mEq/L
   3.2 mEq/L
   10 mg/dL
   92 mEq/L
   136 mEq/L
   27.8 %
   0.6 K/uL
         [image002.jpg]
                             [**2161-5-23**]  03:48 AM
                             [**2161-5-24**]  04:26 AM
                             [**2161-5-24**]  05:36 AM
                             [**2161-5-24**]  12:00 PM
                             [**2161-5-24**]  01:29 PM
                             [**2161-5-24**]  10:00 PM
                             [**2161-5-25**]  05:26 AM
                             [**2161-5-25**]  02:52 PM
                             [**2161-5-25**]  09:42 PM
                             [**2161-5-26**]  04:44 AM
   WBC
   0.8
   0.5
   0.6
   Hct
   23.6
   25.7
   27.8
   Plt
   128
   138
   143
   Cr
   0.2
   0.2
   0.2
   0.1
   0.2
   0.1
   TCO2
   34
   38
   37
   Glucose
   146
   116
   161
   83
   54
   Other labs: PT / PTT / INR:13.4/47.5/1.2, ALT / AST:41/38, Alk Phos / T
   Bili:193/0.5, Amylase / Lipase:28/25, Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.0 g/dL, LDH:368 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.7
   mg/dL
   Microbiology: C diff negative [**5-23**] and [**5-25**]
   BAL negative PCP
   CMV VL serum pending
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
   #Repiratory failure: PCP pneumonia complicated by ARDS.
   -BAL performed on [**5-23**] to r/o CMV pneumonitis
 cultures pending
   -Able to wean down on vent settings to PSV, continue to wean as
   tolerated, continues to be too volume overloaded for safe extuation
   -plan for IP to place trach [**5-25**] as pt likely to need longer term
   diuresis
   -continue to treat PCP with [**Name9 (PRE) **] / pentamidine and IV steroids
   -LDH improving, continue to trend, f/u repeat glucan
   -diurese- goal I/O negative 1 liter, give 1 dose 20mg IV
 check I/O Q6
   # CMV: VL  greater than 100,000.  Started Gancyclovir.
   -resend CMV Viral load - pending
   -per ID send q5 days
   -BAL to r/o CMV pneumonitis, if + can use CMV specific IgG for
   treatment
 results pending
   -f/u IgG levels are normal following IVIG
   -diarrhea somewhat improving however does persist and no direct
   evidence of CMV yet obtained, not bloody diarrhea.  Send C diff x 2
   negative to date
   -GCSF to keep ANC > 1000
 continues to decline despite GCSF
 given
   declining counts will change treatment to foscarnet
   -call GI to perform Sigmoidoscopy to eval for end organ damage
   #MSSA bacteremia: TTE negative, unable to perform TEE.
   -on 1g q12hrs of vancomycin for possible endocarditis, surveillance
   cultures negative
   #Volume:  negative 2L yest with lasix 20mg IV X2
   # Leukopenia: most recent chemo was remote [**4-14**].
   -add on granulocyte count when WBC low, likely related to marrow
   suppression due to gancyclovir
 plan to change to foscarnet today
   - continue GCSF
 currently day 3
 ANC decreased to less than 200 this
   am despite G-CSF
   #. Anemia: continue to trend daily
   -stable
   # Pain: on fentanyl patch and IV fentanyl.  Pain well controlled.
   # Anxiety / depression: qhs ativan 3mg.  standing and prn ativan.
   -          Continue celexa 10mg po daily
   -          Will trial seroquel prn at night
   #Breast CA: Progressive and metastatic.
   -Defer to onc team
 has shown some response to therapy on basis of
   tumor markers and will likely get palliative chemotherapy pending
   improvement in PCP.
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
   - CXR [**5-18**] "Right clavicular fracture with apparent increased
   distraction of the fracture fragments; however, may be projectional.
   # Nutrition: Tolerating tube feeds , hold prior to trach, d/w IP timing
   of trach
   # Access: PICC line
   A line - Pt [**Name (NI) 3062**] [**5-24**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2161-05-27 06:08:00 Physician Resident Progress Note
Chief Complaint: PCP / ARDS, CMV
   24 Hour Events:
 INVASIVE VENTILATION - START [**2161-5-26**] 08:30 AM
 URINE CULTURE - At [**2161-5-26**] 11:30 AM
 BLOOD CULTURED - At [**2161-5-26**] 11:30 AM
 BLOOD CULTURED - At [**2161-5-26**] 11:45 AM
 FEVER - 102.9
F - [**2161-5-26**] 11:00 AM
   Lytes repleted per scale
   Pentamidine for 6 more days (total 21 day course)
   Viral culture negative on BAL
   informally per onc neutropenia due to gancyclovir lasts 4-6 days
   UOP 30 cc and SBP 64 during sleep, 250cc x 1 then 500cc x 1 given
   levophed started for persistent SBPs in mid 60s
   MAPs and UOP improved with levophed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gancyclovir - [**2161-5-25**] 11:06 AM
   Caspofungin - [**2161-5-26**] 06:30 PM
   Vancomycin - [**2161-5-26**] 08:05 PM
   Foscarnet - [**2161-5-26**] 11:45 PM
   Cefipime - [**2161-5-27**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2161-5-26**] 07:33 AM
   Midazolam (Versed) - [**2161-5-26**] 07:45 AM
   Fentanyl - [**2161-5-26**] 05:28 PM
   Lorazepam (Ativan) - [**2161-5-26**] 08:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain
   Nutritional Support: Tube feeds
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea, No(t) Constipation
   Flowsheet Data as of  [**2161-5-27**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 36.4
C (97.5
   HR: 77 (71 - 118) bpm
   BP: 67/43(49) {67/43(49) - 132/87(105)} mmHg
   RR: 15 (15 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.3 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  3,771 mL
                                                                    953 mL
   PO:
             TF:
   IVF:
                                                                  3,541 mL
                                                                    953 mL
   Blood products:
   Total out:
                                                                  3,240 mL
                                                                    380 mL
   Urine:
                                                                  3,240 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    531 mL
                                                                    573 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 441 (289 - 441) mL
   PS : 12 cmH2O
   RR (Set): 0
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 77
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   116 K/uL
   8.2 g/dL
   82 mg/dL
   0.2 mg/dL
   31 mEq/L
   3.5 mEq/L
   12 mg/dL
   100 mEq/L
   142 mEq/L
   25.7 %
   0.2 K/uL
        [image002.jpg]
                             [**2161-5-24**]  05:36 AM
                             [**2161-5-24**]  12:00 PM
                             [**2161-5-24**]  01:29 PM
                             [**2161-5-24**]  10:00 PM
                             [**2161-5-25**]  05:26 AM
                             [**2161-5-25**]  02:52 PM
                             [**2161-5-25**]  09:42 PM
                             [**2161-5-26**]  04:44 AM
                             [**2161-5-26**]  03:47 PM
                             [**2161-5-27**]  04:44 AM
   WBC
   0.5
   0.6
   0.2
   Hct
   25.7
   27.8
   25.7
   Plt
   138
   143
   116
   Cr
   0.2
   0.2
   0.1
   0.2
   0.1
   0.2
   0.2
   TCO2
   38
   37
   Glucose
   116
   161
   83
   54
   87
   82
   Other labs: PT / PTT / INR:13.4/47.5/1.2, ALT / AST:41/38, Alk Phos / T
   Bili:193/0.5, Amylase / Lipase:28/25, Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.0 g/dL, LDH:368 IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.3
   mg/dL
   Microbiology: no new culture data
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
   #Repiratory failure: PCP pneumonia complicated by ARDS.
   -BAL performed on [**5-23**] to r/o CMV pneumonitis
  negative for CMV and
   PCP
   [**Name9 (PRE) 3103**] ID can stop pentamidine 21 days from start date of pentamidine,
   not PCP [**Name Initial (PRE) **].  Pentamidine started [**5-12**].
   -weaning steroids, currently on 10 q12 hours, continue to taper to 7mg
   [**Hospital1 **] for now
   -plan for trach however will hold off until no longer neutropenic if
   possible
   -LDH improving- resend tomorrow with LFTs tomorrow (also amylase and
   lipase)
   -goal i/o even
   # CMV: VL  greater than 100,000.
   -CMV viral load > 100,000, resend on [**5-29**]  (q5days)
   -C diff negative on [**5-23**] and [**5-25**], resend c diff given continued diarrhea
   -significant neutropenia given gancyclovir, switch to foscarnet, 250cc
   prior to and after each dose
   #MSSA bacteremia: TTE negative, unable to perform TEE.
   -on 1g q12hrs of vancomycin for possible endocarditis, surveillance
   cultures negative
   -f/u vanc level
   #Volume:  goal I/O even given need for nephrotoxic [**Doctor Last Name **]- foscarnet
   # Leukopenia: most recent chemo was remote [**4-14**].
   -likely due to gancyclovir
   -GCSF 480sc daily
   -switched to foscarnet
   #. Anemia: continue to trend daily
   -stable
   # Pain: on fentanyl patch and IV fentanyl.  Pain well controlled.
   # Anxiety / depression:
   -hold 3mg qhs ativan given hypotension especially while trying
   seroquel, prn ativan only
   -          Continue celexa 10mg po daily
   #Breast CA: Progressive and metastatic.
   -Defer to onc team
 has shown some response to therapy on basis of
   tumor markers and will likely get palliative chemotherapy pending
   improvement in PCP.
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
   # Nutrition: Tolerating tube feeds
   # Access: PICC line
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: LMW Heparin(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2161-05-28 08:09:00 Physician Resident Progress Note
Chief Complaint: PCP, [**Name10 (NameIs) **], [**Name11 (NameIs) 969**] bacteremia, metastatic breast CA
   [**76**] Hour Events:
   ID recs - send [**Year (2 digits) **] genotype for resistance testing
   - continue current abx
   - pt received IVF bolus for low BP including 250cc bolus overnight for
   SBP 68
   states she did not pull ET tube out when she was extubated.  Did not
   sleep last night w/ seroquel only.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gancyclovir - [**2161-5-25**] 11:06 AM
   Caspofungin - [**2161-5-27**] 06:30 PM
   Foscarnet - [**2161-5-27**] 11:36 PM
   Cefipime - [**2161-5-28**] 04:21 AM
   Vancomycin - [**2161-5-28**] 07:54 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2161-5-28**] 07:55 AM
   Ranitidine (Prophylaxis) - [**2161-5-28**] 07:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Cardiovascular: No(t) Chest pain, No(t) Edema
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2161-5-28**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 102 (80 - 109) bpm
   BP: 89/56(96) {70/46(52) - 121/93(100)} mmHg
   RR: 30 (19 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.3 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  4,417 mL
                                                                    529 mL
   PO:
             TF:
                                                                    410 mL
                                                                    242 mL
   IVF:
                                                                  3,847 mL
                                                                    287 mL
   Blood products:
   Total out:
                                                                  1,248 mL
                                                                    840 mL
   Urine:
                                                                  1,248 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,169 mL
                                                                   -312 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 360 (344 - 415) mL
   PS : 12 cmH2O
   RR (Spontaneous): 32
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 120
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: ///33/
   Ve: 12.3 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Obese
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   103 K/uL
   7.6 g/dL
   96 mg/dL
   0.2 mg/dL
   33 mEq/L
   2.6 mEq/L
   16 mg/dL
   103 mEq/L
   142 mEq/L
   24.2 %
   0.2 K/uL
        [image002.jpg]
                             [**2161-5-24**]  01:29 PM
                             [**2161-5-24**]  10:00 PM
                             [**2161-5-25**]  05:26 AM
                             [**2161-5-25**]  02:52 PM
                             [**2161-5-25**]  09:42 PM
                             [**2161-5-26**]  04:44 AM
                             [**2161-5-26**]  03:47 PM
                             [**2161-5-27**]  04:44 AM
                             [**2161-5-28**]  04:24 AM
                             [**2161-5-28**]  05:54 AM
   WBC
   0.5
   0.6
   0.2
   0.2
   0.2
   Hct
   25.7
   27.8
   25.7
   21.2
   24.2
   Plt
   138
   143
   116
   92
   103
   Cr
   0.2
   0.2
   0.1
   0.2
   0.1
   0.2
   0.2
   0.2
   0.2
   TCO2
   37
   Glucose
   161
   83
   54
   87
   82
   73
   96
   Other labs: PT / PTT / INR:13.4/47.5/1.2, ALT / AST:27/27, Alk Phos / T
   Bili:128/0.6, Amylase / Lipase:[**11-28**], Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.4 g/dL, LDH:278 IU/L, Ca++:7.3 mg/dL, Mg++:1.8 mg/dL, PO4:1.0
   mg/dL
   Micro: no new culture data, C diff negative x 3
   Send [**Month/Year (2) **] viral load today
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
   #Repiratory failure: PCP pneumonia complicated by ARDS.
   -BAL performed on [**5-23**] to r/o [**Month/Day (4) **] pneumonitis
  negative for [**Month/Day (4) **] and
   PCP
   [**Name9 (PRE) 3103**] ID can stop pentamidine 21 days from start date of pentamidine,
   not PCP [**Name Initial (PRE) **].  Pentamidine started [**5-12**].
   -weaning steroids, currently on 10 q12 hours, continue to taper to 7mg
   [**Hospital1 **] for now
   -plan for trach however will hold off until no longer neutropenic if
   possible
   -LDH improving- resend tomorrow with LFTs tomorrow (also amylase and
   lipase)
   -goal i/o even
   # [**Hospital1 **]: VL  greater than 100,000.
   -[**Hospital1 **] viral load > 100,000, resend on [**5-29**]  (q5days)
   -C diff negative on [**5-23**] and [**5-25**], resend c diff given continued diarrhea
   -significant neutropenia given gancyclovir, switch to foscarnet, 250cc
   prior to and after each dose
   -[**Hospital1 **] lytes while on foscarnet, lytes sliding scales
   #[**Hospital1 969**] bacteremia: TTE negative, unable to perform TEE.
   -on 1g q12hrs of vancomycin for possible endocarditis, surveillance
   cultures negative
   -f/u vanc level
   #Volume:  goal I/O even given need for nephrotoxic [**Doctor Last Name **]- foscarnet
   # Leukopenia: most recent chemo was remote [**4-14**].
   -likely due to gancyclovir
   -GCSF 480sc daily
   -switched to foscarnet
   #. Anemia: continue to trend daily
   -stable
   # Pain: on fentanyl patch and IV fentanyl.  Pain well controlled.
   # Anxiety / depression:
   -prn ativan
   -Continue celexa 10mg po daily
   - try ambien for sleep, d/c seroquel
   #Breast CA: Progressive and metastatic.
   -Defer to onc team
 has shown some response to therapy on basis of
   tumor markers and will likely get palliative chemotherapy pending
   improvement in PCP.
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
   # Nutrition: Tolerating tube feeds
   # Access: PICC line
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2161-5-27**] 07:30 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2161-05-29 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   PICC pulled back 4 cm. Now in correct position
   Patient more tachycardic on PS 8/Peep 5. Increased PEEP to 8 with no
   improvement in rate. Increased PS to 12 and HR improved.
   Started lasix gtt. Negative 1.7L at 11pm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2161-5-28**] 06:24 PM
   Vancomycin - [**2161-5-28**] 07:34 PM
   Foscarnet - [**2161-5-29**] 12:08 AM
   Cefipime - [**2161-5-29**] 03:33 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2161-5-28**] 07:55 AM
   Ranitidine (Prophylaxis) - [**2161-5-28**] 07:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Psychiatric / Sleep: slept well, no anxiety this a.m.
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2161-5-29**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.7
   HR: 90 (83 - 122) bpm
   BP: 82/51(57) {72/47(56) - 133/85(97)} mmHg
   RR: 29 (20 - 42) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.3 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  3,674 mL
                                                                    396 mL
   PO:
             TF:
                                                                    538 mL
                                                                    189 mL
   IVF:
                                                                  2,896 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                  5,620 mL
                                                                    820 mL
   Urine:
                                                                  5,620 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,946 mL
                                                                   -424 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 325 (307 - 390) mL
   PS : 12 cmH2O
   RR (Spontaneous): 32
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: ///35/
   Ve: 10.6 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   91 K/uL
   7.1 g/dL
   173 mg/dL
   0.2 mg/dL
   35 mEq/L
   3.5 mEq/L
   15 mg/dL
   100 mEq/L
   143 mEq/L
   21.7 %
   0.2 K/uL
        [image002.jpg]
                             [**2161-5-25**]  02:52 PM
                             [**2161-5-25**]  09:42 PM
                             [**2161-5-26**]  04:44 AM
                             [**2161-5-26**]  03:47 PM
                             [**2161-5-27**]  04:44 AM
                             [**2161-5-28**]  04:24 AM
                             [**2161-5-28**]  05:54 AM
                             [**2161-5-28**]  03:05 PM
                             [**2161-5-28**]  11:29 PM
                             [**2161-5-29**]  04:28 AM
   WBC
   0.6
   0.2
   0.2
   0.2
   0.2
   Hct
   27.8
   25.7
   21.2
   24.2
   21.7
   Plt
   143
   116
   92
   103
   91
   Cr
   0.1
   0.2
   0.1
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   Glucose
   54
   87
   82
   73
   96
   258
   173
   Other labs: PT / PTT / INR:13.4/47.5/1.2, ALT / AST:27/27, Alk Phos / T
   Bili:128/0.6, Amylase / Lipase:[**11-28**], Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.4 g/dL, LDH:278 IU/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:1.5
   mg/dL
   Imaging: CXR [**5-28**]: 1. Standard placement of right PIC line with tip in
   mid SVC. No significant
   change to widespread parenchymal opacities consistent with PCP
   [**Name Initial (PRE) 2894**].
   Microbiology: [**5-28**] CMV VL pending
   no new culture data
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
   #Repiratory failure: PCP pneumonia complicated by ARDS.
   -per ID can stop pentamidine 21 days from start date of pentamidine,
   not PCP [**Name Initial (PRE) **].  Pentamidine started [**5-12**] can stop on [**2161-6-1**].
   -weaning steroids, now on solumedrol 7mg IV bid, today switch to 10mg
   daily of prednisone
   -f/u LFTs amylase / lipase q3 days
   -volume overload- diurese with Lasix drip goal I/O negative 1 liter per
   day, may need to stop during night due to hypotension she usually has
   during sleep
   # CMV: VL  greater than 100,000.
   -repeat pending
   -c diff negative x 3
   -on foscarnet, [**Hospital1 **] lytes and replete aggressively, may need to increase
   to tid lytes
   -f/u ganciclovir resistance testing
   -per ID plan to start cytogam, d/w pharmacy starting this
   #MSSA bacteremia: TTE negative, unable to perform TEE.
   -on 1g q12hrs of vancomycin for possible endocarditis, surveillance
   cultures negative
   # Leukopenia: most recent chemo was remote [**4-14**].
   -likely due to gancyclovir or possibly due to CMV
   -GCSF 480sc daily
   -switched to foscarnet
   -f/u daily ANC
   #. Anemia: continue to trend daily
   -stable
   # Pain: on fentanyl patch and IV fentanyl.  Pain well controlled.
   # Anxiety / depression:
   -prn ativan
   -Continue celexa 10mg po daily, consider increasing to 20mg daily in 1
   week
   - seroquel qhs
   #Breast CA: Progressive and metastatic.
   -Defer to onc team
 has shown some response to therapy on basis of
   tumor markers and will likely get palliative chemotherapy pending
   improvement in PCP.
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
   # Nutrition: Tolerating tube feeds
   # Access: PICC line
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2161-5-29**] 05:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2161-5-11**] 09:51 AM
   22 Gauge - [**2161-5-28**] 04:10 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2161-05-29 10:00:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   lasix gtts 1.7 L negative
   had to go back up from [**7-21**] to [**11-23**] overnight for dyspnea
   anc remains low, trach on hold
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2161-5-28**] 06:24 PM
   Foscarnet - [**2161-5-29**] 12:08 AM
   Cefipime - [**2161-5-29**] 03:33 AM
   Vancomycin - [**2161-5-29**] 07:43 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2161-5-29**] 08:05 AM
   Ranitidine (Prophylaxis) - [**2161-5-29**] 08:06 AM
   Lorazepam (Ativan) - [**2161-5-29**] 09:22 AM
   Other medications:
   Vanco
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-29**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.4
   HR: 117 (83 - 122) bpm
   BP: 121/80(90) {72/47(56) - 157/85(97)} mmHg
   RR: 39 (20 - 42) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65.3 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  3,674 mL
                                                                    841 mL
   PO:
             TF:
                                                                    538 mL
                                                                    255 mL
   IVF:
                                                                  2,896 mL
                                                                    406 mL
   Blood products:
   Total out:
                                                                  5,620 mL
                                                                  1,770 mL
   Urine:
                                                                  5,620 mL
                                                                  1,770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,946 mL
                                                                   -929 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 338 (273 - 390) mL
   PS : 12 cmH2O
   RR (Spontaneous): 38
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   SpO2: 94%
   ABG: ///35/
   Ve: 13.1 L/min
   Physical Examination
   Gen: alert, lying in bed, Tachypneic
   CV; RR
   Chest: fair air movement, right greater than left rhonci
   Abd: distened soft + BS
   Neurologic: Responds to: verbal stimuli
   Labs / Radiology
   7.1 g/dL
   91 K/uL
   173 mg/dL
   0.2 mg/dL
   35 mEq/L
   3.5 mEq/L
   15 mg/dL
   100 mEq/L
   143 mEq/L
   21.7 %
   0.2 K/uL
        [image002.jpg]
                             [**2161-5-25**]  02:52 PM
                             [**2161-5-25**]  09:42 PM
                             [**2161-5-26**]  04:44 AM
                             [**2161-5-26**]  03:47 PM
                             [**2161-5-27**]  04:44 AM
                             [**2161-5-28**]  04:24 AM
                             [**2161-5-28**]  05:54 AM
                             [**2161-5-28**]  03:05 PM
                             [**2161-5-28**]  11:29 PM
                             [**2161-5-29**]  04:28 AM
   WBC
   0.6
   0.2
   0.2
   0.2
   0.2
   Hct
   27.8
   25.7
   21.2
   24.2
   21.7
   Plt
   143
   116
   92
   103
   91
   Cr
   0.1
   0.2
   0.1
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   Glucose
   54
   87
   82
   73
   96
   258
   173
   Other labs: PT / PTT / INR:13.4/47.5/1.2, ALT / AST:27/27, Alk Phos / T
   Bili:128/0.6, Amylase / Lipase:[**11-28**], Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.4 g/dL, LDH:278 IU/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:1.5
   mg/dL
   Imaging: CXR: interstitial edema
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], in MICU since [**5-2**] presented with septic shock, MSSA bacteremia,
   PCP pneumonia and ARDS, CMV viremia.
   Total 21 days pentamidine (stop [**6-1**]) follow amylase and lipase
   Foscarnet for CMV viremia
   Tapering steroids (had been for PCP) switch to prednisone 10 mg Qd
   today
   1. Resp Failure: Prolonged mech ventilation with ETT, neutropenia
   following ganciclovir and subsequent neutropenic fever, added
   Cefipime.Holding off on trach due to counts. She will benefit from
   trach despite concerns that she  may never be vent-independent, as she
   will be much more comfortable. Massively volume overloaded, but
   difficult to diurese given large volume load with foscarnet and
   pentamidine, and hypotension usually during the night. able to get 1.7
   L neg yesterday and will try for 1L 24 net today.  Watch Cr closely
   2. CMV with high viral load. Pending ganciclovir resistance testing to
   determine if need to treat as if Foscarnet is start of therapy.
   3. MSSA bacteremia- on vancomycin for presumed endocarditis (could not
   undergo TEE), surveillance cultures negative
   4. remainder of issues as per resident notes
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2161-5-29**] 05:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2161-5-11**] 09:51 AM
   22 Gauge - [**2161-5-28**] 04:10 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  with husband
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2161-05-30 07:12:00 Physician Resident Progress Note
Chief Complaint: PCP [**Name Initial (PRE) 1035**]. CMV Viremia
   24 Hour Events:
   No events overnight. HCT dropped to 19 and was transfused 1U PRBC.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2161-5-29**] 07:30 PM
   Vancomycin - [**2161-5-29**] 09:30 PM
   Foscarnet - [**2161-5-30**] 12:00 AM
   Cefipime - [**2161-5-30**] 04:00 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2161-5-29**] 08:05 AM
   Ranitidine (Prophylaxis) - [**2161-5-29**] 08:06 AM
   Lorazepam (Ativan) - [**2161-5-29**] 09:22 AM
   Fentanyl - [**2161-5-29**] 02:38 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-30**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.6
C (97.9
   HR: 91 (80 - 117) bpm
   BP: 107/58(67) {72/49(54) - 157/85(94)} mmHg
   RR: 22 (19 - 43) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.3 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  3,197 mL
                                                                  1,112 mL
   PO:
             TF:
                                                                    682 mL
                                                                    214 mL
   IVF:
                                                                  2,215 mL
                                                                    898 mL
   Blood products:
   Total out:
                                                                  3,990 mL
                                                                    685 mL
   Urine:
                                                                  3,990 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -793 mL
                                                                    427 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 370 (273 - 370) mL
   PS : 12 cmH2O
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 116
   PIP: 21 cmH2O
   SpO2: 96%
   ABG: ///38/
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   76 K/uL
   6.5 g/dL
   115 mg/dL
   0.2 mg/dL
   38 mEq/L
   2.8 mEq/L
   13 mg/dL
   98 mEq/L
   143 mEq/L
   19.9 %
   0.2 K/uL
        [image002.jpg]
                             [**2161-5-26**]  04:44 AM
                             [**2161-5-26**]  03:47 PM
                             [**2161-5-27**]  04:44 AM
                             [**2161-5-28**]  04:24 AM
                             [**2161-5-28**]  05:54 AM
                             [**2161-5-28**]  03:05 PM
                             [**2161-5-28**]  11:29 PM
                             [**2161-5-29**]  04:28 AM
                             [**2161-5-29**]  04:38 PM
                             [**2161-5-30**]  05:45 AM
   WBC
   0.6
   0.2
   0.2
   0.2
   0.2
   0.3
   0.2
   Hct
   27.8
   25.7
   21.2
   24.2
   21.7
   24.0
   19.9
   Plt
   143
   116
   92
   103
   91
   97
   76
   Cr
   0.1
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   0.3
   0.2
   Glucose
   54
   87
   82
   73
   96
   258
   173
   115
   Other labs: PT / PTT / INR:13.4/47.5/1.2, ALT / AST:27/27, Alk Phos / T
   Bili:128/0.6, Amylase / Lipase:[**11-28**], Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.4 g/dL, LDH:248 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.9
   mg/dL
   Microbiology: CMV Genotype - Pending
   Glucan - Pending
   Galactomannam - Pending
   C Diff toxin B - Pending
   Time Taken Not Noted     Log-In Date/Time: [**2161-5-29**] 5:46 am
         Immunology (CMV)
      CMV Viral Load (Pending06/11/08 8:25 am STOOL     CONSISTENCY:
   SOFT      Source: Stool.
                               **FINAL REPORT [**2161-5-27**]**
      CLOSTRIDIUM DIFFICILE TOXIN ASSAY (Final [**2161-5-27**]):
         FECES NEGATIVE FOR C. DIFFICILE TOXIN BY EIA.
              (Reference Range-Negative).
   Blood Cx [**5-26**] - NGTD
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
    .
   #Repiratory failure: PCP pneumonia complicated by ARDS.
   -per ID can stop pentamidine 21 days from start date of pentamidine,
   not PCP [**Name Initial (PRE) **].  Pentamidine started [**5-12**] can stop on [**2161-6-1**].
   -weaning steroids continue 10mg daily of prednisone
   -f/u LFTs amylase / lipase q3 days
   -volume overload- diurese with Lasix drip goal I/O negative 1 liter per
   day, may need to stop during night due to hypotension she usually has
   during sleep
   .
   # CMV: VL  greater than 100,000.
   -repeat pending
   -c diff negative x 3
   -on foscarnet, [**Hospital1 **] lytes and replete aggressively, may need to increase
   to tid lytes
   -f/u ganciclovir resistance testing - pending
   -per ID plan to start cytogam, d/w pharmacy starting this
   .
   #MSSA bacteremia: TTE negative, unable to perform TEE.
   -on 1g q12hrs of vancomycin for possible endocarditis, surveillance
   cultures negative
   .
   # Leukopenia: most recent chemo was remote [**4-14**].
   -likely due to gancyclovir or possibly due to CMV
   -GCSF 480sc daily
   -switched to foscarnet
   -f/u daily ANC
 50 today
   .
   #. Anemia: continue to trend daily
   -stable
   .
   # Pain: on fentanyl patch and IV fentanyl.  Pain well controlled.
   .
   # Anxiety / depression:
   -prn ativan
   -Continue celexa 10mg po daily, consider increasing to 20mg daily in 1
   week
   - seroquel qhs
   .
   #Breast CA: Progressive and metastatic.
   -Defer to onc team
 has shown some response to therapy on basis of
   tumor markers and will likely get palliative chemotherapy pending
   improvement in PCP.
   .
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
   .
   # Nutrition: Tolerating tube feeds
   .
   # Access: PICC line
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2161-5-29**] 05:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2161-05-30 09:09:00 Physician Attending Progress Note
Chief Complaint: Pneumonia
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   61 yo women with metastic Breast CA, admitted with PCP and CMV PNA,
   ARDS, currently neutropenic was treated with pentamidine and foscarnet
   for resistent disease.  Awaiting tracheostomy.
   24 Hour Events:
   Required transfusion of 1 unit for slowly drifting Hct.
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2161-5-29**] 07:30 PM
   Foscarnet - [**2161-5-30**] 12:00 AM
   Cefipime - [**2161-5-30**] 04:00 AM
   Vancomycin - [**2161-5-30**] 07:49 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2161-5-29**] 09:22 AM
   Fentanyl - [**2161-5-29**] 02:38 PM
   Other medications:
   zantac
   neurontin
   lido patch
   celexa
   lovenox
   chlorhexadine
   neupogen
   pentamidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-30**] 09:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.6
C (97.9
   HR: 91 (80 - 117) bpm
   BP: 107/58(67) {72/49(54) - 130/85(94)} mmHg
   RR: 22 (19 - 43) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.3 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  3,197 mL
                                                                  1,298 mL
   PO:
             TF:
                                                                    682 mL
                                                                    268 mL
   IVF:
                                                                  2,215 mL
                                                                  1,030 mL
   Blood products:
   Total out:
                                                                  3,990 mL
                                                                    685 mL
   Urine:
                                                                  3,990 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -793 mL
                                                                    613 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 322 (300 - 370) mL
   PS : 12 cmH2O
   RR (Spontaneous): 30
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 116
   PIP: 21 cmH2O
   SpO2: 96%
   ABG: ///38/
   Ve: 11.7 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.5 g/dL
   76 K/uL
   115 mg/dL
   0.2 mg/dL
   38 mEq/L
   2.8 mEq/L
   13 mg/dL
   98 mEq/L
   143 mEq/L
   19.9 %
   0.2 K/uL
        [image002.jpg]
                             [**2161-5-26**]  04:44 AM
                             [**2161-5-26**]  03:47 PM
                             [**2161-5-27**]  04:44 AM
                             [**2161-5-28**]  04:24 AM
                             [**2161-5-28**]  05:54 AM
                             [**2161-5-28**]  03:05 PM
                             [**2161-5-28**]  11:29 PM
                             [**2161-5-29**]  04:28 AM
                             [**2161-5-29**]  04:38 PM
                             [**2161-5-30**]  05:45 AM
   WBC
   0.6
   0.2
   0.2
   0.2
   0.2
   0.3
   0.2
   Hct
   27.8
   25.7
   21.2
   24.2
   21.7
   24.0
   19.9
   Plt
   143
   116
   92
   103
   91
   97
   76
   Cr
   0.1
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   0.3
   0.2
   Glucose
   54
   87
   82
   73
   96
   258
   173
   115
   Other labs: PT / PTT / INR:13.4/47.5/1.2, ALT / AST:27/27, Alk Phos / T
   Bili:128/0.6, Amylase / Lipase:[**11-28**], Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.4 g/dL, LDH:248 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.9
   mg/dL
   Microbiology: glucan and galactomannan
   blood cultures recently negative
   Assessment and Plan
   PCP [**Name Initial (PRE) 1035**]/ARDS:  Continue pentamidine and caspo until [**6-11**]
   Fluid overload:  continue lasix drip goal 1L negative.  Replete K
   CMV PNA: continue treating with foscarnet
   MSSA Bactermia:  Vanco
   Anemia:  Transfuse as needed
   Pain: On fentanyl patch
   Nutrition: TFs
   Full code
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2161-5-29**] 05:00 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2161-05-31 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   self-DC'd OG tube nursing unable to replace o/n [**1-17**] agitation
   kept even o/n w/ lasix gtt - rising bicarb
   ANC 50
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2161-5-30**] 08:09 PM
   Cefipime - [**2161-5-30**] 08:09 PM
   Caspofungin - [**2161-5-30**] 09:00 PM
   Foscarnet - [**2161-5-31**] 12:06 AM
   Infusions:
   Furosemide (Lasix) - 0.5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-31**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.7
   HR: 85 (84 - 109) bpm
   BP: 81/52(57) {81/52(57) - 137/95(100)} mmHg
   RR: 30 (23 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.3 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  4,787 mL
                                                                    258 mL
   PO:
             TF:
                                                                    542 mL
   IVF:
                                                                  2,910 mL
                                                                    258 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  5,050 mL
                                                                  1,100 mL
   Urine:
                                                                  4,575 mL
                                                                  1,100 mL
   NG:
   Stool:
                                                                    475 mL
   Drains:
   Balance:
                                                                   -263 mL
                                                                   -842 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 340 (317 - 370) mL
   PS : 12 cmH2O
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 140
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: ///40/
   Ve: 9.2 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   84 K/uL
   8.6 g/dL
   64 mg/dL
   0.1 mg/dL
   40 mEq/L
   2.9 mEq/L
   12 mg/dL
   95 mEq/L
   145 mEq/L
   26.1 %
   0.3 K/uL
        [image002.jpg]
                             [**2161-5-27**]  04:44 AM
                             [**2161-5-28**]  04:24 AM
                             [**2161-5-28**]  05:54 AM
                             [**2161-5-28**]  03:05 PM
                             [**2161-5-28**]  11:29 PM
                             [**2161-5-29**]  04:28 AM
                             [**2161-5-29**]  04:38 PM
                             [**2161-5-30**]  05:45 AM
                             [**2161-5-30**]  04:29 PM
                             [**2161-5-31**]  04:11 AM
   WBC
   0.2
   0.2
   0.2
   0.2
   0.3
   0.2
   0.3
   Hct
   25.7
   21.2
   24.2
   21.7
   24.0
   19.9
   24.7
   26.1
   Plt
   116
   92
   103
   91
   97
   76
   84
   Cr
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   0.3
   0.2
   0.2
   0.1
   Glucose
   82
   73
   96
   258
   173
   115
   104
   64
   Other labs: PT / PTT / INR:13.4/47.5/1.2, ALT / AST:27/27, Alk Phos / T
   Bili:128/0.6, Amylase / Lipase:[**11-28**], Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.4 g/dL, LDH:248 IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:2.0
   mg/dL
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
    .
   #Repiratory failure: PCP pneumonia complicated by ARDS.
   -per ID can stop pentamidine 21 days from start date of pentamidine,
   not PCP [**Name Initial (PRE) **].  Pentamidine started [**5-12**] can stop on [**2161-6-1**].
   -weaning steroids continue 10mg daily of prednisone
   -f/u LFTs amylase / lipase q3 days
   -volume overload- diurese with Lasix drip goal I/O negative 1 liter per
   day
   .
   # CMV: VL  greater than 100,000.  Continues to have moderate diarrhea.
   ? Secondary to CMV.
   - F/U viral load pending
   -repeat pending
   -c diff negative x 3
   -on foscarnet, [**Hospital1 **] lytes and replete aggressively, may need to increase
   to tid lytes
   -f/u ganciclovir resistance testing - pending
   -per ID plan to start cytogam, d/w pharmacy
 possibly available on
   Monday
   .
   #MSSA bacteremia: TTE negative, unable to perform TEE.
   -on 1g q12hrs of vancomycin for possible endocarditis, surveillance
   cultures negative
   - continue 6 week course
   .
   # Leukopenia: most recent chemo was remote [**4-14**].
   -likely due to gancyclovir or possibly due to CMV
   -GCSF 480sc daily
   -switched to foscarnet
   -f/u daily ANC
 50 today
   - add cytogam with hope that if CMV is causing bone marrow suppression,
   more aggressive treatment wil help her counts  recover
   .
   # Altered mental status: Answers questions appropriately but unable to
   communicate with letter board which is new. [**Month (only) 60**] be secondary to
   oversedation with pain control, benzos or toxic/metabolic
   - monitor clinically
   #. Anemia: continue to trend daily
   -stable
   .
   # Pain: on fentanyl patch and IV fentanyl.  Pain well controlled.
   .
   # Anxiety / depression:
   -prn ativan
   -Continue celexa
   - seroquel qhs
   .
   # Thrush:
   - started nystatin
   .
   #Breast CA: Progressive and metastatic.
   -F/U Onc recs
   - hol off further therapy for now
   .
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
   .
   # Nutrition: Tolerating tube feeds
   .
   # Access: PICC line
   .
   # Code: FULL
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-05-31 12:25:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo women with Breast CA, admitted with PCP PNA and CMV, ARDS
   24 Hour Events:
   ?more confused and agitated overnight.
   Pulled out OG tube.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2161-5-30**] 09:00 PM
   Foscarnet - [**2161-5-31**] 12:06 AM
   Cefipime - [**2161-5-31**] 08:20 AM
   Vancomycin - [**2161-5-31**] 09:06 AM
   Infusions:
   Furosemide (Lasix) - 0.5 mg/hour
   Other ICU medications:
   Other medications:
   zantac
   neurontin
   lido patch
   celexa
   ativan
   lovenox
   atrovent
   chlorhexidine
   lasix drip.
   neupogen
   foscarnet
   nuetrophos
   prednisone
   nystatin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-5-31**] 12:25 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.7
C (98.1
   HR: 101 (84 - 107) bpm
   BP: 101/73(80) {81/52(57) - 137/95(100)} mmHg
   RR: 33 (20 - 37) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65.3 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  4,787 mL
                                                                    969 mL
   PO:
             TF:
                                                                    542 mL
   IVF:
                                                                  2,910 mL
                                                                    969 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  5,050 mL
                                                                  2,490 mL
   Urine:
                                                                  4,575 mL
                                                                  2,090 mL
   NG:
   Stool:
                                                                    475 mL
   Drains:
   Balance:
                                                                   -263 mL
                                                                 -1,519 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 368 (317 - 410) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 140
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: ///40/
   Ve: 9.4 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: oral thrush
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: bases, Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   84 K/uL
   64 mg/dL
   0.1 mg/dL
   40 mEq/L
   2.9 mEq/L
   12 mg/dL
   95 mEq/L
   145 mEq/L
   26.1 %
   0.3 K/uL
        [image002.jpg]
                             [**2161-5-27**]  04:44 AM
                             [**2161-5-28**]  04:24 AM
                             [**2161-5-28**]  05:54 AM
                             [**2161-5-28**]  03:05 PM
                             [**2161-5-28**]  11:29 PM
                             [**2161-5-29**]  04:28 AM
                             [**2161-5-29**]  04:38 PM
                             [**2161-5-30**]  05:45 AM
                             [**2161-5-30**]  04:29 PM
                             [**2161-5-31**]  04:11 AM
   WBC
   0.2
   0.2
   0.2
   0.2
   0.3
   0.2
   0.3
   Hct
   25.7
   21.2
   24.2
   21.7
   24.0
   19.9
   24.7
   26.1
   Plt
   116
   92
   103
   91
   97
   76
   84
   Cr
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   0.3
   0.2
   0.2
   0.1
   Glucose
   82
   73
   96
   258
   173
   115
   104
   64
   Other labs: PT / PTT / INR:13.4/47.5/1.2, ALT / AST:27/27, Alk Phos / T
   Bili:128/0.6, Amylase / Lipase:[**11-28**], Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.4 g/dL, LDH:248 IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:2.0
   mg/dL
   Assessment and Plan
   Respiratory Failure/PCP [**Name Initial (PRE) 1035**]/ARDS:  Slow PSV wean., continue pentamidine
   and caspo day 19/21 as per ID
   CMV PNA: VL pending.  Follow lytes on foscarnet.  dose cytogam
   MSSA bacteremia/SBE: Vanco Day 33/49
   Pain control: On fentanyl patch
   Nutrion: Restart TFs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2161-06-01 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Did not get cytogam over the weekend.
   In AM, became more tachypneic; Did not improve with benzos, sedation.
   Improved with increase in Fi02.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2161-5-31**] 06:06 PM
   Vancomycin - [**2161-5-31**] 07:32 PM
   Foscarnet - [**2161-5-31**] 11:24 PM
   Cefipime - [**2161-5-31**] 11:31 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2161-6-1**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 93 (88 - 107) bpm
   BP: 74/51(56) {62/41(46) - 131/88(95)} mmHg
   RR: 23 (23 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.3 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  3,436 mL
                                                                    367 mL
   PO:
             TF:
                                                                    345 mL
                                                                    193 mL
   IVF:
                                                                  2,671 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  3,748 mL
                                                                    340 mL
   Urine:
                                                                  3,348 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -312 mL
                                                                     27 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (320 - 350) mL
   Vt (Spontaneous): 320 (303 - 410) mL
   PS : 15 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   SpO2: 100%
   ABG: 7.47/59/77/38/15
   Ve: 8.5 L/min
   PaO2 / FiO2: 110
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   80 K/uL
   8.5 g/dL
   86 mg/dL
   0.2 mg/dL
   38 mEq/L
   3.6 mEq/L
   17 mg/dL
   100 mEq/L
   145 mEq/L
   26.2 %
   0.5 K/uL
        [image002.jpg]
                             [**2161-5-28**]  03:05 PM
                             [**2161-5-28**]  11:29 PM
                             [**2161-5-29**]  04:28 AM
                             [**2161-5-29**]  04:38 PM
                             [**2161-5-30**]  05:45 AM
                             [**2161-5-30**]  04:29 PM
                             [**2161-5-31**]  04:11 AM
                             [**2161-5-31**]  05:21 PM
                             [**2161-6-1**]  03:48 AM
                             [**2161-6-1**]  06:56 AM
   WBC
   0.2
   0.3
   0.2
   0.3
   0.5
   Hct
   21.7
   24.0
   19.9
   24.7
   26.1
   26.2
   Plt
   91
   97
   76
   84
   80
   Cr
   0.2
   0.2
   0.2
   0.3
   0.2
   0.2
   0.1
   0.2
   0.2
   TCO2
   44
   Glucose
   258
   173
   115
   104
   64
   94
   86
   Other labs: PT / PTT / INR:14.4/27.2/1.3, ALT / AST:27/27, Alk Phos / T
   Bili:128/0.6, Amylase / Lipase:[**11-28**], Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.4 g/dL, LDH:248 IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.0
   mg/dL
   Microbiology:  CLOSTRIDIUM DIFFICILE TOXIN ASSAY (Final [**2161-5-30**]):
    FECES NEGATIVE FOR C. DIFFICILE TOXIN BY EIA.
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
    #Repiratory failure: PCP pneumonia complicated by ARDS.
   -last day of pentamidine is [**6-2**], d/c caspo on same day
   -on [**6-2**] decrease prednisone 5mg daily
   -add on LFTs/amylase/lipase
   -volume overload- diurese with Lasix drip goal I/O negative 1 liter per
   day- restart lasix drip when more awake and BP can tolerate
   -schedule trach as ANC without much improvement, Thoracics resident
   will d/w Dr. [**First Name (STitle) **] scheduling tomorrow or Wednesday
   # Acid Base: Metabolic alkylosis with respiratory compromise,
   ventilation switched to AC.
   -decrease rate to 18 from 22.
   -recheck ABG, may be able to decrease FiO2 as well
   -primary disturbance seems to be metabolic alkylosis- possibly due to
   diuresis, NG tube not to continuous suction
   -continue to monitor alkylsosis during diuresis
   # CMV: VL  greater than 100,000.
   -repeat VL pending
   -continue foscarnet and [**Hospital1 **] lytes
   -f/u ganciclovir resistance testing - pending
   -per ID plan to start cytogam, d/w pharmacy
 possibly available on
   Monday
   #MSSA bacteremia: TTE negative, unable to perform TEE.
   -on 1g q12hrs of vancomycin for possible endocarditis, surveillance
   cultures negative
   - continue 6 week course, establish end date
   # Leukopenia: most recent chemo was remote [**4-14**].
   -likely due to gancyclovir or possibly due to CMV
   -GCSF 480sc daily
   -switched to foscarnet
   -f/u daily ANC
 70 today
   - add cytogam with hope that if CMV is causing bone marrow suppression,
   more aggressive treatment wil help her counts  recove
   # Altered mental status: somnolent since ativan this a.m.
   #. Anemia: continue to trend daily
   -stable
   # Pain: on fentanyl patch and IV fentanyl.  Pain well controlled.
   # Anxiety / depression:
   -prn ativan
   -Continue celexa
   - seroquel qhs
   # Thrush:
   - started nystatin
   #Breast CA: Progressive and metastatic.
   -F/U Onc recs
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
   # Nutrition: Tolerating tube feeds
   # Access: PICC line
   # Code: FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2161-06-01 10:51:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], in MICU since [**5-2**] presented with septic shock, MSSA bacteremia,
   PCP pneumonia and ARDS, CMV viremia.
   24 Hour Events:
   resp distress this morning
   ANC not significantly changed over the weekend
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2161-5-31**] 06:06 PM
   Foscarnet - [**2161-5-31**] 11:24 PM
   Vancomycin - [**2161-6-1**] 08:00 AM
   Cefipime - [**2161-6-1**] 08:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2161-6-1**] 08:00 AM
   Ranitidine (Prophylaxis) - [**2161-6-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Psychiatric / Sleep: denies anxiety now
   Flowsheet Data as of  [**2161-6-1**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 84 (84 - 102) bpm
   BP: 115/63(77) {62/41(46) - 131/83(93)} mmHg
   RR: 22 (22 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.3 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  3,436 mL
                                                                    808 mL
   PO:
             TF:
                                                                    345 mL
                                                                    193 mL
   IVF:
                                                                  2,671 mL
                                                                    505 mL
   Blood products:
   Total out:
                                                                  3,748 mL
                                                                    595 mL
   Urine:
                                                                  3,348 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -312 mL
                                                                    213 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (320 - 350) mL
   Vt (Spontaneous): 320 (303 - 368) mL
   PS : 15 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: RR >35
   PIP: 26 cmH2O
   SpO2: 100%
   ABG: 7.47/59/77/38/15
   Ve: 8.9 L/min
   PaO2 / FiO2: 110
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   80 K/uL
   86 mg/dL
   0.2 mg/dL
   38 mEq/L
   3.6 mEq/L
   17 mg/dL
   100 mEq/L
   145 mEq/L
   26.2 %
   0.5 K/uL
        [image002.jpg]
                             [**2161-5-28**]  03:05 PM
                             [**2161-5-28**]  11:29 PM
                             [**2161-5-29**]  04:28 AM
                             [**2161-5-29**]  04:38 PM
                             [**2161-5-30**]  05:45 AM
                             [**2161-5-30**]  04:29 PM
                             [**2161-5-31**]  04:11 AM
                             [**2161-5-31**]  05:21 PM
                             [**2161-6-1**]  03:48 AM
                             [**2161-6-1**]  06:56 AM
   WBC
   0.2
   0.3
   0.2
   0.3
   0.5
   Hct
   21.7
   24.0
   19.9
   24.7
   26.1
   26.2
   Plt
   91
   97
   76
   84
   80
   Cr
   0.2
   0.2
   0.2
   0.3
   0.2
   0.2
   0.1
   0.2
   0.2
   TCO2
   44
   Glucose
   258
   173
   115
   104
   64
   94
   86
   Other labs: PT / PTT / INR:14.4/27.2/1.3, ALT / AST:27/27, Alk Phos / T
   Bili:128/0.6, Amylase / Lipase:[**11-28**], Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.4 g/dL, LDH:248 IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   Total 21 days pentamidine and caspofungin- today completes the course.
   Foscarnet for CMV viremia.
   Tapered steroids (had been for PCP) - decrease to 5 qd.
   Resp Failure: Prolonged mech ventilation with ETT, neutropenia
   following ganciclovir and subsequent neutropenic fever, added
   Cefipime.Holding off on trach due to counts. Massively volume
   overloaded, slowly diuresing.
   - trach regardless of counts, as anc not improving
   - question of lobar collapse on cxr yesterday-- repeat cxr. If
   persistant then increase PEEP.
   CMV with high viral load.
   MSSA bacteremia- on vancomycin for presumed endocarditis (could not
   undergo TEE), surveillance cultures negative
   remainder of issues as per resident notes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2161-06-02 07:31:00 Physician Resident Progress Note
Chief Complaint: PCP PNA, CMV Viremia, ARDS
   24 Hour Events:
   Pt scheduled for trach on [**6-2**]. Tube feeds were held after midnight.
   Lasix drip at 2mg/hr, patient diuresing aggressively so decreased to
   1mg/hr overnight. Ctyogam infused. PEEP reduced to 7, RR to 18 and FiO2
   to 40%- patient tolerated this well. Pentamidine last day should be
   [**6-2**] (and caspofungin).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2161-6-1**] 07:30 PM
   Vancomycin - [**2161-6-1**] 08:30 PM
   Cefipime - [**2161-6-2**] 12:00 AM
   Foscarnet - [**2161-6-2**] 12:30 AM
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2161-6-1**] 08:00 AM
   Ranitidine (Prophylaxis) - [**2161-6-1**] 08:00 AM
   Dextrose 50% - [**2161-6-2**] 05:08 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-6-2**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.8
   HR: 82 (79 - 101) bpm
   BP: 83/53(60) {72/41(52) - 115/80(88)} mmHg
   RR: 23 (20 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.3 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  2,946 mL
                                                                    581 mL
   PO:
             TF:
                                                                    553 mL
   IVF:
                                                                  2,065 mL
                                                                    556 mL
   Blood products:
   Total out:
                                                                  2,987 mL
                                                                    930 mL
   Urine:
                                                                  2,987 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -41 mL
                                                                   -350 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 18
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI: 271
   PIP: 22 cmH2O
   SpO2: 98%
   ABG: 7.47/59/65/35/15
   NIF: 0 cmH2O
   Ve: 8.1 L/min
   PaO2 / FiO2: 163
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   80 K/uL
   6.7 g/dL
   40 mg/dL
   0.2 mg/dL
   35 mEq/L
   2.6 mEq/L
   14 mg/dL
   110 mEq/L
   148 mEq/L
   20.7 %
   0.6 K/uL
        [image002.jpg]
                             [**2161-5-30**]  05:45 AM
                             [**2161-5-30**]  04:29 PM
                             [**2161-5-31**]  04:11 AM
                             [**2161-5-31**]  05:21 PM
                             [**2161-6-1**]  03:48 AM
                             [**2161-6-1**]  06:56 AM
                             [**2161-6-1**]  02:25 PM
                             [**2161-6-1**]  06:05 PM
                             [**2161-6-2**]  04:23 AM
                             [**2161-6-2**]  06:44 AM
   WBC
   0.2
   0.3
   0.5
   0.6
   Hct
   19.9
   24.7
   26.1
   26.2
   20.7
   Plt
   76
   84
   80
   80
   Cr
   0.2
   0.2
   0.1
   0.2
   0.2
   0.2
   0.2
   TCO2
   44
   44
   44
   Glucose
   115
   104
   64
   94
   86
   73
   40
   Other labs: PT / PTT / INR:14.4/27.2/1.3, ALT / AST:24/24, Alk Phos / T
   Bili:137/0.6, Amylase / Lipase:[**10-27**], Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.4 g/dL, LDH:269 IU/L, Ca++:8.2 mg/dL, Mg++:1.5 mg/dL, PO4:4.3
   mg/dL
   Fluid analysis / Other labs: ANC 190
   CMV Genotype Pending
   Imaging: [**6-1**] CXR - Diffuse air space disease is seen in both lungs
   stable since the prior study.
   The heart size is top normal. There is no pleural effusion.
   Endotracheal
   tube tip projects 2.7 cm above the carina. A feeding tube terminates in
   the
   stomach.
   IMPRESSION:
   1) Stable diffuse air space disease consistent with PCP [**Name Initial (PRE) 2894**].
   2) Pathological rib fractures as confirmed on the CT of [**2161-5-7**].
   Microbiology: [**5-27**] Glucan >500
   [**5-29**] CMV VL - Pending
   [**5-29**] C Diff negative
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
    .
    #Repiratory failure: PCP pneumonia complicated by ARDS.
   -Pt completed course of caspofungin and pentamadine
   -Continue prednisone taper
 taper to 5mg todau
   -LFTs/amylase/lipase - stable
   -Volume overload- diurese with Lasix drip goal I/O negative 1 liter per
   day
   -Plan for tracheostomy today as ANC without much improvement
    .
   # CMV: VL  trending down with foscarnet therapy
   -repeat VL 21K
   -continue foscarnet and [**Hospital1 **] lytes
   -f/u ganciclovir resistance testing - pending
   -Continue cytogam for 3 doses
   .
   . # Acid Base: Metabolic alkalosis with respiratory compromise,
   ventilation switched to AC.
   - monitor ABG and adjust vent as needed, currently tolerating rate of
   18 and PEEP of 7 well, plan to rest overnight post trach
   -primary disturbance seems to be metabolic alkylosis- likely due to
   diuresis
   -continue to monitor alkylsosis during diuresis
   .
   # Hypoglycemia
 pt requiring frequent D50 for hypoglycemia over past
   24 hours. She has had TF held for trach placement. Pentamidine may also
   be contributing to hypoglycemia.
   -          restart TF tomorrow, if pt fails S&S eval
   -          continue D50 PRN, will add D10 as KVO infusion
   -          Pentamidine to stop today
   -          Consider adrenal insufficiency however pt has received long
   steroid taper, less likely cause
   .
   #MSSA bacteremia: TTE negative, unable to perform TEE.
   -on 1g q12hrs of vancomycin for possible endocarditis, surveillance
   cultures negative
   - continue 6 week course
   .
   # Leukopenia: most recent chemo was remote [**4-14**].
   -likely due to gancyclovir or possibly due to CMV
   -GCSF 480sc daily
   -switched to foscarnet as ganciclovir thought to be contributing to
   leukopenia
   -f/u daily ANC
   - continue cytogam with hope that if CMV is causing bone marrow
   suppression, more aggressive treatment wil help her counts  recover
   .
   #. Anemia: continue to trend daily
   -stable
   .
   # Pain: on fentanyl patch and IV fentanyl.  Pain well controlled.
   .
   # Anxiety / depression:
   -prn ativan
   -Continue celexa
   - seroquel qhs
   .
   # Thrush:
   - started nystatin
   .
   #Breast CA: Progressive and metastatic.
   -          continue supportive management
   .
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
   .
   # Nutrition: Tolerating tube feeds, hold on PEG placement as pt is
   neutropenic, speech and swallow consult for PMV
   .
   # Access: PICC line
   .
   # Code: FULL
   ICU Care
   Nutrition:
   Comments: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: Boots(Lovenox)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2161-06-03 07:35:00 Physician Resident Progress Note
Chief Complaint: PCP / ARDS / CMV / metastatic breast CA
   [**76**] Hour Events:
 OR SENT - At [**2161-6-2**] 12:10 PM
 OR RECEIVED - At [**2161-6-2**] 02:28 PM
   s/p tracheostomy, no reported problems in OR, received w/O2 sats 95%
   then spontaneously dropped to low of 70, placed on 100% and suctioned
   and now sating 96% on FiO2 50%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2161-6-2**] 06:30 PM
   Vancomycin - [**2161-6-2**] 08:06 PM
   Cefipime - [**2161-6-3**] 12:37 AM
   Foscarnet - [**2161-6-3**] 12:38 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2161-6-2**] 08:37 PM
   Dextrose 50% - [**2161-6-3**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-6-3**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.2
   HR: 87 (81 - 102) bpm
   BP: 115/95(86) {72/48(53) - 130/95(93)} mmHg
   RR: 7 (7 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  3,246 mL
                                                                    649 mL
   PO:
             TF:
   IVF:
                                                                  3,021 mL
                                                                    524 mL
   Blood products:
   Total out:
                                                                  2,955 mL
                                                                  1,360 mL
   Urine:
                                                                  2,955 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    291 mL
                                                                   -711 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 18
   RR (Spontaneous): 26
   PEEP: 7 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   SpO2: 96%
   ABG: 7.52/50/64/34/14
   Ve: 8.9 L/min
   PaO2 / FiO2: 128
   Physical Examination
   GEN: NAD
   HEENT: normocephalic, NT, PERRL, MMM, OP clear, trach in place
   CARD: rrr, NO M/R/G
   PULM :CTAB
   EXT: no c/c/e, wwp
   Labs / Radiology
   94 K/uL
   5.8 g/dL
   254 mg/dL
   0.3 mg/dL
   34 mEq/L
   2.9 mEq/L
   10 mg/dL
   98 mEq/L
   144 mEq/L
   17.7 %
   1.2 K/uL
        [image002.jpg]
                             [**2161-6-1**]  06:56 AM
                             [**2161-6-1**]  02:25 PM
                             [**2161-6-1**]  06:05 PM
                             [**2161-6-2**]  04:23 AM
                             [**2161-6-2**]  06:44 AM
                             [**2161-6-2**]  07:15 AM
                             [**2161-6-2**]  10:20 AM
                             [**2161-6-2**]  05:23 PM
                             [**2161-6-3**]  04:36 AM
                             [**2161-6-3**]  05:09 AM
   WBC
   0.6
   1.2
   Hct
   20.7
   22.9
   17.7
   Plt
   80
   94
   Cr
   0.2
   0.2
   0.2
   0.2
   0.3
   TCO2
   44
   44
   44
   42
   Glucose
   73
   40
   36
   56
   254
   Other labs: PT / PTT / INR:15.5/33.8/1.4, ALT / AST:24/24, Alk Phos / T
   Bili:137/0.6, Amylase / Lipase:[**10-27**], Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.4 g/dL, LDH:269 IU/L, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
    #Repiratory failure: PCP pneumonia complicated by ARDS.
   -Pt completed course of caspofungin and pentamadine
   -switch pred to solumedrol 4mg daily as is NPO and continue to taper
   -s/p trach
   -S+S eval
   # CMV: VL  trending down with foscarnet therapy
   -repeat VL 21K
   -continue foscarnet and [**Hospital1 **] lytes
   -f/u ganciclovir resistance testing - pending
   -Continue cytogam for 3 doses
   -decrease RR to 12, goal of switching to pressure support, Increase
   PEEP to 10 and decrease TV to 300, monitor sats with PEEP of 10, ?
   decrease FiO2 to 40% from 50%.
   # Acid Base: Metabolic alkalosis with respiratory compromise,
   ventilation switched to AC.
   -pH  7.52, to help correct acid base could hypoventilate with TV of
   300- she is breathing over vent set at 18 breathing at 26
   -volume overload- goal I/O even to negative 500cc today as Cr up to 0.3
   -send urine lytes for ?ARF
   # Hypoglycemia
 pt requiring frequent D50 for hypoglycemia over past
   24 hours. She has had TF held for trach placement. Pentamidine may also
   be contributing to hypoglycemia however this has now been stopped,
   continue to check q2 hour FS
   - restart TF tomorrow, if pt fails S&S eval
   - D10 as KVO infusion
   #MSSA bacteremia: TTE negative, unable to perform TEE.
   -on 1g q12hrs of vancomycin for possible endocarditis, surveillance
   cultures negative
   - continue 6 week course
   # Leukopenia: ANC improving, continue GCSF for 3 days over 1000
   -daily ANC
   -continue cytogam and foscarnet
   #. Anemia: continue to trend daily
   -transfuse 1 unit this a.m. and post tx hct this p.m., give 10mg IV
   lasix w/ tranfusion
   -send hemolysis labs / dat as recent transfusion, guiac stool... ? CMV
   colitis
   # Pain: on fentanyl patch and IV fentanyl.  Pain well controlled.
   # Anxiety / depression:
   -prn ativan
   -Continue celexa- increase to 20mg daily today
   - seroquel qhs
   # Thrush:
   - started nystatin
   #Breast CA: Progressive and metastatic.
   continue supportive management
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
   # Nutrition:  hold on PEG placement as pt is neutropenic, speech and
   swallow consult for PMV
   # Access: PICC line
   # Code: FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2161-06-03 10:59:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 OR SENT - At [**2161-6-2**] 12:10 PM
 OR RECEIVED - At [**2161-6-2**] 02:28 PM
   s/p tracheostomy, no reported problems in OR, received w/O2 sats 95%
   then spontaneously dropped to low of 70, placed on 100% and suctioned
   and now sating 96% on FiO2 50%
   Unable to have NGT placed.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2161-6-2**] 06:30 PM
   Foscarnet - [**2161-6-3**] 12:38 AM
   Cefipime - [**2161-6-3**] 08:00 AM
   Vancomycin - [**2161-6-3**] 09:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2161-6-2**] 08:37 PM
   Dextrose 50% - [**2161-6-3**] 07:30 AM
   Other medications:
   Cytogam, KCL, Neupogen, Lorazepam, celexa, lidocaine patch, neuurontin,
   senna, colace, peridex, zantac, fentanyl patch, solumedrol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2161-6-3**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.4
   HR: 96 (81 - 102) bpm
   BP: 115/70(82) {72/49(55) - 142/95(93)} mmHg
   RR: 20 (5 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  3,246 mL
                                                                  1,015 mL
   PO:
             TF:
   IVF:
                                                                  3,021 mL
                                                                    840 mL
   Blood products:
   Total out:
                                                                  2,955 mL
                                                                  1,940 mL
   Urine:
                                                                  2,955 mL
                                                                  1,940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    291 mL
                                                                   -925 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 18
   RR (Spontaneous): 5
   PEEP: 7 cmH2O
   FiO2: 50%
   PIP: 23 cmH2O
   SpO2: 96%
   ABG: 7.52/50/64/34/14
   Ve: 11.7 L/min
   PaO2 / FiO2: 128
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly, No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   5.8 g/dL
   94 K/uL
   254 mg/dL
   0.3 mg/dL
   34 mEq/L
   2.9 mEq/L
   10 mg/dL
   98 mEq/L
   144 mEq/L
   17.7 %
   1.2 K/uL
        [image002.jpg]
                             [**2161-6-1**]  06:56 AM
                             [**2161-6-1**]  02:25 PM
                             [**2161-6-1**]  06:05 PM
                             [**2161-6-2**]  04:23 AM
                             [**2161-6-2**]  06:44 AM
                             [**2161-6-2**]  07:15 AM
                             [**2161-6-2**]  10:20 AM
                             [**2161-6-2**]  05:23 PM
                             [**2161-6-3**]  04:36 AM
                             [**2161-6-3**]  05:09 AM
   WBC
   0.6
   1.2
   Hct
   20.7
   22.9
   17.7
   Plt
   80
   94
   Cr
   0.2
   0.2
   0.2
   0.2
   0.3
   TCO2
   44
   44
   44
   42
   Glucose
   73
   40
   36
   56
   254
   Other labs: PT / PTT / INR:15.5/33.8/1.4, ALT / AST:24/24, Alk Phos / T
   Bili:137/0.6, Amylase / Lipase:[**10-27**], Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.4 g/dL, LDH:269 IU/L, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   1.) Resp failure:  -s/p trach yesterday.  Had some post-procedural
   hypoxemia which improved with suctioning.  Currently overventilated
   with pH of 7.52
      -Change to PSV.
      -Increase PEEP to counter likely derecruitment from yesterday
      -Continue to diurese as BP allows.
   2.) ID:  -Continues on Vanc for MSSA bacteremia
               -Pentamidine/caspofungin completed yesterday
               -Cefepime until ANC >500 and afebrile for 48 hours
               -Foscarnet/cytogam for CMV.  VL decreasing
   3.) FEN:  NGT placement with IR assistance today.  Start TF
   thereafter.  Will discuss timing of PEG placement with surgery.
   4.) Hypoglycemia:  Likely from lack of tube feeds, steroid taper, organ
   dysfuntion, and pentamidine.
                                 -Pentamidine off as of yesterday
                                 -Start TF post NGT placement.  D5 in
   meantime.
   5.) Leukopenia/Anemia:      -ANC improving.  Continuing G-CSF
                                               -Transfuse 1 u PRBC, goal
   HCT >21
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2161-06-04 07:33:00 Physician Resident Progress Note
Chief Complaint: PCP PNA
   ARDS
   24 Hour Events:
   IR unable to place NG tube despite multiple attempts. Therefore started
   on PPN for nutrition. Persistently hypoglycemic (FS 52) off D10.
   Restarted D10.
   No evidence of hemolysis on labs
   ID recs- ck CMV viral load, continue cytogam and foscarnet
   Changed to PS- more in synch with vent
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2161-6-2**] 06:30 PM
   Vancomycin - [**2161-6-3**] 08:23 PM
   Cefipime - [**2161-6-4**] 12:20 AM
   Foscarnet - [**2161-6-4**] 01:08 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2161-6-3**] 08:15 PM
   Fentanyl - [**2161-6-4**] 12:15 AM
   Dextrose 50% - [**2161-6-4**] 12:15 AM
   Lorazepam (Ativan) - [**2161-6-4**] 01:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-6-4**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.8
   HR: 88 (88 - 117) bpm
   BP: 124/72(85) {90/57(65) - 142/96(111)} mmHg
   RR: 21 (5 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  2,530 mL
                                                                  1,046 mL
   PO:
             TF:
   IVF:
                                                                  1,708 mL
                                                                    572 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,445 mL
                                                                    790 mL
   Urine:
                                                                  3,445 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -915 mL
                                                                    256 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 300 (300 - 350) mL
   Vt (Spontaneous): 329 (329 - 350) mL
   PS : 14 cmH2O
   RR (Set): 12
   RR (Spontaneous): 29
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   SpO2: 97%
   ABG: ///35/
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   84 K/uL
   8.3 g/dL
   59 mg/dL
   0.2 mg/dL
   35 mEq/L
   2.5 mEq/L
   13 mg/dL
   101 mEq/L
   146 mEq/L
   25.4 %
   2.8 K/uL
        [image002.jpg]
                             [**2161-6-1**]  06:05 PM
                             [**2161-6-2**]  04:23 AM
                             [**2161-6-2**]  06:44 AM
                             [**2161-6-2**]  07:15 AM
                             [**2161-6-2**]  10:20 AM
                             [**2161-6-2**]  05:23 PM
                             [**2161-6-3**]  04:36 AM
                             [**2161-6-3**]  05:09 AM
                             [**2161-6-3**]  07:12 PM
                             [**2161-6-4**]  04:25 AM
   WBC
   0.6
   1.2
   2.8
   Hct
   20.7
   22.9
   17.7
   27.9
   25.4
   Plt
   80
   94
   84
   Cr
   0.2
   0.2
   0.2
   0.3
   0.2
   0.2
   TCO2
   44
   44
   42
   Glucose
   40
   36
   56
   254
   59
   59
   Other labs: PT / PTT / INR:15.5/33.8/1.4, ALT / AST:24/24, Alk Phos / T
   Bili:137/0.8, Amylase / Lipase:[**10-27**], Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.4 g/dL, LDH:317 IU/L, Ca++:9.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.4
   mg/dL
   Microbiology: CMV Genotype - Pending
   [**6-4**] CMV VL Pending
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
    #Repiratory failure: PCP pneumonia complicated by ARDS.
   -Pt completed course of caspofungin and pentamadine
   -switch pred to solumedrol 4mg daily as is NPO and continue to taper
   -s/p trach
   -S+S eval
   # CMV: VL  trending down with foscarnet therapy
   -repeat VL 21K
   -continue foscarnet and [**Hospital1 **] lytes
   -f/u ganciclovir resistance testing - pending
   -Continue cytogam for 3 doses
   -decrease RR to 12, goal of switching to pressure support, Increase
   PEEP to 10 and decrease TV to 300, monitor sats with PEEP of 10, ?
   decrease FiO2 to 40% from 50%.
   # Acid Base: Metabolic alkalosis with respiratory compromise,
   ventilation switched to AC.
   -pH  7.52, to help correct acid base could hypoventilate with TV of
   300- she is breathing over vent set at 18 breathing at 26
   -volume overload- goal I/O even to negative 500cc today as Cr up to 0.3
   -send urine lytes for ?ARF
   # Hypoglycemia
 pt requiring frequent D50 for hypoglycemia over past
   24 hours. She has had TF held for trach placement. Pentamidine may also
   be contributing to hypoglycemia however this has now been stopped,
   continue to check q2 hour FS
   - restart TF tomorrow, if pt fails S&S eval
   - D10 as KVO infusion
   #MSSA bacteremia: TTE negative, unable to perform TEE.
   -on 1g q12hrs of vancomycin for possible endocarditis, surveillance
   cultures negative
   - continue 6 week course
   # Leukopenia: ANC improving, continue GCSF for 3 days over 1000
   -daily ANC
   -continue cytogam and foscarnet
   #. Anemia: continue to trend daily
   -transfuse 1 unit this a.m. and post tx hct this p.m., give 10mg IV
   lasix w/ tranfusion
   -send hemolysis labs / dat as recent transfusion, guiac stool... ? CMV
   colitis
   # Pain: on fentanyl patch and IV fentanyl.  Pain well controlled.
   # Anxiety / depression:
   -prn ativan
   -Continue celexa- increase to 20mg daily today
   - seroquel qhs
   # Thrush:
   - started nystatin
   #Breast CA: Progressive and metastatic.
   continue supportive management
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
   # Nutrition:  hold on PEG placement as pt is neutropenic, speech and
   swallow consult for PMV
   # Access: PICC line
   # Code: FULL
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2161-6-3**] 09:33 PM 60 mL/hour
   Glycemic Control:  Comments: Hypoglycemic
   Lines:
   PICC Line - [**2161-5-11**] 09:51 AM
   22 Gauge - [**2161-6-3**] 06:45 PM
   Prophylaxis:
   DVT: (Lovenox)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2161-06-05 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2161-6-2**] 06:30 PM
   Cefipime - [**2161-6-4**] 08:00 AM
   Vancomycin - [**2161-6-4**] 08:15 PM
   Foscarnet - [**2161-6-5**] 01:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2161-6-4**] 08:30 AM
   Fentanyl - [**2161-6-4**] 08:00 PM
   Furosemide (Lasix) - [**2161-6-5**] 12:00 AM
   Famotidine (Pepcid) - [**2161-6-5**] 12:16 AM
   Lorazepam (Ativan) - [**2161-6-5**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-6-5**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.8
   HR: 118 (89 - 121) bpm
   BP: 116/94(98) {84/55(60) - 145/114(118)} mmHg
   RR: 42 (20 - 42) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 67 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  3,153 mL
                                                                    787 mL
   PO:
             TF:
   IVF:
                                                                  1,901 mL
                                                                    496 mL
   Blood products:
   Total out:
                                                                  3,350 mL
                                                                  1,670 mL
   Urine:
                                                                  3,350 mL
                                                                  1,670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -197 mL
                                                                   -883 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 340 (340 - 375) mL
   PS : 14 cmH2O
   RR (Spontaneous): 41
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 96%
   ABG: ///34/
   Ve: 15.4 L/min
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   100 K/uL
   9.2 g/dL
   147 mg/dL
   0.3 mg/dL
   34 mEq/L
   4.2 mEq/L
   18 mg/dL
   102 mEq/L
   146 mEq/L
   28.0 %
   6.7 K/uL
        [image002.jpg]
                             [**2161-6-2**]  04:23 AM
                             [**2161-6-2**]  06:44 AM
                             [**2161-6-2**]  07:15 AM
                             [**2161-6-2**]  10:20 AM
                             [**2161-6-2**]  05:23 PM
                             [**2161-6-3**]  04:36 AM
                             [**2161-6-3**]  05:09 AM
                             [**2161-6-3**]  07:12 PM
                             [**2161-6-4**]  04:25 AM
                             [**2161-6-5**]  05:51 AM
   WBC
   0.6
   1.2
   2.8
   6.7
   Hct
   20.7
   22.9
   17.7
   27.9
   25.4
   28.0
   Plt
   80
   94
   84
   100
   Cr
   0.2
   0.2
   0.2
   0.3
   0.2
   0.2
   0.3
   TCO2
   44
   42
   Glucose
   40
   36
   56
   [**Telephone/Fax (2) 3269**]
   Other labs: PT / PTT / INR:15.5/33.8/1.4, ALT / AST:24/24, Alk Phos / T
   Bili:137/0.8, Amylase / Lipase:[**10-27**], Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.4 g/dL, LDH:317 IU/L, Ca++:9.9 mg/dL, Mg++:1.6 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
    #Repiratory failure: PCP pneumonia complicated by ARDS - stable,
   finished course of tx w/ pentamidine / caspo
   -d/c'd steroids
   -s/p trach
   -was tolerating PSV, overnight developed anxiety and increased RR,
   already has metabolic alkylosis and did have appropriate respiratory
   compensation however developed tachypnea to RR in 40s and a respiratory
   alkylosis
   -sedate and place patient on AC with fixed rate to hypoventilate and
   correct pH
   -ABG
   -CXR
   # CMV: VL  trending down with foscarnet therapy
   -[**6-4**] VL pending
   -resend CMV VL on 624
   -continue foscarnet and [**Hospital1 **] lytes
   -Continue cytogam for 3 doses has received [**1-18**] doses
   # Hypoglycemia
 resolving, D10 KVO changed to D5.  Continue to monitor
   fingersticks.
   #MSSA bacteremia: TTE negative, unable to perform TEE.
   -on 1g q12hrs of vancomycin for possible endocarditis, surveillance
   cultures negative
   - continue 6 week course
 stop date [**6-10**]
   # Leukopenia: resolved with stopping gancyclovir and with GCSF
   -d/c GCSF
   -d/c neutropenic precautions
   #. Anemia: continue to trend daily
 stable
   # Pain: on fentanyl patch and IV fentanyl.  Pain well controlled.
   # Anxiety / depression:
   - prn ativan
   - celexa- on hold as NPO (increase to 20mg when G tube placed)
   # Thrush:  nystatin
   #Breast CA: Progressive and metastatic.
   continue supportive management
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
   # Nutrition:  Plan of PEG placement today ([**6-5**])
   # Access: PICC line
   # Code: FULL
   ICU Care
   Nutrition:
   TPN without Lipids - [**2161-6-4**] 05:57 PM 41.[**Telephone/Fax (5) 3163**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:

2161-06-06 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PEG INSERTION - At [**2161-6-5**] 03:00 PM
 URINE CULTURE - At [**2161-6-6**] 12:00 AM
   U/A and CBC sent
 BLOOD CULTURED - At [**2161-6-6**] 12:08 AM
   Blood cultures x2 sent; peripherally and PICC
 FEVER - 101.2
F - [**2161-6-6**] 12:00 AM
   Spiked fever in the setting of receiving cytogam. Cultures sent.
   Stopped infusion. Therefore only received half dose cytogam. Cefepime
   had been d/c
d earlier in the day. Restarted after spiked temp.
   Became tachypneic during the fever. On  AC.
   Developed hematuria. Concern for transfusion reaction. Hemolysis labs
   sent. Normal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2161-6-5**] 10:00 PM
   Cefipime - [**2161-6-6**] 12:30 AM
   Foscarnet - [**2161-6-6**] 01:30 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2161-6-5**] 08:00 AM
   Famotidine (Pepcid) - [**2161-6-6**] 12:15 AM
   Lorazepam (Ativan) - [**2161-6-6**] 06:00 AM
   Fentanyl - [**2161-6-6**] 07:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-6-6**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.3
C (99.2
   HR: 124 (93 - 130) bpm
   BP: 109/66(76) {73/52(57) - 147/92(103)} mmHg
   RR: 44 (15 - 44) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 67 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  2,649 mL
                                                                  1,539 mL
   PO:
             TF:
   IVF:
                                                                  1,509 mL
                                                                  1,050 mL
   Blood products:
   Total out:
                                                                  3,495 mL
                                                                    795 mL
   Urine:
                                                                  3,495 mL
                                                                    795 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -846 mL
                                                                    744 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   SpO2: 97%
   ABG: 7.49/49/91.[**Numeric Identifier 96**]/33/12
   Ve: 13.4 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: No(t) No acute distress, Tachypneic, uncomfortable
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Obese, PEG in place
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, No(t) Rash:
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   88 K/uL
   8.6 g/dL
   328 mg/dL
   0.3 mg/dL
   33 mEq/L
   2.3 mEq/L
   23 mg/dL
   105 mEq/L
   147 mEq/L
   25.0 %
   8.9 K/uL
        [image002.jpg]
                             [**2161-6-2**]  05:23 PM
                             [**2161-6-3**]  04:36 AM
                             [**2161-6-3**]  05:09 AM
                             [**2161-6-3**]  07:12 PM
                             [**2161-6-4**]  04:25 AM
                             [**2161-6-5**]  05:51 AM
                             [**2161-6-5**]  07:08 AM
                             [**2161-6-5**]  11:20 PM
                             [**2161-6-6**]  02:28 AM
                             [**2161-6-6**]  06:20 AM
   WBC
   1.2
   2.8
   6.7
   8.9
   Hct
   17.7
   27.9
   25.4
   28.0
   25.0
   Plt
   94
   84
   100
   88
   Cr
   0.2
   0.3
   0.2
   0.2
   0.3
   0.3
   TCO2
   42
   39
   38
   Glucose
   56
   [**Telephone/Fax (2) 3269**]
   328
   Other labs: PT / PTT / INR:15.5/33.8/1.4, ALT / AST:17/31, Alk Phos / T
   Bili:124/0.8, Amylase / Lipase:[**10-27**], Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:2.7 mmol/L,
   Albumin:2.4 g/dL, LDH:573 IU/L, Ca++:9.9 mg/dL, Mg++:1.6 mg/dL, PO4:2.9
   mg/dL
   Imaging: [**6-5**] CXR
   1. Mild improvement in multifocal opacities likely due to pneumonia.
   2. Superimposed mild interstitial pulmonary edema.
   3. Known acute right clavicular and left lateral rib fractures.
   Microbiology: [**6-5**] Blood Culture (2 Sets)
   Urine cx
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
   # Fever: Spiked temp overnight in the setting of receiving cytogam last
   dose of three. Cultures sent. Unclear if this is secondary to
   transfusion reaction vs acute infection. Cefepime had been d/c'd
   earlier that day. Therefore it was restarted given acute change in
   clinical status. Patient afebrile this AM and more stable. Given that
   cultures will likely be unrevealing and patient no longer neutropenic,
   will d/c cefepime and follow clinical picture as well as culture data.
   - Monitor fever curve and wbc count
   - F/U culture data
   - d/c cefepime
   # Hematuria: Confirmed with UA. No evidence of UTI by UA therefore UTI
   unlikely cause. [**Month (only) 60**] be secondary to metastatic disease. No casts to
   point toward glomerular disease. [**Month (only) 60**] have passed stone. Urine has
   cleared.
   - continue to monitor
   #Repiratory failure: PCP pneumonia complicated by ARDS - stable,
   finished course of tx w/ pentamidine / caspo. Also with pulmonary
   edema.
   -d/c'd steroids
   -s/p trach
   -on AC
   -ABG
   -CXR
   - hold off on further diuresis today given change in clinical status
   overnight.
   .
   # CMV: VL  trending down with foscarnet therapy
   -[**6-4**] VL 7150- trending down
   -resend CMV VL on [**6-9**]
   -continue foscarnet and [**Hospital1 **] lytes
   -only received half dose of 3rd cytogam infusion
   - contact ID re duration of foscarnet therapy
   # Hyperglycemia
   - restarted RISS
   #MSSA bacteremia:
   -on 1g q12hrs of vancomycin for possible endocarditis, surveillance
   cultures negative
   - continue 6 week course
 stop date [**6-10**]
   # Leukopenia: resolved with stopping gancyclovir and with GCSF
   #. Anemia: continue to trend daily
 stable
    .
   # Thrombocytopenia: unclear etiology: ? bone marrow suspicion. Counts
   stable. Will follow.
   .
   # Pain: Secondary to clavicular and rib fractures. On fentanyl patch
   and IV fentanyl.  Pain well controlled.
   # Anxiety / depression:
   - prn ativan
   - celexa- restart as PEG placed
   # Thrush:  nystatin
   #Breast CA: Progressive and metastatic.
   - continue supportive management
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
   # Nutrition:  PEG placed yesterday. Start tube feeds 24 hours after
   placement. Will give free water boluses for high sodium.
   - nutrition consult
   # Access: PICC line
   # Code: FULL
   ICU Care
   Nutrition:
   TPN without Lipids - [**2161-6-5**] 06:00 PM 65.[**Telephone/Fax (3) 3293**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-06-06 09:59:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PEG INSERTION - At [**2161-6-5**] 03:00 PM
 URINE CULTURE - At [**2161-6-6**] 12:00 AM
   U/A and CBC sent
 BLOOD CULTURED - At [**2161-6-6**] 12:08 AM
   Blood cultures x2 sent; peripherally and PICC
 FEVER - 101.2
F - [**2161-6-6**] 12:00 AM.  In the setting of cytogam
   infusion.  Cefepime restarted, flagyl added.
   Hemolysis labs unremarkable
   Urine became reddish in hue after cytogam infusion.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2161-6-6**] 12:30 AM
   Foscarnet - [**2161-6-6**] 01:30 AM
   Vancomycin - [**2161-6-6**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2161-6-6**] 12:15 AM
   Lorazepam (Ativan) - [**2161-6-6**] 06:00 AM
   Fentanyl - [**2161-6-6**] 07:00 AM
   Other medications:
   Please see resident note for full list.
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, Tachypnea
   Genitourinary: Foley
   Flowsheet Data as of  [**2161-6-6**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.7
C (99.9
   HR: 122 (93 - 130) bpm
   BP: 118/72(83) {73/52(57) - 147/92(103)} mmHg
   RR: 32 (15 - 44) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 67 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  2,630 mL
                                                                  1,781 mL
   PO:
             TF:
   IVF:
                                                                  1,509 mL
                                                                  1,177 mL
   Blood products:
   Total out:
                                                                  3,495 mL
                                                                  1,095 mL
   Urine:
                                                                  3,495 mL
                                                                  1,095 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -865 mL
                                                                    686 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 403 (403 - 403) mL
   RR (Set): 20
   RR (Spontaneous): 4
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 23 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: 7.49/49/91.[**Numeric Identifier 96**]/33/12
   Ve: 14.6 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Trach in place
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly, No(t) Wheezes : )
   Abdominal: Soft, Non-tender, PEG in place
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   88 K/uL
   328 mg/dL
   0.3 mg/dL
   33 mEq/L
   2.3 mEq/L
   23 mg/dL
   105 mEq/L
   147 mEq/L
   25.0 %
   8.9 K/uL
        [image002.jpg]
                             [**2161-6-2**]  05:23 PM
                             [**2161-6-3**]  04:36 AM
                             [**2161-6-3**]  05:09 AM
                             [**2161-6-3**]  07:12 PM
                             [**2161-6-4**]  04:25 AM
                             [**2161-6-5**]  05:51 AM
                             [**2161-6-5**]  07:08 AM
                             [**2161-6-5**]  11:20 PM
                             [**2161-6-6**]  02:28 AM
                             [**2161-6-6**]  06:20 AM
   WBC
   1.2
   2.8
   6.7
   8.9
   Hct
   17.7
   27.9
   25.4
   28.0
   25.0
   Plt
   94
   84
   100
   88
   Cr
   0.2
   0.3
   0.2
   0.2
   0.3
   0.3
   TCO2
   42
   39
   38
   Glucose
   56
   [**Telephone/Fax (2) 3269**]
   328
   Other labs: PT / PTT / INR:15.5/33.8/1.4, ALT / AST:17/31, Alk Phos / T
   Bili:124/0.8, Amylase / Lipase:[**10-27**], Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:2.7 mmol/L,
   Albumin:2.4 g/dL, LDH:573 IU/L, Ca++:9.9 mg/dL, Mg++:1.6 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   61 yo F with metastatic breast cancer admitted with MSSA bacteremia,
   now with prolonged hospital course complicated by PCP with ARDS and
   chronic respiratory failure, CMV viremia, febrile neutropenia.
   1.) Fever: [**Month (only) 60**] be related to cytogam infusion although tachypnea and
   increase in somnolence are concerning for infection.  Abdominal exam
   benign at present.
       -F/u Pan-Culture
       -Will hold the cefepime/flagyl for now and monitor fever curve.  If
   persistently febrile, will restart.
       -Serial abdominal exams given proximity of fever to PEG placement
       -If spikes again, will check CXR
   2.) Hematuria:  Seems to have resolved this morning.  Hemolysis labs
   overnight (concern for cytogam induced hemolysis) are negative.
       -Monitor for now.  3-way foley if needed
   3.) Respiratory Failure:  Remains tachypneic.  Seems to be central in
   nature.
            -Will hold on diuresis today until source of fever clearer.
   4.) CMV Viremia:
      -Foscarnet.  Will discuss time course with ID.
   5.) MSSA Bacteremia:  Vanco until [**6-10**]
   6.) FEN:  -Phos/K repletion on Foscarnet
                  -OK to use PEG later today
                  -Free water boluses in PEG for hypernatremia.
   7.) metbolic alk
likely from diuresis, hold lasix and follow, consider
   diamox if ph > 7.52
   ICU Care
   Nutrition:
   TPN without Lipids - [**2161-6-5**] 06:00 PM 62.5 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
Discussions between pulm fellow [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3129**] and
   pt
s husband regarding goals of care.  Code status chnaged to DNR
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2161-06-07 07:41:00 Physician Resident Progress Note
Chief Complaint: Breast CA (metastatic) PCP / CMV
   24 Hour Events:
   PEG placed on Friday: Started tube feeds
   High calcium: Given fluid bolus plus lasix
   High sodium: given free water via PEG
   Mental status wih subacute change- ? narcotics
   Otherwise stable
   Will need repeat CMV VL on [**6-9**]: treat until VL 0
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2161-6-6**] 09:30 AM
   Vancomycin - [**2161-6-6**] 08:24 PM
   Foscarnet - [**2161-6-7**] 12:53 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2161-6-6**] 11:45 PM
   Furosemide (Lasix) - [**2161-6-7**] 03:15 AM
   Lorazepam (Ativan) - [**2161-6-7**] 05:25 AM
   Fentanyl - [**2161-6-7**] 06:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Nutritional Support: Tube feeds
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Flowsheet Data as of  [**2161-6-7**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.5
   HR: 116 (98 - 129) bpm
   BP: 109/77(85) {87/52(62) - 127/78(97)} mmHg
   RR: 31 (18 - 40) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 67 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  3,561 mL
                                                                  1,502 mL
   PO:
             TF:
                                                                    116 mL
                                                                    204 mL
   IVF:
                                                                  2,110 mL
                                                                  1,198 mL
   Blood products:
   Total out:
                                                                  2,575 mL
                                                                  1,610 mL
   Urine:
                                                                  2,375 mL
                                                                  1,610 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    986 mL
                                                                   -108 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 403 (403 - 403) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: ///32/
   Ve: 10.8 L/min
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic, Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   88 K/uL
   8.6 g/dL
   86 mg/dL
   0.2 mg/dL
   32 mEq/L
   3.9 mEq/L
   19 mg/dL
   116 mEq/L
   153 mEq/L
   25.0 %
   8.9 K/uL
        [image002.jpg]
                             [**2161-6-3**]  05:09 AM
                             [**2161-6-3**]  07:12 PM
                             [**2161-6-4**]  04:25 AM
                             [**2161-6-5**]  05:51 AM
                             [**2161-6-5**]  07:08 AM
                             [**2161-6-5**]  11:20 PM
                             [**2161-6-6**]  02:28 AM
                             [**2161-6-6**]  06:20 AM
                             [**2161-6-6**]  02:50 PM
                             [**2161-6-7**]  04:16 AM
   WBC
   2.8
   6.7
   8.9
   Hct
   27.9
   25.4
   28.0
   25.0
   Plt
   84
   100
   88
   Cr
   0.2
   0.2
   0.3
   0.3
   0.3
   0.2
   TCO2
   42
   39
   38
   Glucose
   59
   59
   147
   328
   205
   86
   Other labs: PT / PTT / INR:14.8/33.2/1.3, ALT / AST:17/31, Alk Phos / T
   Bili:124/0.8, Amylase / Lipase:[**10-27**], Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:2.7 mmol/L,
   Albumin:1.9 g/dL, LDH:494 IU/L, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
   #Repiratory failure: PCP pneumonia complicated by ARDS - stable,
   finished course of tx w/ pentamidine / caspo. Also with pulmonary
   edema.
   -d/c'd steroids
   -s/p trach
   -goal even given fevers
   # CMV: VL  trending down with foscarnet therapy (d/c after VL is 0 per
   ID)
   -repeat VL 7,000 down from 21,000
   -contact ID prn
   -d/c further cytogam
   -[**Hospital1 **] lytes
   # Fever: not neutropenic.  On Vanc so less likely PICC line but still
   possibility.
   -send cultures (blood, urine, sputum), no new infiltrate on CXR and no
   increased secretions
   -restart cefepime as fever spikes since d/c
d cefepime, can d/c
   cefepime if no culture data in a few days
   -d/c picc line when 2 PIV established this afternoon
   -borderline BPs- [**Last Name (un) 45**] stim
   # Hypernatremia: Free water deficit 3 liters.
   -Give 250cc free water flushes q4 x 1 day and [**Hospital1 **] lytes
   # Hypercalcemia: likely related to underlying malignancy, poor
   prognostic sign if related to malignancy
   -[**Hospital1 **] calcium
   -start bisphosphonate and fluid + lasix prn.  Restart lasix 20mg IV prn
   for goal negative 1 liter today
   # Hyperglycemia
   - restarted RISS
   #MSSA bacteremia:
   -on 1g q12hrs of vancomycin for possible endocarditis, surveillance
   cultures negative
   - continue 6 week course
 stop date [**6-10**]
   # Leukopenia: resolved with stopping gancyclovir and with GCSF
   # Anemia: continue to trend daily
 stable
   # Thrombocytopenia: unclear etiology: ? bone marrow suspicion. Counts
   stable. Will follow.
   # Pain: Secondary to clavicular and rib fractures. On fentanyl patch
   and IV fentanyl.  Pain well controlled.
   # Anxiety / depression:
   - prn ativan
   - celexa- restart as PEG placed
   # Thrush:  nystatin
   #Breast CA: Progressive and metastatic.
   - continue supportive management
   -hypercalcemia, likely related to breast CA
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
   # Nutrition:  PEG placed. Tube Feeds.
   - Will give free water boluses for high sodium.
   - nutrition consult
   # Access: PICC line
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2161-06-07 11:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, CMV viremia, PCP PNA
   [**Name Initial (PRE) **] saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Was more somnolent yesterday. Facial grimacing to suggest pain this
   morning.   Febrile to 101 at 8AM today.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2161-6-6**] 09:30 AM
   Foscarnet - [**2161-6-7**] 12:53 AM
   Vancomycin - [**2161-6-7**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2161-6-6**] 11:45 PM
   Furosemide (Lasix) - [**2161-6-7**] 03:15 AM
   Lorazepam (Ativan) - [**2161-6-7**] 05:25 AM
   Enoxaparin (Lovenox) - [**2161-6-7**] 08:00 AM
   Fentanyl - [**2161-6-7**] 10:20 AM
   Other medications:
   See resident note for full list.  Vancomycin, foscarnet,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-6-7**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 121 (98 - 121) bpm
   BP: 108/62(73) {87/52(62) - 127/78(97)} mmHg
   RR: 28 (18 - 40) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 67 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  3,561 mL
                                                                  2,052 mL
   PO:
             TF:
                                                                    116 mL
                                                                    315 mL
   IVF:
                                                                  2,110 mL
                                                                  1,488 mL
   Blood products:
   Total out:
                                                                  2,575 mL
                                                                  2,185 mL
   Urine:
                                                                  2,375 mL
                                                                  2,185 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    986 mL
                                                                   -133 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 12
   RR (Spontaneous): 30's
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   SpO2: 96%
   ABG: ///32/
   Ve: 10.6 L/min
   Physical Examination
   General Appearance: Thin, Anxious, Somnolent
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Tracheostomy in place
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Wheezes : ,
   Diminished: at bases)
   Abdominal: PEG in place
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.4 g/dL
   48 K/uL
   86 mg/dL
   0.2 mg/dL
   32 mEq/L
   3.9 mEq/L
   19 mg/dL
   116 mEq/L
   153 mEq/L
   41.2 %
   3.2 K/uL
        [image002.jpg]
                             [**2161-6-3**]  05:09 AM
                             [**2161-6-3**]  07:12 PM
                             [**2161-6-4**]  04:25 AM
                             [**2161-6-5**]  05:51 AM
                             [**2161-6-5**]  07:08 AM
                             [**2161-6-5**]  11:20 PM
                             [**2161-6-6**]  02:28 AM
                             [**2161-6-6**]  06:20 AM
                             [**2161-6-6**]  02:50 PM
                             [**2161-6-7**]  04:16 AM
   WBC
   2.8
   6.7
   8.9
   3.2
   Hct
   27.9
   25.4
   28.0
   25.0
   41.2
   Plt
   84
   100
   88
   48
   Cr
   0.2
   0.2
   0.3
   0.3
   0.3
   0.2
   TCO2
   42
   39
   38
   Glucose
   59
   59
   147
   328
   205
   86
   Other labs: PT / PTT / INR:14.8/33.2/1.3, ALT / AST:17/31, Alk Phos / T
   Bili:124/0.8, Amylase / Lipase:[**10-27**], Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:2.7 mmol/L,
   Albumin:1.9 g/dL, LDH:494 IU/L, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.2
   mg/dL
   Imaging: CXR:  Lung fields unchanged from previous films.  PICC line
   appears to be in axillary vein
   Microbiology: Sputum/Blood/Urine being sent now
   Assessment and Plan
   61 yo F with metastatic breast cancer admitted with MSSA bacteremia,
   now with prolonged hospital course complicated by PCP with ARDS and
   chronic respiratory failure, CMV viremia, febrile neutropenia.
   1.) Fever: Recurrent fever today. Likely NOT related to cytogam
   infusion, concern is for infection.  Potential sources include PICC
   infection, PNA (although no significant change in secretions/CXR), UTI,
   sinuses.  No obvious skin source.  Other possibility includes adrenal
   insufficiency although steroid taper was very slow.
       -F/u Pan-Culture
       -Send C diff
       -Will try to place peripherals and pull PICC line
       -Start cefepime for GNR coverage.  If culture neg at 48 hours, will
   tailor
       -Serial abdominal exams given proximity of fever to PEG placement.
   Exam benign this AM.
       -Check [**Last Name (un) 45**] stim
       -If initial w/u unrevealing, will broaden search to include
   sinuses.
    2.) Hematuria:  No further episodes yesterday
      -Monitor for now.
    3.) Respiratory Failure:  Remains tachypneic.  Seems to be central in
   nature.
      -Will hold on diuresis today until source of fever clearer.
    4.) CMV Viremia:
       -Per ID, will continue on Foscarnet until VL is 0.
    5.) MSSA Bacteremia:  Vanco until [**6-10**]
   6.) Abnormal CBC:  Likely erroneous specimen
                               -Repeat CBC.
    7.) FEN:  -Phos/K repletion on Foscarnet
                  -OK to use PEG
                  -Free water boluses in PEG for hypernatremia.
                  -Check ionized calcium
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2161-6-7**] 06:45 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2161-06-08 05:50:00 Physician Resident Progress Note
Chief Complaint: PCP / ARDS, CMV, metastatic breast cancer
   24 Hour Events:
 BLOOD CULTURED - At [**2161-6-7**] 08:00 AM
 SPUTUM CULTURE - At [**2161-6-7**] 08:00 AM
 URINE CULTURE - At [**2161-6-7**] 08:00 AM
 FEVER - 101.1
F - [**2161-6-8**] 12:00 AM
   On pressure support of [**11-20**] and O2 sats were around 90%, PEEP was
   increased from 5 to 8 and oxygenation improved
   suctioning during this time was watery tan secretions, overnight became
   more bloody- watery bloody secretions
   Cefepime added back to abx regimen in a.m. empirically as continued to
   spike off of cefepime, no new culture data
   C diff and fungal cultures sent
   rec'd 1.5 liters fluid and 30mg IV lasix in total for hypercalcemia
   without much response
   IV nurse unable to come up to attempt IV placement, will attempt today
   [**Last Name (un) **] stim with appropriate increase in cortisol (14 to 31 to 37)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2161-6-7**] 07:30 PM
   Foscarnet - [**2161-6-7**] 11:57 PM
   Cefipime - [**2161-6-8**] 02:48 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2161-6-7**] 07:30 PM
   Enoxaparin (Lovenox) - [**2161-6-7**] 07:30 PM
   Furosemide (Lasix) - [**2161-6-7**] 08:00 PM
   Fentanyl - [**2161-6-8**] 02:00 AM
   Lorazepam (Ativan) - [**2161-6-8**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Flowsheet Data as of  [**2161-6-8**] 05:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.8
C (100
   HR: 118 (96 - 130) bpm
   BP: 112/72(80) {69/42(49) - 143/83(97)} mmHg
   RR: 32 (19 - 42) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 67 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  6,099 mL
                                                                    648 mL
   PO:
             TF:
                                                                    720 mL
                                                                    169 mL
   IVF:
                                                                  3,969 mL
                                                                    229 mL
   Blood products:
   Total out:
                                                                  5,030 mL
                                                                    500 mL
   Urine:
                                                                  5,030 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,069 mL
                                                                    148 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 320 (320 - 320) mL (mid 300
   Vt (Spontaneous): 77 (77 - 384) mL
   PS : 30 cmH2O
   RR (Set): 12
   RR (Spontaneous): 45
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35, Hemodynamic Instability
   PIP: 23 cmH2O
   Plateau: 23 cmH2O
   SpO2: 95%
   ABG: ///37/
   Ve: 16.9 L/min
   Physical Examination
   General:  middle aged woman in mild distress
   HEENT:  Normocephalic/AT
   Lungs:  trach in place, ventilator dependent, bilateral crackles
   CV:  normal S1, S2, no new murmurs, gallops, rubs
   Abdomen:  +BS, soft, NT, ND, PEG placed
   Musculoskeletal:  no noticeable rashes/ecchymoses.  PICC line in place
   in R. Arm
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   86 K/uL
   7.4 g/dL
   122 mg/dL
   0.2 mg/dL
   37 mEq/L
   2.3 mEq/L
   20 mg/dL
   106 mEq/L
   150 mEq/L
   22.9 %
   6.5 K/uL
        [image002.jpg]
                             [**2161-6-5**]  05:51 AM
                             [**2161-6-5**]  07:08 AM
                             [**2161-6-5**]  11:20 PM
                             [**2161-6-6**]  02:28 AM
                             [**2161-6-6**]  06:20 AM
                             [**2161-6-6**]  02:50 PM
                             [**2161-6-7**]  04:16 AM
                             [**2161-6-7**]  11:40 AM
                             [**2161-6-7**]  03:50 PM
                             [**2161-6-8**]  03:45 AM
   WBC
   6.7
   8.9
   3.2
   7.2
   6.5
   Hct
   28.0
   25.0
   41.2
   22.8
   22.9
   Plt
   100
   88
   48
   79
   86
   Cr
   0.3
   0.3
   0.3
   0.2
   0.3
   0.2
   TCO2
   39
   38
   Glucose
   147
   328
   205
   86
   157
   122
   Other labs: PT / PTT / INR:14.8/33.2/1.3, ALT / AST:17/31, Alk Phos / T
   Bili:124/0.8, Amylase / Lipase:[**10-27**], Differential-Neuts:87.0 %,
   Band:0.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:2.7 mmol/L,
   Albumin:1.9 g/dL, LDH:494 IU/L, Ca++:9.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
   #Repiratory failure: s/p treatment for PCP w/ caspo / pentamidine and
   sterods
   -s/p trach, on pressure support of [**11-23**] and is sating 95%, was sating
   90% with a PEEP of 5.
   -while on PEEP of 5 seemed uncomfortable and O2 sat 90%, required
   increased suctioning, with watery bloody secretions now, possibly due
   to airway trauma from suctioning.
   -maintain plts > 50
   -repeat CXR this a.m.
   -volume status, goal even given fevers
   # CMV: VL  trending down with foscarnet therapy (d/c after VL is 0 per
   ID)
   -repeat VL 7,000 down from 21,000- repeat VL on [**6-9**] (and q5 days)
   -contact ID prn
   -d/c further cytogam
   -[**Hospital1 **] lytes
   # Fever: not neutropenic.  On Vanc so less likely PICC line but still
   possibility.
   -unable to obtain peripherals on sunday, IV nurse to attempt today,
   once has two peripherals d/c PICC and culture tip
   -given ? bloody secretions repeat CXR
   -not being covered for anaerobes or fungal coverage
   -blood cultures and mycolitic fungal cultures sent, in addition glucan
   and galactomannan (fungal studies) for this a.m.
   # Hypernatremia: Free water deficit 2.8 liters, continue 250cc free
   water flushes q4hrs, rec'd NS for hypercalcemia x 1.5 liters, attempt
   to use D5 1/2NS rather than NS.
   # Hypercalcemia: likely related to underlying malignancy, poor
   prognostic sign if related to malignancy
   -[**Hospital1 **] calcium
   -fluid + lasix prn, start bisphosphonate if unable to control w/ fluid
   and lasx
   # Hyperglycemia
   - restarted RISS
   #MSSA bacteremia:
   -on 1g q12hrs of vancomycin for possible endocarditis, surveillance
   cultures negative
   - continue 6 week course
 stop date [**6-10**]
   # Leukopenia: resolved with stopping gancyclovir and with GCSF
   # Anemia: continue to trend daily
 stable
   # Pain: Secondary to clavicular and rib fractures. On fentanyl patch
   and IV fentanyl.  Pain well controlled.
   # Anxiety / depression:
   - prn ativan
   - celexa- restart as PEG placed
   #Breast CA: Progressive and metastatic.
   - continue supportive management
   -hypercalcemia, likely related to breast CA
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
   # Nutrition:  PEG placed. Tube Feeds.
   - Will give free water boluses for high sodium.
   - nutrition consult
   # Access: PICC line
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2161-6-8**] 03:58 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition:

2161-06-08 11:22:00 Physician Attending Progress Note
Chief Complaint: 61 with widely metastatic breast CA, now on chronic
   vent with inability to wean
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues to spike, High K+, Mag requirements
   24 Hour Events:
 BLOOD CULTURED - At [**2161-6-7**] 08:00 AM
 SPUTUM CULTURE - At [**2161-6-7**] 08:00 AM
 URINE CULTURE - At [**2161-6-7**] 08:00 AM
 FEVER - 101.1
F - [**2161-6-8**] 12:00 AM
   PS 12/5 - peep increased to 8 for hypoxemia, mild bloody secretiuons
   from trach
   Cefopime re-added.
   Lasix, fluid for hypercalcemia
   [**Last Name (un) **] Stim okay
   History obtained from Medical records
   Patient unable to provide history: Sedated, On Vent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Foscarnet - [**2161-6-7**] 11:57 PM
   Cefipime - [**2161-6-8**] 02:48 AM
   Vancomycin - [**2161-6-8**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2161-6-7**] 07:30 PM
   Furosemide (Lasix) - [**2161-6-7**] 08:00 PM
   Lorazepam (Ativan) - [**2161-6-8**] 05:15 AM
   Enoxaparin (Lovenox) - [**2161-6-8**] 08:37 AM
   Fentanyl - [**2161-6-8**] 10:02 AM
   Other medications:
   RISS, celexa, lidocaine patch, fentanyl, KCL, free water, seroquel,
   nebs, mgso4, guaifenisen
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-6-8**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.8
C (100.1
   HR: 105 (96 - 130) bpm
   BP: 91/58(66) {69/42(49) - 143/83(97)} mmHg
   RR: 21 (19 - 42) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.8 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  6,099 mL
                                                                  1,453 mL
   PO:
             TF:
                                                                    720 mL
                                                                    271 mL
   IVF:
                                                                  3,969 mL
                                                                    412 mL
   Blood products:
   Total out:
                                                                  5,030 mL
                                                                  1,060 mL
   Urine:
                                                                  5,030 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,069 mL
                                                                    393 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (320 - 450) mL
   Vt (Spontaneous): 151 (77 - 384) mL
   PS : 20 cmH2O
   RR (Set): 20
   RR (Spontaneous): 39
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35, Hemodynamic Instability
   PIP: 32 cmH2O
   SpO2: 93%
   Ve: 15.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL, Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): 3, Movement: Not assessed, Sedated, Tone:
   Normal
   Labs / Radiology
   7.4 g/dL
   86 K/uL
   122 mg/dL
   0.2 mg/dL
   37 mEq/L
   2.3 mEq/L
   20 mg/dL
   106 mEq/L
   150 mEq/L
   22.9 %
   6.5 K/uL
        [image002.jpg]
                             [**2161-6-5**]  05:51 AM
                             [**2161-6-5**]  07:08 AM
                             [**2161-6-5**]  11:20 PM
                             [**2161-6-6**]  02:28 AM
                             [**2161-6-6**]  06:20 AM
                             [**2161-6-6**]  02:50 PM
                             [**2161-6-7**]  04:16 AM
                             [**2161-6-7**]  11:40 AM
                             [**2161-6-7**]  03:50 PM
                             [**2161-6-8**]  03:45 AM
   WBC
   6.7
   8.9
   3.2
   7.2
   6.5
   Hct
   28.0
   25.0
   41.2
   22.8
   22.9
   Plt
   100
   88
   48
   79
   86
   Cr
   0.3
   0.3
   0.3
   0.2
   0.3
   0.2
   TCO2
   39
   38
   Glucose
   147
   328
   205
   86
   157
   122
   Other labs: PT / PTT / INR:14.8/33.2/1.3, ALT / AST:17/31, Alk Phos / T
   Bili:124/0.8, Amylase / Lipase:[**10-27**], Differential-Neuts:87.0 %,
   Band:0.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:2.7 mmol/L,
   Albumin:1.9 g/dL, LDH:494 IU/L, Ca++:9.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   61 yo F with metastatic breast cancer admitted with MSSA bacteremia,
   now with prolonged hospital course complicated by PCP with ARDS and
   chronic respiratory failure, CMV viremia, febrile neutropenia.
   1.) Fever: Recurrent fever today. Likely NOT related to cytogam
   infusion, concern is for infection.  Potential sources include PICC
   infection, PNA (although no significant change in secretions/CXR), UTI,
   sinuses.  No obvious skin source.
       -F/u Pan-Culture
       -Send C diff
       -Will try to replace PICC line
       -Start cefepime for GNR coverage.  If culture neg at 48 hours, will
   tailor
       -Serial abdominal exams given proximity of fever to PEG placement.
   Exam benign this AM.
       -Consider broadening search to include sinuses.
    2.) Hematuria:  No further episodes yesterday
      -Monitor for now.
    3.) Respiratory Failure:  Remains tachypneic.  Seems to be central in
   nature.
      -Will hold on diuresis today until source of fever clearer.
      - Now with trach/PEG
      - Check ABg, increase pain meds
      - Consider change to A-C with pain meds to control tachypnea
   consequent to pain
      - Hemoptysis resolved
    4.) CMV Viremia:
       -Per ID, will continue on Foscarnet until VL is 0.
    5.) MSSA Bacteremia:  Vanco until [**6-10**]
    6) FEN:  -Phos/K repletion on Foscarnet
                  -OK to use PEG
                  -Free water boluses in PEG for hypernatremia.
                  -Check ionized calcium
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2161-6-8**] 03:58 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2161-5-11**] 09:51 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2161-06-09 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - STOP [**2161-6-8**] 05:15 PM
   - Per heme/onc, added a CEA and CA 27.29.
   - PICC pulled and R. peripheral line.
   -Sent off labs in AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2161-6-8**] 07:49 PM
   Foscarnet - [**2161-6-8**] 11:29 PM
   Cefipime - [**2161-6-9**] 02:13 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2161-6-8**] 07:49 PM
   Lorazepam (Ativan) - [**2161-6-9**] 04:09 AM
   Fentanyl - [**2161-6-9**] 06:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Nutritional Support: Tube feeds
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2161-6-9**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.7
C (99.9
   HR: 116 (95 - 116) bpm
   BP: 102/75(80) {86/57(66) - 127/92(101)} mmHg
   RR: 30 (18 - 39) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.8 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  3,891 mL
                                                                  1,678 mL
   PO:
             TF:
                                                                    769 mL
                                                                    234 mL
   IVF:
                                                                  1,852 mL
                                                                    944 mL
   Blood products:
   Total out:
                                                                  1,880 mL
                                                                    460 mL
   Urine:
                                                                  1,880 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,011 mL
                                                                  1,218 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 31
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 30 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 12.5 L/min
   Physical Examination
   General:  middle aged woman in mild distress
   Lungs:  on vent, volume A/C, trach, expiratory wheezing b/l
   CV:  nl s1, s2, rrr, no m/r/g
   Abd: soft, nt, nd, hyperactive BS, tube feeds.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   86 K/uL
   7.4 g/dL
   118 mg/dL
   0.2 mg/dL
   34 mEq/L
   2.9 mEq/L
   17 mg/dL
   103 mEq/L
   145 mEq/L
   22.9 %
   6.5 K/uL
        [image002.jpg]
                             [**2161-6-5**]  07:08 AM
                             [**2161-6-5**]  11:20 PM
                             [**2161-6-6**]  02:28 AM
                             [**2161-6-6**]  06:20 AM
                             [**2161-6-6**]  02:50 PM
                             [**2161-6-7**]  04:16 AM
                             [**2161-6-7**]  11:40 AM
                             [**2161-6-7**]  03:50 PM
                             [**2161-6-8**]  03:45 AM
                             [**2161-6-8**]  05:18 PM
   WBC
   8.9
   3.2
   7.2
   6.5
   Hct
   25.0
   41.2
   22.8
   22.9
   Plt
   88
   48
   79
   86
   Cr
   0.3
   0.3
   0.2
   0.3
   0.2
   0.2
   TCO2
   39
   38
   Glucose
   328
   205
   86
   157
   122
   118
   Other labs: PT / PTT / INR:14.8/33.2/1.3, ALT / AST:17/31, Alk Phos / T
   Bili:124/0.8, Amylase / Lipase:[**10-27**], Differential-Neuts:87.0 %,
   Band:0.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:2.7 mmol/L,
   Albumin:1.9 g/dL, LDH:494 IU/L, Ca++:9.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
   #Repiratory failure: s/p treatment for PCP w/ caspo / pentamidine and
   sterods
   -s/p trach, now on volume A/C
   -Try A/C vent settings, titrate up fentanyl for comfort
   # CMV: VL  trending down with foscarnet therapy (d/c after VL is 0 per
   ID)
   -repeat VL 7,000 down from 21,000- repeat VL today(and q5 days)
   -contact ID prn
   # Fever: not neutropenic.  On Vanc so less likely PICC line but still
   possibility.
   -unable to obtain peripherals on sunday, IV nurse to attempt today,
   once has two peripherals d/c PICC and culture tip
   -given ? bloody secretions repeat CXR
   -F/U blood cultures and mycolitic fungal cultures sent, in addition
   glucan and galactomannan (fungal studies) for this a.m.
   # Hypernatremia: Free water deficit 2.8 liters, continue 250cc free
   water flushes q4hrs, rec'd NS for hypercalcemia x 1.5 liters, attempt
   to use D5 1/2NS rather than NS.
   - 100ml/hr D5W until 2000ml
   # Hypercalcemia: likely related to underlying malignancy, poor
   prognostic sign if related to malignancy
   -fluid + lasix prn
   # Hyperglycemia
   - Cont. RISS
   #MSSA bacteremia:
   -on 1g q12hrs of vancomycin for possible endocarditis, surveillance
   cultures negative
   - continue 6 week course
 stop date [**6-10**]
   # Leukopenia: resolved with stopping gancyclovir and with GCSF
   # Anemia: continue to trend daily
 stable
   # Pain: Secondary to clavicular and rib fractures. On fentanyl patch
   and IV fentanyl.  Pain well controlled.
   # Anxiety / depression:
   - prn ativan
   - celexa- restart as PEG placed
   #Breast CA: Progressive and metastatic.
   - continue supportive management
   -hypercalcemia, likely related to breast CA
   # Clavicular fracture:  sling, pain well controlled with fentanyl patch
   and gtt and lidocaine patch to clavicular area
   # Nutrition:  PEG placed. Tube Feeds.
   - Will give free water boluses for high sodium.
   - nutrition consult
   # Access: PICC line
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2161-6-8**] 11:29 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2161-6-8**] 06:13 PM
   20 Gauge - [**2161-6-8**] 06:13 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2161-06-09 11:23:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   metastatic breast CA, resp failure
   24 Hour Events:
 PICC LINE - STOP [**2161-6-8**] 05:15 PM
   On full vent support
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Foscarnet - [**2161-6-8**] 11:29 PM
   Cefipime - [**2161-6-9**] 02:13 AM
   Vancomycin - [**2161-6-9**] 08:35 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2161-6-9**] 04:09 AM
   Fentanyl - [**2161-6-9**] 06:39 AM
   Enoxaparin (Lovenox) - [**2161-6-9**] 08:36 AM
   Famotidine (Pepcid) - [**2161-6-9**] 08:36 AM
   Other medications:
   RISS, Celexa, lidocaine patch, neurontin, senna, colace, chlorhexidine,
   fentanyl patch, KCL
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-6-9**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.8
C (100.1
   HR: 106 (95 - 116) bpm
   BP: 73/46(52) {73/46(52) - 127/92(101)} mmHg
   RR: 24 (18 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.8 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  3,891 mL
                                                                  2,259 mL
   PO:
             TF:
                                                                    769 mL
                                                                    305 mL
   IVF:
                                                                  1,852 mL
                                                                  1,204 mL
   Blood products:
   Total out:
                                                                  1,880 mL
                                                                    600 mL
   Urine:
                                                                  1,880 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,011 mL
                                                                  1,659 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 30 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   Ve: 12.5 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Sedated, Tone: Normal
   Labs / Radiology
   7.4 g/dL
   86 K/uL
   122 mg/dL
   0.2 mg/dL
   34 mEq/L
   3.1 mEq/L
   17 mg/dL
   95 mEq/L
   136 mEq/L
   20
   6.5 K/uL
        [image002.jpg]
                             [**2161-6-5**]  11:20 PM
                             [**2161-6-6**]  02:28 AM
                             [**2161-6-6**]  06:20 AM
                             [**2161-6-6**]  02:50 PM
                             [**2161-6-7**]  04:16 AM
                             [**2161-6-7**]  11:40 AM
                             [**2161-6-7**]  03:50 PM
                             [**2161-6-8**]  03:45 AM
                             [**2161-6-8**]  05:18 PM
                             [**2161-6-9**]  07:47 AM
   WBC
   8.9
   3.2
   7.2
   6.5
   Hct
   25.0
   41.2
   22.8
   22.9
   20
   Plt
   88
   48
   79
   86
   Cr
   0.3
   0.3
   0.2
   0.3
   0.2
   0.2
   TCO2
   38
   Glucose
   328
   205
   86
   157
   122
   118
   122
   Other labs: PT / PTT / INR:14.8/33.2/1.3, ALT / AST:17/31, Alk Phos / T
   Bili:124/0.8, Amylase / Lipase:[**10-27**], Differential-Neuts:87.0 %,
   Band:0.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:2.7 mmol/L,
   Albumin:1.9 g/dL, LDH:494 IU/L, Ca++:9.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.1
   mg/dL
   Imaging: CXR - diffuse worsening infiltrates
   Assessment and Plan
   61 yo F with metastatic breast cancer admitted with MSSA bacteremia,
   now with prolonged hospital course complicated by PCP with ARDS and
   chronic respiratory failure, CMV viremia, febrile neutropenia.
   1.) Fever: Recurrent fever today. Likely NOT related to cytogam
   infusion, concern is for infection.  Potential sources include PICC
   infection, PNA (although no significant change in secretions/CXR), UTI,
   sinuses.  No obvious skin source.
       -F/u Pan-Culture
       - PICC pulled
       -Serial abdominal exams given proximity of fever to PEG placement.
   Exam benign this AM.
    2.) Hematuria:  No further episodes yesterday
      -Monitor for now.
    3.) Respiratory Failure
      -Will diuresis today given CXR/exam - shoot for 1 liter negative
      - Now with trach/PEG
      - On A-C with pain meds tachypnea better controlled - no plan to
   wean
    4.) CMV Viremia:
        -Per ID, will continue on Foscarnet until VL is 0.
    5.) MSSA Bacteremia:  Vanco until [**6-10**]
    6.) FEN:  -Phos/K repletion on Foscarnet
                   -OK to use PEG
                   -Free water boluses in PEG for hypernatremia.
                   -Check ionized calcium
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2161-6-8**] 06:13 PM
   20 Gauge - [**2161-6-8**] 06:13 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2161-06-10 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Gave patient 10mg Lasix in afternoon as per fluid goal of negative
   -Began to run in the low 70's/40's, held overnight dose
   -Overnight ABG normal, vent settings unchanged.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2161-6-9**] 08:35 AM
   Foscarnet - [**2161-6-10**] 01:00 AM
   Cefipime - [**2161-6-10**] 03:02 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2161-6-9**] 08:36 AM
   Enoxaparin (Lovenox) - [**2161-6-9**] 08:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Chest pain
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2161-6-10**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.7
C (98
   HR: 100 (85 - 114) bpm
   BP: 84/53(61) {70/43(50) - 133/79(93)} mmHg
   RR: 20 (19 - 32) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.8 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  3,086 mL
                                                                  1,369 mL
   PO:
             TF:
                                                                    732 mL
                                                                    219 mL
   IVF:
                                                                  1,304 mL
                                                                    550 mL
   Blood products:
   Total out:
                                                                  2,532 mL
                                                                  1,360 mL
   Urine:
                                                                  2,532 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    554 mL
                                                                      9 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 7
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 35 cmH2O
   Plateau: 19 cmH2O
   SpO2: 93%
   ABG: 7.47/52/52//11
   Ve: 9.4 L/min
   PaO2 / FiO2: 104
   Physical Examination
   General Appearance: mildly distressed
   Head, Ears, Nose, Throat: tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : Expiratory, unchanged
   from last PE)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   86 K/uL
   7.4 g/dL
   84 mg/dL
   0.2 mg/dL
   34 mEq/L
   3.6 mEq/L
   17 mg/dL
   95 mEq/L
   140 mEq/L
   20
   6.5 K/uL
        [image002.jpg]
                                     pH
                                    7.47
                                    pCO2
                                     52
                                     pO2
                                     52
                                    HCO3
                                     39
                                   BaseXS
                                     11
   Na:140
   K:3.6
   Cl:95
   Glu:84
   freeCa:1.15
   Lactate:1.7
                             [**2161-6-6**]  02:28 AM
                             [**2161-6-6**]  06:20 AM
                             [**2161-6-6**]  02:50 PM
                             [**2161-6-7**]  04:16 AM
                             [**2161-6-7**]  11:40 AM
                             [**2161-6-7**]  03:50 PM
                             [**2161-6-8**]  03:45 AM
                             [**2161-6-8**]  05:18 PM
                             [**2161-6-9**]  07:47 AM
                             [**2161-6-9**]  07:49 PM
   WBC
   3.2
   7.2
   6.5
   Hct
   41.2
   22.8
   22.9
   20
   Plt
   48
   79
   86
   Cr
   0.3
   0.3
   0.2
   0.3
   0.2
   0.2
   TCO2
   38
   39
   Glucose
   328
   205
   86
   157
   122
   118
   122
   84
   Other labs: PT / PTT / INR:14.8/33.2/1.3, ALT / AST:17/31, Alk Phos / T
   Bili:124/0.8, Amylase / Lipase:[**10-27**], Differential-Neuts:87.0 %,
   Band:0.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L,
   Albumin:1.9 g/dL, LDH:494 IU/L, Ca++:9.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.1
   mg/dL
   Microbiology: Blood Cultures from [**6-7**] still pending
   Assessment and Plan
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
   #Repiratory failure: s/p treatment for PCP w/ caspo / pentamidine and
   sterods
   -s/p trach, now on volume A/C
   -continue, titrate fentanyl and adjust vent settings as needed for
   comfort
   # CMV: VL  trending down with foscarnet therapy (d/c after VL is 0 per
   ID)
   -repeat VL 7,000 down from 21,000- repeat VL tomorrow with AMLabs (and
   q5 days)
   -contact ID prn
   # Fever: not neutropenic.
   -PICC removed, f/u tip culture if sent
   -F/U blood cultures
   # Hypercalcemia: likely related to underlying malignancy, poor
   prognostic sign if related to malignancy
   -Holding calcium
   # Hyperglycemia
   - Cont. RISS
   # Anemia: continue to trend daily
 stable
   # Pain: Secondary to clavicular and rib fractures. On fentanyl patch
   and IV fentanyl.  Pain well controlled.
   # Anxiety / depression:
   - prn ativan
   #Breast CA: Progressive and metastatic.
   - continue supportive management
   -F/U CA & CEA markers as per Heme/Onc
   # Nutrition:  PEG placed. Tube Feeds.
   Nutren 2.0 (Full) - [**2161-6-10**] 06:58 AM 30 mL/hour
   #FEN
   -40meq K w/500ml NS IV infusion
   -Diurese with 10mg Lasix once, check fluid status 6 hours and possibly
   increase Lasix to 20mg
   # Access: R. IV peripheral
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2161-6-10**] 06:58 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2161-6-8**] 06:13 PM
   20 Gauge - [**2161-6-8**] 06:13 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2161-06-10 10:35:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, metastatic breast CA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Diuresed last PM but BP fell to 70's so PM lasix held.
   ABG stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2161-6-9**] 08:35 AM
   Foscarnet - [**2161-6-10**] 01:00 AM
   Cefipime - [**2161-6-10**] 03:02 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2161-6-9**] 08:29 PM
   Other medications:
   RISS, celexa, lorazepam, lidocaone patch, neurontin, senna, colace,
   fentanyl patch, chlorhexidine, famotidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Psychiatric / Sleep: Daytime somnolence
   Flowsheet Data as of  [**2161-6-10**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 83 (83 - 114) bpm
   BP: 67/41(47) {67/41(47) - 133/79(93)} mmHg
   RR: 21 (17 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.8 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  3,086 mL
                                                                  1,765 mL
   PO:
             TF:
                                                                    732 mL
                                                                    315 mL
   IVF:
                                                                  1,304 mL
                                                                    550 mL
   Blood products:
   Total out:
                                                                  2,532 mL
                                                                  1,460 mL
   Urine:
                                                                  2,532 mL
                                                                  1,460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    554 mL
                                                                    305 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 11
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 31 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: 7.47/52/52//11
   Ve: 8.1 L/min
   PaO2 / FiO2: 104
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Non -purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   86 K/uL
   84 mg/dL
   0.2 mg/dL
   34 mEq/L
   3.6 mEq/L
   17 mg/dL
   95 mEq/L
   140 mEq/L
   20
   6.5 K/uL
        [image002.jpg]
                             [**2161-6-6**]  02:28 AM
                             [**2161-6-6**]  06:20 AM
                             [**2161-6-6**]  02:50 PM
                             [**2161-6-7**]  04:16 AM
                             [**2161-6-7**]  11:40 AM
                             [**2161-6-7**]  03:50 PM
                             [**2161-6-8**]  03:45 AM
                             [**2161-6-8**]  05:18 PM
                             [**2161-6-9**]  07:47 AM
                             [**2161-6-9**]  07:49 PM
   WBC
   3.2
   7.2
   6.5
   Hct
   41.2
   22.8
   22.9
   20
   Plt
   48
   79
   86
   Cr
   0.3
   0.3
   0.2
   0.3
   0.2
   0.2
   TCO2
   38
   39
   Glucose
   328
   205
   86
   157
   122
   118
   122
   84
   Other labs: PT / PTT / INR:14.8/33.2/1.3, ALT / AST:17/31, Alk Phos / T
   Bili:124/0.8, Amylase / Lipase:[**10-27**], Differential-Neuts:87.0 %,
   Band:0.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L,
   Albumin:1.9 g/dL, LDH:494 IU/L, Ca++:9.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.1
   mg/dL
   Microbiology: No new data
   Assessment and Plan
   1.) Resp Failure - on full vent with little change, trach'd on CMV with
   good RR
         Keep even to negative about 500cc
    2.) Hematuria:  No further episodes yesterday
    3.) CMV Viremia:
        -Per ID, will continue on Foscarnet until VL is 0.
   4.) MSSA Bacteremia:  Vanco until [**6-10**]
   5.) Transfuse for Hct 20 or below
   6.) FEN:  -Phos/K repletion on Foscarnet
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2161-6-10**] 06:58 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2161-6-8**] 06:13 PM
   20 Gauge - [**2161-6-8**] 06:13 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2161-06-11 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2161-6-10**] 08:00 PM
   -Case management involoved to screen for placement.
   -PICC placed and appears appropriately positioned on CXR.
   -Morning HCT is 19.1, transfused 1 unit RBCs.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2161-6-9**] 08:35 AM
   Foscarnet - [**2161-6-11**] 12:05 AM
   Cefipime - [**2161-6-11**] 03:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2161-6-10**] 01:55 PM
   Famotidine (Pepcid) - [**2161-6-10**] 08:06 PM
   Enoxaparin (Lovenox) - [**2161-6-10**] 11:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: Cough
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2161-6-11**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 90 (83 - 110) bpm
   BP: 88/52(61) {67/41(47) - 138/81(96)} mmHg
   RR: 14 (10 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.8 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  3,340 mL
                                                                    729 mL
   PO:
             TF:
                                                                    740 mL
                                                                    199 mL
   IVF:
                                                                    800 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                  2,620 mL
                                                                    790 mL
   Urine:
                                                                  2,620 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    720 mL
                                                                    -61 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 31 cmH2O
   Plateau: 30 cmH2O
   SpO2: 95%
   ABG: ///34/
   Ve: 8.8 L/min
   Physical Examination
   General Appearance: mildly distressed
   Head, Ears, Nose, Throat: tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   120 K/uL
   6.3 g/dL
   139 mg/dL
   0.3 mg/dL
   34 mEq/L
   3.0 mEq/L
   17 mg/dL
   106 mEq/L
   148 mEq/L
   19.1 %
   5.2 K/uL
        [image002.jpg]
                             [**2161-6-6**]  02:50 PM
                             [**2161-6-7**]  04:16 AM
                             [**2161-6-7**]  11:40 AM
                             [**2161-6-7**]  03:50 PM
                             [**2161-6-8**]  03:45 AM
                             [**2161-6-8**]  05:18 PM
                             [**2161-6-9**]  07:47 AM
                             [**2161-6-9**]  07:49 PM
                             [**2161-6-10**]  10:30 AM
                             [**2161-6-11**]  04:35 AM
   WBC
   3.2
   7.2
   6.5
   6.0
   5.2
   Hct
   41.2
   22.8
   22.9
   20
   21.3
   19.1
   Plt
   48
   79
   86
   107
   120
   Cr
   0.3
   0.2
   0.3
   0.2
   0.2
   0.2
   0.3
   TCO2
   39
   Glucose
   [**Telephone/Fax (2) 3366**]2
   118
   122
   84
   100
   139
   Other labs: PT / PTT / INR:14.8/33.2/1.3, ALT / AST:17/31, Alk Phos / T
   Bili:124/0.8, Amylase / Lipase:[**10-27**], Differential-Neuts:88.9 %,
   Band:0.0 %, Lymph:7.2 %, Mono:2.5 %, Eos:0.6 %, Lactic Acid:1.7 mmol/L,
   Albumin:1.9 g/dL, LDH:494 IU/L, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.6
   mg/dL
   Microbiology: -CMV viral load pending [**6-10**]
   -Blood Cultures 6/22 pending
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
   #Repiratory failure: s/p treatment for PCP w/ caspo / pentamidine and
   sterods
   -s/p trach, now on volume A/C
   -complaining of cough, need to suction
   -continue, titrate fentanyl and adjust vent settings as needed for
   comfort
   -D/C sutures around trach
   -F/U Case management
   # Anemia: Hct at 19.1
   -Transfuse 1 unit PRBC's
   # CMV: VL  trending down with foscarnet therapy (d/c after VL is 0 per
   ID)
   -F/U CMV Viral Load
   -F/U blood cultures
   -F/U ID for continuation of Abx
    # Hyperglycemia
   - Cont. RISS
   # Pain: Secondary to clavicular and rib fractures. On fentanyl patch
   and IV fentanyl.  Pain well controlled.
   # Anxiety / depression:
   - prn ativan
   #Breast CA: Progressive and metastatic.
   - continue supportive management
   -F/U CA & CEA markers as per Heme/Onc
   # Nutrition:  PEG placed. Tube Feeds.
   -Nutren 2.0 (Full) - [**2161-6-10**] 06:58 AM 30 mL/hour
   #FEN
   -Keep I/O negative
   -Increase Free Water for hypernatremia
   # Access: R. IV peripheral
   -PICC line to be placed either today or tomorrow.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2161-6-11**] 03:07 AM 30 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2161-6-8**] 06:13 PM
   20 Gauge - [**2161-6-8**] 06:13 PM
   PICC Line - [**2161-6-10**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   -Spoke with ID, recommendations below:
   *Continue Foscarnet until VL is 0, after which continue on maintainence
   dose ([**12-17**] regular dose = 3000) for 21 days, F/U lytes during this time.
   *As per recent Aceneitobacter speciation
 complete 14 day course of
   Cefepime (started [**6-7**]).
   ------ Protected Section Addendum Entered By:[**Name (NI) 3370**] [**Name8 (MD) 3371**], MD
   on:[**2161-6-11**] 12:41 ------

2161-06-11 11:09:00 Physician Attending Progress Note
Chief Complaint: Metastatic Breast CA, Chronic resp failure, vent
   dependent
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2161-6-10**] 08:00 PM
   Quiet evening with no significant events
   Transfused for HCT 19
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2161-6-9**] 08:35 AM
   Foscarnet - [**2161-6-11**] 12:05 AM
   Cefipime - [**2161-6-11**] 03:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2161-6-10**] 01:55 PM
   Famotidine (Pepcid) - [**2161-6-10**] 08:06 PM
   Enoxaparin (Lovenox) - [**2161-6-11**] 08:21 AM
   Other medications:
   RISS, celexa, ativan, neurontin, senna, colace, chlorhexidine,
   fentanyl, lidocaine patch, pepcid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-6-11**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.4
   HR: 93 (89 - 112) bpm
   BP: 88/55(63) {76/47(54) - 138/81(96)} mmHg
   RR: 19 (10 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.8 kg (admission): 67 kg
   Height: 60 Inch
           Total In:
                                                                  3,340 mL
                                                                  1,348 mL
   PO:
           TF:
                                                                    740 mL
                                                                    327 mL
   IVF:
                                                                    800 mL
                                                                    350 mL
   Blood products:
   241 mL
   Total out:
                                                                  2,620 mL
                                                                  1,130 mL
   Urine:
                                                                  2,620 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    720 mL
                                                                    218 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 31 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: ///34/
   Ve: 10.1 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   6.3 g/dL
   120 K/uL
   139 mg/dL
   0.3 mg/dL
   34 mEq/L
   3.0 mEq/L
   17 mg/dL
   106 mEq/L
   148 mEq/L
   19.1 %
   5.2 K/uL
        [image002.jpg]
                             [**2161-6-6**]  02:50 PM
                             [**2161-6-7**]  04:16 AM
                             [**2161-6-7**]  11:40 AM
                             [**2161-6-7**]  03:50 PM
                             [**2161-6-8**]  03:45 AM
                             [**2161-6-8**]  05:18 PM
                             [**2161-6-9**]  07:47 AM
                             [**2161-6-9**]  07:49 PM
                             [**2161-6-10**]  10:30 AM
                             [**2161-6-11**]  04:35 AM
   WBC
   3.2
   7.2
   6.5
   6.0
   5.2
   Hct
   41.2
   22.8
   22.9
   20
   21.3
   19.1
   Plt
   48
   79
   86
   107
   120
   Cr
   0.3
   0.2
   0.3
   0.2
   0.2
   0.2
   0.3
   TCO2
   39
   Glucose
   [**Telephone/Fax (2) 3366**]2
   118
   122
   84
   100
   139
   Other labs: PT / PTT / INR:14.8/33.2/1.3, ALT / AST:17/31, Alk Phos / T
   Bili:124/0.8, Amylase / Lipase:[**10-27**], Differential-Neuts:88.9 %,
   Band:0.0 %, Lymph:7.2 %, Mono:2.5 %, Eos:0.6 %, Lactic Acid:1.7 mmol/L,
   Albumin:1.9 g/dL, LDH:494 IU/L, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.6
   mg/dL
   Imaging: CXR - Unchanged; PICC in place
   Microbiology: BC's neg to date
   Assessment and Plan
   1.) Resp Failure - on full vent with little change, trach'd on CMV with
   good RR
         Keep even to negative about 500cc
         Being Screened for Chronic Care [**Hospital **] Hospital
     2.) Hematuria:  No further episodes yesterday
    3.) CMV Viremia:
         -Per ID, will d/c  Foscarnet when VL is 0.
    4.) MSSA Bacteremia:  Vanco d/c'd yesterday
    5.) Transfused today for Hct 19
    6.) FEN:  -Phos/K repletion on Foscarnet
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2161-6-11**] 03:07 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2161-6-8**] 06:13 PM
   PICC Line - [**2161-6-10**] 08:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2161-06-13 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -No acute events overnight
   -CMV viral load at 2,050 copies/ml drawn [**6-10**], will continue Foscarnet
   and ordered CMV VL for [**6-14**] all as per ID
   -Given Lasix 10mg to keep I/O even, currently at 0.5 L positive so
   probably even to negative overall
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Foscarnet - [**2161-6-12**] 11:03 PM
   Cefipime - [**2161-6-13**] 01:22 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2161-6-12**] 08:00 AM
   Enoxaparin (Lovenox) - [**2161-6-12**] 07:31 PM
   Furosemide (Lasix) - [**2161-6-12**] 10:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2161-6-13**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.7
C (98
   HR: 98 (84 - 104) bpm
   BP: 134/54(74) {101/54(70) - 151/84(97)} mmHg
   RR: 26 (4 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.8 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  4,569 mL
                                                                    715 mL
   PO:
             TF:
                                                                    699 mL
                                                                    237 mL
   IVF:
                                                                  1,770 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                  3,510 mL
                                                                  1,260 mL
   Urine:
                                                                  3,510 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,059 mL
                                                                   -545 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 388 (315 - 442) mL
   PS : 0 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 35 cmH2O
   SpO2: 94%
   ABG: ///37/
   Ve: 9.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   152 K/uL
   7.2 g/dL
   111 mg/dL
   0.2 mg/dL
   37 mEq/L
   2.5 mEq/L
   15 mg/dL
   101 mEq/L
   144 mEq/L
   21.3 %
   5.4 K/uL
        [image002.jpg]
                             [**2161-6-8**]  03:45 AM
                             [**2161-6-8**]  05:18 PM
                             [**2161-6-9**]  07:47 AM
                             [**2161-6-9**]  07:49 PM
                             [**2161-6-10**]  10:30 AM
                             [**2161-6-11**]  04:35 AM
                             [**2161-6-11**]  04:29 PM
                             [**2161-6-12**]  04:02 AM
                             [**2161-6-12**]  04:41 PM
                             [**2161-6-13**]  04:11 AM
   WBC
   6.5
   6.0
   5.2
   7.3
   6.5
   7.3
   5.4
   Hct
   22.9
   20
   21.3
   19.1
   23.1
   22.6
   23.7
   21.3
   Plt
   86
   107
   120
   143
   162
   163
   152
   Cr
   0.2
   0.2
   0.2
   0.3
   0.2
   0.3
   0.2
   TCO2
   39
   Glucose
   122
   118
   122
   84
   100
   139
   78
   123
   111
   Other labs: PT / PTT / INR:14.8/33.2/1.3, ALT / AST:17/31, Alk Phos / T
   Bili:124/0.8, Amylase / Lipase:[**10-27**], Differential-Neuts:81.0 %,
   Band:0.0 %, Lymph:10.0 %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:1.7
   mmol/L, Albumin:1.9 g/dL, LDH:494 IU/L, Ca++:9.3 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.4 mg/dL
   Microbiology: CMV
   Assessment and Plan
   61F with PMH metastatic breast CA on steroids, s/p third cycle doxil
   [**4-14**], presented with septic shock, AMS, and bacteremia now with PCP
   pneumonia and ARDS.
   #Repiratory failure: s/p treatment for PCP w/ caspo / pentamidine and
   steroids
   -titrate fentanyl and adjust vent settings as needed for comfort
   -Placement at [**Hospital 82**] rehab facility today
   # CMV: VL trending down with foscarnet therapy
   -CMV viral load at 2050, follow CMV viral load every 5 to 7 days.
   Adjust foscarnet dose as per ID recs once CMV viral load has reached 0.
   -Cont. Cefepime 14 day course (started [**6-7**])
   #Hypernatremia - Na at 147
   -Currently on 50 ml/hr D5W for [**2152**] ml
   # Anemia: Hct at 22.6
   -Follow Hct
   # Hyperglycemia
   - Cont. RISS
   # Pain: Secondary to clavicular and rib fractures. On fentanyl patch
   and IV fentanyl.  Pain well controlled.
   # Anxiety / depression:
   - prn ativan
   #Breast CA: Progressive and metastatic.
   - continue supportive management
   # Nutrition:  PEG placed. Tube Feeds.
   -Nutren 2.0 (Full) - [**2161-6-10**] 06:58 AM 30 mL/hour
   #FEN (about 1L positive)
   -Keep I/O negative
   -Increase Free Water for hypernatremia
   # Access: PICC line on left
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2161-6-12**] 10:14 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2161-6-10**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with Dr
   [**Last Name (STitle) 3382**]
 note above, including assessment and plan.  PMH, SH, FH and ROS
   are unchanged from admission except where noted above.
   Ms [**Known lastname 2950**] looks very well, more interactive than when I last examined
   her one week ago and slightly more strength (able to raise arms and
   legs marginally off bed). Persistant resp failure, on VCV mode. Issues
   well explained in discharge summary and briefly above. Safe for
   transfer to long term care facility.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2010**] [**Last Name (NamePattern1) **], MD
   on:[**2161-6-13**] 15:08 ------
   Time: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2010**] [**Last Name (NamePattern1) **], MD
   on:[**2161-6-13**] 15:52 ------